2165-03-18 07:01:00 Physician Resident Progress Note
TITLE:
   24 Hour Events:
   -O2 sats improved lying on side.
   -12pm: ABG 7.28/68/102: NRB
   -2pm: ABG 7.30/64/67: Bi-pap
   -4pm: ABG 7.34/58/135: FiO2 decreased 70% to 50%
   -8pm: Desats to 80s on back but obtunded. FiO2 increased to 100%. CXR
   worsened b/l infiltrates. ABG 7.29/66/91. Intubated by Anesthesia,
   started on Fentanyl and Versed for sedation.
   -11pm: ABG 7.31/59/117
   -Cyclosporine level high likely [**12-17**] vori (swtiched to mica per ID),
   dose decreased to 125 q12
   - Received Solumedrol 100mg x 1 for possible engraftment syndrome
   -Completed meropenem desensitization
   -Foley placed
   -500cc bolus given for low urine output overnight, then again this AM
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2165-3-17**] 08:00 PM
   Gentamicin - [**2165-3-17**] 09:28 PM
   Meropenem - [**2165-3-18**] 02:14 AM
   Acyclovir - [**2165-3-18**] 05:30 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Cyclosporine
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-18**] 06:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 97 (92 - 116) bpm
   BP: 98/57(69) {98/53(68) - 130/69(86)} mmHg
   RR: 15 (14 - 28) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                 79,039 mL
                                                                  1,520 mL
   PO:
             TF:
   IVF:
                                                                  1,052 mL
                                                                  1,520 mL
   Blood products:
                                                                    223 mL
   Total out:
                                                                 12,255 mL
                                                                     40 mL
   Urine:
   40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 66,784 mL
                                                                  1,480 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 500) mL
   Vt (Spontaneous): 612 (420 - 612) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 28 cmH2O
   Plateau: 19 cmH2O
   Compliance: 86 cmH2O/mL
   SpO2: 98%
   ABG: 7.33/52/153/24/0
   Ve: 10.7 L/min
   PaO2 / FiO2: 306
   Physical Examination
   Gen: obese, intubated and sedated but arousable, in no acute distress,
   resting comfortably in bed,
   NECK: Right-sided portacath. Left-sided tunneled catheter ovrer
   erythematous patch ?old XRT site. Unable to assess JVD [**12-17**] obese
   habitus.
   CV: RR, NL rate. NL S1., S2. No murmurs, rubs or gallops
   LUNGS: Clear anteriorly
   ABD: obese, Soft, NT, ND. NL BS.  No HSM
   EXT: Trace lower extremity edema bilaterally. Right-sided A-line in
   place.
   Labs / Radiology
   42 K/uL
   8.6 g/dL
   209 mg/dL
   1.4 mg/dL
   24 mEq/L
   7.4 mEq/L
   15 mg/dL
   95 mEq/L
   126 mEq/L
   24.4 %
   1.7 K/uL
        [image002.jpg]
                             [**2165-3-17**]  12:46 PM
                             [**2165-3-17**]  02:33 PM
                             [**2165-3-17**]  04:41 PM
                             [**2165-3-17**]  05:38 PM
                             [**2165-3-17**]  08:40 PM
                             [**2165-3-17**]  09:17 PM
                             [**2165-3-17**]  10:50 PM
                             [**2165-3-18**]  12:54 AM
                             [**2165-3-18**]  04:32 AM
                             [**2165-3-18**]  04:55 AM
   WBC
   5.1
   1.7
   Hct
   25.7
   24.4
   Plt
   19
   42
   Cr
   0.8
   1.4
   TCO2
   33
   33
   33
   33
   31
   29
   29
   Glucose
   127
   112
   209
   Other labs: ALT / AST:17/53, Alk Phos / T Bili:63/0.8,
   Differential-Neuts:68.0 %, Band:6.0 %, Lymph:10.0 %, Mono:14.0 %,
   Eos:0.0 %, Lactic Acid:1.9 mmol/L, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL,
   PO4:4.2 mg/dL
   Assessment and Plan
   61yo male now Day +9 of allogeneic SCT for multiple myeloma transferred
   to the [**Hospital Unit Name 1**] for evaluation of altered mental status, hypoxia, and
   meropenem desensitization for ESBL E. coli bacteremia.
   # Respiratory distress: Quickly evolving bilateral patchy infiltrates
   yesterday highly suggestive of ARDS given PaO2:FiO2 <200. Ddx also
   includes post-transplant reaction and engraftment syndrome as in
   correct time frame per Heme-Onc; received
   1. Altered Mental Status
   Etiology of his altered mental status is likely multifactorial related
   to his gram negative rod bacteremia and hypercarbia related to
   parainfluenza, further worsened by hyponatremia. Encephalitis or
   meningitis are also possible. Lumbar puncture was performed on [**2165-3-15**]
   and had only 1 WBCs, although this is difficult to interpret in the
   setting of neutropenia. His glucose and total protein were normal,
   which is somewhat reassuring. Additional infection is also possible,
   although cultures remain NGTD for additional infection. Hyponatremia
   has been relatively chronic during this admission and is likely not a
   large contributor to his altered mental status.
   - will start treatmement for ESBL E. coli bacteremia with meropenem
   desensitization protocol (see below)
   - will start noninvasive ventilation for increased ventilation to
   improve his hypercarbia with intubation as needed
   - follow-up CSF Cultures
   - follow-up CSF studies - Toxoplasma gondii, EBV PCR, HHV 6, HSV, and
   Coccidiodes
   - avoid further psychotropic medications
   - follow-up blood and urine cultures
   2. E. coli Bacteremia and UTI
   Patient had ESBL E. coli UTI on [**2165-2-26**], although subsequent urine
   cultures were negative after treatment with aztreonam. Surprisingly
   then his blood cultures returned with ESBL bacteremia on [**2165-3-15**],
   despite clearing of his urinary tract infection. He has been on
   aztreonam and gentamicin for treatment of this, although meropenem
   would be preferred in this patient due to inferiority of gentamicin in
   neutropenic patients. Patient unfortunately has anaphylaxis reaction to
   penicillins in the past and will need meropenem desensitiziation
   protocol for this.
   - discontinue gentamicin
   - continue vancomycin for broad gram positive coverage in this patient
   with febrile neutropenia, will follow-up with BMT regarding peeling
   this back given no gram positive infection to date and cultures NGTD
   - will follow-up with BMT team regarding need for micafungin
   - allergy consultation
   - start meropenem desensitization protocol once respiratory status is
   improved
   - will need tunneled catheter removed by interventional radiology once
   patient is stable from a respiratory standpoint and has received first
   dose of meropenem
   - daily blood cultures
   - appreciate ID input
   3. Hypoxia and Hypercarbia
   Patient is both hypoxic and hypercarbic, likely due to parainfluenza
   infection and obstructive sleep apnea.
   - will try noninvasive ventilation to improve oxygenation and
   ventilation; if no improvement will need to intubate
   4. Myeloma
   Patient is now day + 9 for SCT for multiple myeloma.
   - appreciate BMT recs
   - continue acyclovir, clotrimazole, and bactrim prophylaxis
   - continue ursodiol per BMT protocol
   - continue immunosuppression with cyclosporine and mycophenolate
   mofetil
   5. Hyponatremia
   Etiology is most likely related to SIADH, secondary to pain and/or
   pneumonia.
   - continue to monitor daily sodium
   - continue free water restriction
   - continue salt tabs
   6. Type 2 Diabetes Mellitus
   Patient with difficult to control blood glucose in the setting of
   infection, underlying diabetes mellitus, and steroids.
   - appreciate [**Last Name (un) 303**] input
   - continue insulin sliding scale with lantus
   7. Hypertension
   Patient has a history of hypertension in the past requiring Metoprolol
   Succinate 50mg PO bid and amlodipine 2.5mg PO daily. Currently
   normotensive
   - hold Toprol XL and amlodipine in the setting of gram negative rod
   bacteremia and will restart if BP increases
   8. Depression
   Patient has a history of major depression with significant medication
   requirements.
   - appreciate psychiatry input
   - continue duloxetine and lorazepam PO/IV prn
   9. Glaucoma
   Stable
   - continue timolol eye drops
   10. Hyperlipidemia
   Stable
   - hold atorvastatin in the acute setting
   11. Peripheral Neuropathy and Pain
   Stable
   - continue gapabentin, oxycontin, and oxycodone prn
   12. GERD
   Stable
   - continue PPI
   ICU Care
   Nutrition:
   Comments: NPO for now pending improvement in respiratory status
   Glycemic Control: Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2165-3-17**] 12:15 PM
   20 Gauge - [**2165-3-17**] 12:15 PM
   Arterial Line - [**2165-3-18**] 02:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition: ICU

2165-03-18 09:55:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 TUNNELED (HICKMAN) LINE - START [**2165-3-17**] 12:15 PM
 NON-INVASIVE VENTILATION - START [**2165-3-17**] 03:13 PM
 NON-INVASIVE VENTILATION - STOP [**2165-3-17**] 09:37 PM
 ARTERIAL LINE - START [**2165-3-18**] 02:03 AM
   7.28/68/104-->
   7.34/58/135 on BIPAP given
   7.29/66/91-->and patient intubated for hypoxemic and hypercarbic
   respiratory failure in the setting of admission for Meropenem
   desensitization
   In addition--patient with decreased urine output across the night.
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2165-3-17**] 08:00 PM
   Gentamicin - [**2165-3-17**] 09:28 PM
   Acyclovir - [**2165-3-18**] 05:30 AM
   Meropenem - [**2165-3-18**] 08:30 AM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Cyclosporine
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Heme / Lymph: Anemia
   Flowsheet Data as of  [**2165-3-18**] 09:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.8
C (98.2
   HR: 96 (92 - 116) bpm
   BP: 117/61(77) {98/53(68) - 130/69(86)} mmHg
   RR: 19 (10 - 28) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                 79,039 mL
                                                                  1,698 mL
   PO:
             TF:
   IVF:
                                                                  1,052 mL
                                                                  1,698 mL
   Blood products:
                                                                    223 mL
   Total out:
                                                                 12,255 mL
                                                                     51 mL
   Urine:
   51 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 66,784 mL
                                                                  1,647 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 500) mL
   Vt (Spontaneous): 612 (420 - 612) mL
   PS : 5 cmH2O
   RR (Set): 22
   RR (Spontaneous): 3
   PEEP: 14 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 71.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.33/52/153/25/0
   Ve: 9.3 L/min
   PaO2 / FiO2: 306
   Physical Examination
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm, No(t) Rash: None
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.6 g/dL
   42 K/uL
   212 mg/dL
   1.4 mg/dL
   25 mEq/L
   5.0 mEq/L
   15 mg/dL
   95 mEq/L
   125 mEq/L
   24.4 %
   1.7 K/uL
        [image002.jpg]
                             [**2165-3-17**]  02:33 PM
                             [**2165-3-17**]  04:41 PM
                             [**2165-3-17**]  05:38 PM
                             [**2165-3-17**]  08:40 PM
                             [**2165-3-17**]  09:17 PM
                             [**2165-3-17**]  10:50 PM
                             [**2165-3-18**]  12:54 AM
                             [**2165-3-18**]  04:32 AM
                             [**2165-3-18**]  04:55 AM
                             [**2165-3-18**]  06:02 AM
   WBC
   5.1
   1.7
   Hct
   25.7
   24.4
   Plt
   19
   42
   Cr
   0.8
   1.4
   1.4
   TCO2
   33
   33
   33
   31
   29
   29
   Glucose
   112
   209
   212
   Other labs: ALT / AST:17/53, Alk Phos / T Bili:63/0.8,
   Differential-Neuts:68.0 %, Band:6.0 %, Lymph:10.0 %, Mono:14.0 %,
   Eos:0.0 %, Lactic Acid:1.9 mmol/L, Ca++:8.1 mg/dL, Mg++:1.6 mg/dL,
   PO4:4.2 mg/dL
   Microbiology: BC--E. Coli
   Urine-_ESBL E. Coli
   Assessment and Plan
   61 yo male with MM and now with ATG given and found to have UTI-_Rx
   with ABX with stem cell infusion given [**3-8**].  He then evolved fever and
   altered mental status and with need for ongoing Rx for GNR bacteremia
   with E. Coli having been seen in Urine pre-transplant.  He does have
   history of anaphylactic reaction to PCN in past and with need for
   Meropenem Rx patient transfer to ICU with increased somnolence and need
   for desensitization.  Across the past 24 hours patient has had
   progressive respiratory failure with persistent and worsening hypoxemia
   despite BIPAP suppor non-invasively.  This is all concering for
   evolution of significant sepsis in the setting of incompletely
   controlled GNR bacteremia with antibiotic choice limited by significant
   anaphylactic response to PCN seen in the past.  He now has progressed
   to hypoxemic respiratory failure consistent with ARDS.
   1)Respiratory Failure
This does appear to be acute onset of bilateral
   pulmonary infiltrates, P/F ratio <200 and not clearly attributable to
   left heart failure.  Additionally he has suggestion of possible
   engraftment syndrome as timing is reasonable.  The notion that this is
   secondary to Meropenem is significantly less likely as BP stable and no
   evidence of prominent wheezing.  Viral pneumonia has to be considered
   but patient has been in hospital
   -Will ventilate with low tidal volume ventilation
   -FIO2 weaned to 0.5
   -PEEP quite adequate and will utilize balloon monitoring if FIO2 unable
   to be weaned
   -Check sputum for vial and bacterial pathogens
BAL for DAH and possible
   pathogens would be reasonable for alveolar sample and quantitative
   specimen and PCP [**Name Initial (PRE) 7300**].
   -Continue with broad spectum ABX
   -Will advance ETT by 2 cm
   2)Sepsis-This is clear evidence of significant bacteremia and sepsis
   with ARDS seen at this time.  Patient has had signfiicant bacteremia
   with indwelling catheters in place needed for access.  The issue is
   patient has had recurrence and significant decline in the setting of
   the antibiotic choices have been limited by allergic reaction in the
   past.  Encouragingly patient has had tolerance of desensitization.
   -Vanco/Meropenem
   -Mycofungin
   -Would favor D/C of all CVL
s and we will replace with TLC for sepsis
   management
will discuss with ID and BMT
   3)Acute Renal Failure-
   -Likely pre-renal and in the setting of sepsis and possible ATN
   -Will follow U/O and in the setting of oliguria will have to consider
   CVVH if needed.
   4)S/P BMT
   -MMF
   -Cyclosporine
   -Will continue to discuss closely
   -Will clarify need for flow cytometry with BMT fellow
   ICU Care
   Nutrition: npo
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Portacath--right
   Tunneled (Hickman) Line - [**2165-3-17**] 12:15 PM
   20 Gauge - [**2165-3-17**] 12:15 PM
   Arterial Line - [**2165-3-18**] 02:03 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 65 minutes
   Patient is critically ill

2165-03-19 07:05:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress, GNR bacteremia
   24 Hour Events:
   -Bronch bloody but not consistent with DAH. BAL fluid came back with
   parainfleunza 3.
   -BMT requesting lines be pulled.  Was not done as access issues given
   poor access.
   -Urine spun and revealed crystals that may be consistent with acyclovir
   induced nephrotoxicity.
   -Cyclosporine held and dose drawn at midnight (11 hours after 1pm dose)
   -Meds adjusted for low GFR (<10).
   -Remains on ARDSnet protocol, decreased FiO2 to 40% to start to get to
   weaning protocol, but sats dropped to 87 and pt increased back 50%
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Gentamicin - [**2165-3-17**] 09:28 PM
   Vancomycin - [**2165-3-18**] 12:30 PM
   Acyclovir - [**2165-3-18**] 01:56 PM
   Meropenem - [**2165-3-18**] 02:41 PM
   Micafungin - [**2165-3-18**] 04:08 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2165-3-18**] 11:45 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-19**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 101 (88 - 112) bpm
   BP: 131/72(89) {101/55(68) - 158/84(107)} mmHg
   RR: 14 (9 - 26) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  5,150 mL
                                                                    973 mL
   PO:
             TF:
   IVF:
                                                                  4,500 mL
                                                                    973 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                    140 mL
                                                                    164 mL
   Urine:
                                                                    110 mL
                                                                     24 mL
   NG:
                                                                     30 mL
                                                                    140 mL
   Stool:
   Drains:
   Balance:
                                                                  5,010 mL
                                                                    809 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 23 cmH2O
   Compliance: 33.1 cmH2O/mL
   SpO2: 93%
   ABG: 7.34/47/86.[**Numeric Identifier 143**]/22/0
   Ve: 10.6 L/min
   PaO2 / FiO2: 174
   Physical Examination
   Gen: obese, intubated and sedated, no arouseable to voice
   NECK: Right-sided portacath. Left-sided tunneled catheter over
   erythematous patch ?old XRT site. Unable to assess JVD [**12-17**] obese
   habitus.
   CV: RR, NL rate. NL S1., S2. No murmurs, rubs or gallops
   LUNGS: Clear anteriorly
   ABD: obese, Soft, NT, ND. NL BS.  No HSM
   EXT: 2+ PE over feet; legs bilaterally edematous but non-pitting.
   Right-sided A-line in place.
   Labs / Radiology
   37 K/uL
   7.3 g/dL
   135 mg/dL
   3.1 mg/dL
   22 mEq/L
   4.5 mEq/L
   30 mg/dL
   100 mEq/L
   129 mEq/L
   21.1 %
   4.8 K/uL
        [image002.jpg]
                             [**2165-3-17**]  08:40 PM
                             [**2165-3-17**]  09:17 PM
                             [**2165-3-17**]  10:50 PM
                             [**2165-3-18**]  12:54 AM
                             [**2165-3-18**]  04:32 AM
                             [**2165-3-18**]  04:55 AM
                             [**2165-3-18**]  06:02 AM
                             [**2165-3-18**]  01:46 PM
                             [**2165-3-18**]  09:23 PM
                             [**2165-3-19**]  03:40 AM
   WBC
   5.1
   1.7
   4.8
   Hct
   25.7
   24.4
   21.1
   Plt
   19
   42
   37
   Cr
   1.4
   1.4
   2.1
   3.1
   TCO2
   33
   31
   29
   29
   26
   Glucose
   [**Telephone/Fax (3) 7324**]35
   Other labs: ALT / AST:[**11-1**], Alk Phos / T Bili:62/0.5,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:2.0 %, Mono:6.0 %, Eos:0.0
   %, Lactic Acid:1.9 mmol/L, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:4.2
   mg/dL
   Assessment and Plan
   61yo male now Day +9 of allogeneic SCT for multiple myeloma transferred
   to the [**Hospital Unit Name 1**] for evaluation of altered mental status, hypoxia, and
   meropenem desensitization for ESBL E. coli bacteremia.
   # Respiratory distress: Quickly evolving bilateral patchy infiltrates
   yesterday highly suggestive of ARDS in setting of sepsis and known
   parainfluenza pneumonia given PaO2:FiO2 <200. Ddx also includes
   post-transplant reaction and engraftment syndrome as in correct time
   frame and given increased WBC per Heme-Onc. [**Month (only) 51**] also have infectious
   process, including atypical, viral, PCP or even rapidly evolving
   bacterial pneumonia in immunosuppresed host. BAL viral screen positive
   for parainfluenza type 3 viral antigen. Lastly, could represent DAH;
   less likely as sputum s/p intubation initially pink but cleared
   although certainly concern given thrombocytopenia.
   -mechanical vent (goal Vt 4mg/kg IBW per ARDS protocol)
   -continue vanco and meropenem
   -cont micafungin
   -received high-dose solumedrol x 1, will f/u with Heme re: inclination
   to continue treating possible engraftment syndrome, keeping in mind
   that steroids may impair immune response to possible viral pneumonia.
   # Altered Mental Status: Likely multifactorial related to infection and
   hypercarbia related to parainfluenza, further worsened by hyponatremia.
   Lumbar puncture was performed on [**2165-3-15**]; 1 WBC difficult to interpret
   in the setting of neutropenia but nl glucose and total protein
   reassuring. Additional infection is also possible, although cultures
   remain NGTD for additional infection. Hyponatremia has been relatively
   chronic during this admission and is likely not a large contributor to
   his altered mental status.
   -continue treatment for ESBL E. coli bacteremia with meropenem
   -follow-up blood and urine cultures, CSF cx and studies (Toxoplasma
   gondii, EBV PCR, HHV 6, HSV, and Coccidiodes)
   -appreciate psychiatry recs
   # E. coli Bacteremia and UTI: ESBL E. coli UTI on [**2165-2-26**] with
   subsequent clearance s/p aztreonam but [**3-15**] and [**3-16**] cx now with ESBL
   bacteremia. Had been on aztreonam and gentamicin, now switched to
   meropenem per ID recs s/p successful desensitization given h/o
   anaphylaxis on penicillins.
   -continue meropenem
   -re-address with BMT and ID whether to remove lines
   -daily blood cultures
   -f/u allergy and ID recs
   # ARF: Oligric renal failure. Likely multifactorial given hypotension
   in setting of intubation w/ increased lactate, volume depletion
   (?insensible losses), supratherapeutic cyclosporin levels, gentamicin,
   recent contrast load, and acyclovir. Urine sediment [**3-18**] with numerous
   crystals, believe acyclovir- thus acyclovir-related ARF is at the top
   of the differential
   -follow-up renal recs
   -dose all meds for GFR <10
   # Anemia: hematocrit 21.1 today (has been this low before although
   usually in mid 20s).
   -recheck hct in PM
   -guiaic all stools
   -transfuse for <21
   # Myeloma: Patient is now day +11 of SCT for multiple myeloma.
   -f/u BMT recs
   -holding acyclovir d/t probably acyclovir-related acute renal failure
   -nystatin for thrush prophylaxis
   -continue ursodiol per BMT protocol
   -continue immunosuppression with mycophenolate mofetil; f/u
   cyclosporine level and adjust as indicated
   # Hyponatremia: Most likely related to SIADH, secondary to pain and/or
   pneumonia. Currently stable (128-131-129).
   -continue to monitor daily sodium
   -continue free water restriction
   -f/u with renal re: correction of hyponatremia as patient is currently
   anuric
   # Type 2 Diabetes Mellitus: Difficult to control blood glucose in the
   setting of infection, underlying diabetes mellitus, and steroids.
   -appreciate [**Last Name (un) 303**] input
   -continue humalog sliding scale with Lantus
   # Hypertension: Patient has a history of hypertension in the past
   requiring metoprolol 50 [**Hospital1 **] and amlodipine 2.5 qday. Currently
   normotensive.
   -holding antihypertensives in setting of gram negative rod bacteremia
   and will restart when clinically improved
   # Depression: Patient has a history of major depression with
   significant medication requirements.
   -appreciate psychiatry input
   -hold duloxetine for now
   -f/u with psychiatry re: stopping duloxetine versus starting another
   SSRI in its place
   # Glaucoma
   -continue timolol eye drops
   # Hyperlipidemia
   -holding atorvastatin in acute setting
   # Peripheral Neuropathy and Pain
   -stopped neurontin per renal recs
   -continue oxycodone prn
   # GERD
   -continue lansoprazole
   ICU Care
   Nutrition: will start on tube feeds, add Reglan for dysmotility
   Glycemic Control: regular insulin sliding scale
   Lines: Tunneled (Hickman) Line - [**2165-3-17**] 12:15 PM, 20 Gauge -
   [**2165-3-17**] 12:15 PM, Arterial Line - [**2165-3-18**] 02:03 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication: Family meeting held
   Code status: FULL code
   Disposition: ICU

2165-03-19 11:31:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   -Urine--prominent crystals concerning for acyclovir toxicity
   FIO2 decreased to 0.4 but with rapid need to return to 0.5
   History obtained from Medical records
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Gentamicin - [**2165-3-17**] 09:28 PM
   Vancomycin - [**2165-3-18**] 12:30 PM
   Acyclovir - [**2165-3-18**] 01:56 PM
   Meropenem - [**2165-3-18**] 02:41 PM
   Micafungin - [**2165-3-18**] 04:08 PM
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Fentanyl - 75 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2165-3-18**] 11:45 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Flowsheet Data as of  [**2165-3-19**] 11:09 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.6
C (97.8
   HR: 93 (88 - 112) bpm
   BP: 122/68(83) {105/56(72) - 158/84(107)} mmHg
   RR: 15 (9 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
             Total In:
                                                                  5,151 mL
                                                                  1,366 mL
   PO:
             TF:
   IVF:
                                                                  4,501 mL
                                                                  1,306 mL
   Blood products:
                                                                    500 mL
   Total out:
                                                                    140 mL
                                                                    194 mL
   Urine:
                                                                    110 mL
                                                                     54 mL
   NG:
                                                                     30 mL
                                                                    140 mL
   Stool:
   Drains:
   Balance:
                                                                  5,011 mL
                                                                  1,172 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 22
   RR (Spontaneous): 6
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 21 cmH2O
   Compliance: 39.1 cmH2O/mL
   SpO2: 95%
   ABG: 7.34/47/86.[**Numeric Identifier 143**]/22/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 174
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.3 g/dL
   37 K/uL
   135 mg/dL
   3.1 mg/dL
   22 mEq/L
   4.5 mEq/L
   30 mg/dL
   100 mEq/L
   129 mEq/L
   21.1 %
   4.8 K/uL
        [image002.jpg]
                             [**2165-3-17**]  08:40 PM
                             [**2165-3-17**]  09:17 PM
                             [**2165-3-17**]  10:50 PM
                             [**2165-3-18**]  12:54 AM
                             [**2165-3-18**]  04:32 AM
                             [**2165-3-18**]  04:55 AM
                             [**2165-3-18**]  06:02 AM
                             [**2165-3-18**]  01:46 PM
                             [**2165-3-18**]  09:23 PM
                             [**2165-3-19**]  03:40 AM
   WBC
   5.1
   1.7
   4.8
   Hct
   25.7
   24.4
   21.1
   Plt
   19
   42
   37
   Cr
   1.4
   1.4
   2.1
   3.1
   TCO2
   33
   31
   29
   29
   26
   Glucose
   [**Telephone/Fax (3) 7324**]35
   Other labs: ALT / AST:[**11-1**], Alk Phos / T Bili:62/0.5,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:2.0 %, Mono:6.0 %, Eos:0.0
   %, Lactic Acid:1.9 mmol/L, Ca++:7.8 mg/dL, Mg++:1.7 mg/dL, PO4:4.2
   mg/dL
   Imaging: CXR-ETT and lines in good position.  CP angles seen, diffuse
   bilateral patchy infiltrates seen without signficant change
   Microbiology: Cultures-
   BAL-NO-PCP on combined [**Name9 (PRE) 7333**] organisms
   BC--Negative since [**3-16**]
   Assessment and Plan
   61 yo male admit with sepsis and respiratory failure with ARDS and
   found to have Para-influenza 3 seen on BAL specimen.  He has blood
   alveolar secretions but without progressively bloody return which
   argues against ongoing active pulmonary capillaritis.  This may more
   likely represent a pattern of diffuse alveolar damage and leak of RBC's
   into alveolar space.
   1)ARDS/Respiratory Failure
he has had reasonable optimization of PEEP
   and ventilatory support with lung protective strategies.  We have CXR
   with minimal change day to day.  Peak inspiratory pressures in the
   range of 24 are quite reasonable and should be well tolerated.
   -PEEP up-titration to 12 as this was trialed with minimal change and he
   may well be just below lower inflection point of compliance curve.
   -Continuew tih Low Vt strategy and permissive hypercapnia
   -PEEP 12 today
   -Trail FIO2 wean to 0.4
   2) RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)--Hypotension, med
   effects, contrast effects and sepsis all playing a role and
   unfortunately at this time he is anuric and has continued profound
   impairment in renal function.
   -Will need CVVH for volume removal if oxygenation difficult but at this
   time would continue to renal dose meds and provide support as above and
   renal dose meds
   Neurontin to be held
   3)Sepsis-_GNR bacteremia convincingly dominant insult and will continue
   with
   -Meropenem
   -IVF as needed
   -Extensive discussions in regards to catheters
would favor continued
   maintenance of current catheters give significant difficulty with
   access and negative blood cultures
   -Will repeat blood cultures today to aid in assurance of infection
   control
   4) MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   -S/P BMT
   ICU Care
   Nutrition: Tube Feeds
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2165-3-17**] 12:15 PM
   20 Gauge - [**2165-3-17**] 12:15 PM
   Arterial Line - [**2165-3-18**] 02:03 AM
   Prophylaxis:
   DVT: BOOTS
   Stress ulcer: Lansoprazole
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICu
   Total time spent: 45

2165-03-20 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress
   24 Hour Events:
   -psych recs- d/c duloxetine d/t renal failure (can restart later at
   same dose)
   -renal recs- lines could stay in; patient will probably need dialysis
   in the next two days, would need femoral line
   -BMT recs- okay to leave lines in for now, dose cyclosporine 100 mg IV
   10PM, f/u level at 9AM [**3-20**], no steroids for now
   -ID recs- consider CT [**Last Name (un) **] for source of E. coli; consider decrease
   steroids as rx for paraflu; no clear indication to pull lines
   -[**First Name4 (NamePattern1) 4731**] [**Last Name (NamePattern1) 916**] (IV nurse)- LIJ no good for HD
   -micro data-
    -bcx [**Date range (1) 7359**]- ESBL E coli
    -bcx [**Date range (1) 7360**]- NEG
    -ucx [**3-18**]- NEG
    -BAL- NEG
    -rapid viral screen- parainfluenza type 3
   -cyclosporine- 268, vanc level- 27
   -PM 'lytes and CBC- hct 20.9, plt 39, worsening creat --> transfused 1U
   PRBCs
   -renal U/S- no hydronephrosis. Flow and waveforms to right kidney
   normal. Limited greyscale and doppler eval of left kidney, though
   arterial flow appears preserved.
   -neck mass- ultrasound- no soft tissue fluid collection
   -resp status- decreased FiO2 to 45%, kept PEEP at 12, did not alter Vt
   or f
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Gentamicin - [**2165-3-17**] 09:28 PM
   Vancomycin - [**2165-3-18**] 12:30 PM
   Acyclovir - [**2165-3-18**] 01:56 PM
   Meropenem - [**2165-3-19**] 02:25 PM
   Micafungin - [**2165-3-19**] 04:00 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2165-3-19**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-20**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 104 (82 - 108) bpm
   BP: 118/69(84) {106/59(74) - 165/85(105)} mmHg
   RR: 21 (6 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
           Total In:
                                                                  1,952 mL
                                                                    185 mL
   PO:
           TF:
   IVF:
                                                                  1,669 mL
                                                                    131 mL
   Blood products:
                                                                    223 mL
                                                                     54 mL
   Total out:
                                                                    687 mL
                                                                     65 mL
   Urine:
                                                                    107 mL
                                                                     65 mL
   NG:
                                                                    580 mL
   Stool:
   Drains:
   Balance:
                                                                  1,265 mL
                                                                    120 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 22
   RR (Spontaneous): 0
   PEEP: 12 cmH2O
   FiO2: 45%
   RSBI Deferred: PEEP > 10
   PIP: 21 cmH2O
   Plateau: 23 cmH2O
   Compliance: 39.1 cmH2O/mL
   SpO2: 96%
   ABG: 7.33/44/90.[**Numeric Identifier 126**]/23/-2
   Ve: 9.9 L/min
   PaO2 / FiO2: 200
   Physical Examination
   Gen: obese, intubated and sedated, not arouseable to voice
   NECK: Right-sided portacath. Left-sided tunneled catheter over
   erythematous patch ?old XRT site. Unable to assess JVD [**12-17**] obese
   habitus.
   CV: RR, NL rate. NL S1., S2. No murmurs, rubs or gallops
   LUNGS: Clear anteriorly
   ABD: obese, Soft, NT, ND. NL BS.  No HSM
   EXT: trace to 1+ pitting edema on dorsum of feet; legs bilaterally
   edematous but non-pitting. Right-sided A-line in place.
   Labs / Radiology
   43 K/uL
   8.8 g/dL
   92 mg/dL
   4.7 mg/dL
   23 mEq/L
   4.7 mEq/L
   51 mg/dL
   101 mEq/L
   133 mEq/L
   25.0 %
   7.1 K/uL
        [image002.jpg]
                             [**2165-3-18**]  12:54 AM
                             [**2165-3-18**]  04:32 AM
                             [**2165-3-18**]  04:55 AM
                             [**2165-3-18**]  06:02 AM
                             [**2165-3-18**]  01:46 PM
                             [**2165-3-18**]  09:23 PM
                             [**2165-3-19**]  03:40 AM
                             [**2165-3-19**]  03:50 PM
                             [**2165-3-20**]  04:11 AM
                             [**2165-3-20**]  05:14 AM
   WBC
   1.7
   4.8
   5.2
   7.1
   Hct
   24.4
   21.1
   20.9
   25.0
   Plt
   42
   37
   39
   43
   Cr
   1.4
   1.4
   2.1
   3.1
   4.0
   4.7
   TCO2
   29
   29
   26
   24
   Glucose
   [**Telephone/Fax (3) 7324**]35
   108
   92
   Other labs: ALT / AST:[**11-1**], Alk Phos / T Bili:62/0.5,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:2.0 %, Mono:6.0 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:5.4
   mg/dL
   Assessment and Plan
   61yo male now Day +12 of allogeneic SCT for multiple myeloma
   transferred to the [**Hospital Unit Name 1**] for evaluation of altered mental status,
   hypoxia, and meropenem desensitization for ESBL E. coli bacteremia.
   # Respiratory distress: Quickly evolving bilateral patchy infiltrates
   were highly suggestive of ARDS in setting of sepsis and known
   parainfluenza pneumonia given PaO2:FiO2 <200. Ddx also includes
   post-transplant reaction and engraftment syndrome as in correct time
   frame and given increased WBC per Heme-Onc. [**Month (only) 51**] also have infectious
   process, including atypical, viral, PCP or even rapidly evolving
   bacterial pneumonia in immunosuppresed host. BAL viral screen positive
   for parainfluenza type 3 viral antigen.
   -mechanical vent (goal Vt 4mg/kg IBW per ARDS protocol)
   -wean PEEP as tolerated with goal PEEP of 8; then may try pressure
   support trial if oxygenating well (after weaning sedation)
   -continue vanco and meropenem, check vancomycin level today
   -continue micafungin
   -received high-dose solumedrol x 1, trying to avoid steroids in setting
   of possible viral pneumonia
   -improvement in respiratory status will largely depend upon improving
   renal function, as well as tx of pneumonia as above
   -consider repeat CXR this afternoon
   # Altered Mental Status: Likely multifactorial related to infection and
   hypercarbia related to parainfluenza, further worsened by hyponatremia.
   Lumbar puncture was performed on [**2165-3-15**]; 1 WBC difficult to interpret
   in the setting of neutropenia but nl glucose and total protein
   reassuring. Additional infection is also possible, although cultures
   remain NGTD for additional infection. Hyponatremia has been relatively
   chronic during this admission and is likely not a large contributor to
   his altered mental status.
   -continue treatment for ESBL E. coli bacteremia with meropenem
   -follow-up blood and urine cultures, CSF cx and studies (Toxoplasma
   gondii, EBV PCR, HHV 6, HSV, and Coccidiodes)
   -appreciate psychiatry recs
   # E. coli Bacteremia and UTI: ESBL E. coli UTI on [**2165-2-26**] with
   subsequent clearance s/p aztreonam but [**3-15**] and [**3-16**] cx now with ESBL
   bacteremia. Had been on aztreonam and gentamicin, now switched to
   meropenem per ID recs s/p successful desensitization given h/o
   anaphylaxis on penicillins.
   -continue meropenem
   -will leave lines in for now, pending surveillance cultures
   -daily blood cultures
   -f/u allergy and ID recs
   # ARF: Oligric renal failure. Likely multifactorial given hypotension
   in setting of intubation w/ increased lactate, volume depletion
   (?insensible losses), supratherapeutic cyclosporin levels, gentamicin,
   recent contrast load, and acyclovir. Urine sediment [**3-18**] with numerous
   crystals, believe acyclovir- thus acyclovir-related ARF is at the top
   of the differential.
   -follow-up renal recs
   -dose all meds for GFR <10
   # Anemia: hematocrit 25, up from 20 after 1U PRBCs- appropriate bump
   -guiaic all stools
   -transfuse for <21
   # Myeloma: Patient is now day +12 of SCT for multiple myeloma.
   -f/u BMT recs
   -holding acyclovir d/t probable acyclovir-related acute renal failure
   -nystatin for thrush prophylaxis
   -continue ursodiol per BMT protocol
   -continue immunosuppression with mycophenolate mofetil; f/u
   cyclosporine level and adjust as indicated
   -avoiding steroids if possible d/t viral pneumonia
   # Hyponatremia: Most likely related to SIADH, secondary to pain and/or
   pneumonia. Currently stable.
   -continue to monitor daily sodium
   -continue free water restriction
   -f/u with renal re: correction of hyponatremia as patient is currently
   anuric
   # Type 2 Diabetes Mellitus: Difficult to control blood glucose in the
   setting of infection, underlying diabetes mellitus, and steroids.
   -appreciate [**Last Name (un) 303**] input
   -continue humalog sliding scale with Lantus,
 dose as patient is NPO
   # Hypertension: Patient has a history of hypertension in the past
   requiring metoprolol 50 [**Hospital1 **] and amlodipine 2.5 qday. Currently
   normotensive.
   -holding antihypertensives in setting of gram negative rod bacteremia
   and will restart when clinically improved
   # Depression: Patient has a history of major depression with
   significant medication requirements.
   -appreciate psychiatry input
   -hold duloxetine for now
   # Glaucoma
   -continue timolol eye drops
   # Hyperlipidemia
   -holding atorvastatin in acute setting
   # Peripheral Neuropathy and Pain
   -stopped neurontin per renal recs
   # GERD
   -continue lansoprazole
   ICU Care
   Nutrition: consider starting TPN if continues to have high residuals
   with tube feeds; will continue Reglan 5 mg tid
   Glycemic Control: humalog insulin sliding scale with Lantus
   Lines: Tunneled (Hickman) Line - [**2165-3-17**] 12:15 PM, 20 Gauge -
   [**2165-3-17**] 12:15 PM, Arterial Line - [**2165-3-18**] 02:03 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: lansoprazole
   VAP:
   Comments:
   Communication: Family meeting held
   Code status: FULL code
   Disposition: ICU

2165-03-20 10:46:00 Physician Attending Progress Note
Chief Complaint: ARDS
   Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Patient with Parainfluenza 3--will work to decrease immunosupressives
   Follow up blood and urine cultures and BAL cultures otherwise negative
   FIO2 decrease to 0.4, PEEP titrated to 12
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Gentamicin - [**2165-3-17**] 09:28 PM
   Vancomycin - [**2165-3-18**] 12:30 PM
   Acyclovir - [**2165-3-18**] 01:56 PM
   Meropenem - [**2165-3-19**] 02:25 PM
   Micafungin - [**2165-3-19**] 04:00 PM
   Infusions:
   Fentanyl - 75 mcg/hour
   Midazolam (Versed) - 5 mg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2165-3-19**] 12:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-20**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 107 (82 - 108) bpm
   BP: 119/70(85) {106/59(74) - 165/85(105)} mmHg
   RR: 20 (6 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
           Total In:
                                                                  1,952 mL
                                                                    343 mL
   PO:
           TF:
   IVF:
                                                                  1,669 mL
                                                                    289 mL
   Blood products:
                                                                    223 mL
                                                                     54 mL
   Total out:
                                                                    687 mL
                                                                    108 mL
   Urine:
                                                                    107 mL
                                                                    108 mL
   NG:
                                                                    580 mL
   Stool:
   Drains:
   Balance:
                                                                  1,265 mL
                                                                    235 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 430 (430 - 430) mL
   RR (Set): 22
   RR (Spontaneous): 4
   PEEP: 12 cmH2O
   FiO2: 45%
   RSBI Deferred: PEEP > 10
   PIP: 24 cmH2O
   Plateau: 21 cmH2O
   Compliance: 47.8 cmH2O/mL
   SpO2: 97%
   ABG: 7.33/44/90.[**Numeric Identifier 126**]/23/-2
   Ve: 10.1 L/min
   PaO2 / FiO2: 200
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.8 g/dL
   43 K/uL
   92 mg/dL
   4.7 mg/dL
   23 mEq/L
   4.7 mEq/L
   51 mg/dL
   101 mEq/L
   133 mEq/L
   25.0 %
   7.1 K/uL
        [image002.jpg]
                             [**2165-3-18**]  12:54 AM
                             [**2165-3-18**]  04:32 AM
                             [**2165-3-18**]  04:55 AM
                             [**2165-3-18**]  06:02 AM
                             [**2165-3-18**]  01:46 PM
                             [**2165-3-18**]  09:23 PM
                             [**2165-3-19**]  03:40 AM
                             [**2165-3-19**]  03:50 PM
                             [**2165-3-20**]  04:11 AM
                             [**2165-3-20**]  05:14 AM
   WBC
   1.7
   4.8
   5.2
   7.1
   Hct
   24.4
   21.1
   20.9
   25.0
   Plt
   42
   37
   39
   43
   Cr
   1.4
   1.4
   2.1
   3.1
   4.0
   4.7
   TCO2
   29
   29
   26
   24
   Glucose
   [**Telephone/Fax (3) 7324**]35
   108
   92
   Other labs: ALT / AST:[**11-1**], Alk Phos / T Bili:62/0.5,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:2.0 %, Mono:6.0 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Ca++:8.2 mg/dL, Mg++:1.9 mg/dL, PO4:5.4
   mg/dL
   Imaging: Renal U/S--no hydro in left
   U/S neck--no collection/mass
   Assessment and Plan
   61 yo male s/p BMT for MM who is admitted with sepsis, ARDS and some
   component of alveolar hemorrhage but not evidence of active pulmonary
   capillaritis.  He has been tolerant of the low VT ventilation and PEEP
   titration.  In regards to renal failure we have seen some suggestion of
   increased urine output--although Cr continues to rise.
   1)Respiratory Failure/ARDS-_Great findings this morning of compliance
   >40 and PEEP able to be titrated down to 10.   resistance remains
   normal throughout.  This would be opportunity to look to wean
   ventilator support
   -Wean PEEP to 10 and ABG in 2 hours and wean further to goal of 8 prior
   to PSV trial
   -Will look to wean sedation to allow patient to move to PSV trial
   -Main barriers to extubation are mental status and volume overload
   2)Sepsis-
   -Micafungin
   -Meropenem
   -Will continue to monitor cultures
we have not seen further growth from
   follow up cultures and will maintain current catheters in place and
   continue to Rx with ID support
   3)Acute Renal Failure-This again, is multifactorial and renal input
   much appreciated.
   -Cyclosporine and all medications doses for renal failure
   -Acyclovir held
   -Will continue to monitor for improved urine output and renal function
   and hope to avoid CVVH with primary indication being volume overload.
   MMF
 ALTERATION IN NUTRITION
 .H/O DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   ICU Care
   Nutrition: TF
s restarted with Reglan
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2165-3-17**] 12:15 PM
   20 Gauge - [**2165-3-17**] 12:15 PM
   Arterial Line - [**2165-3-18**] 02:03 AM
   Prophylaxis:
   DVT: PPI
   Stress ulcer: Lansoprazole
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments: Wife updated in full
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes

2165-03-21 07:26:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   -ID recs: Cont meropenem for E. coli, Vanc/mica for F&"N"
   -BMT recs: Hold cyclosporin, recheck AM level before dosing; daily LFTs
   -Renal recs: No acute indication for HD but will likely need at some
   point
   -[**Last Name (un) 303**]: D/c AM lantus dose
   -Pulm: Weaned PEEP 12 -> 10 -> 8. Satting well. Had asynchronous
   breathing on AC despite sedation so switched to pressure support. Did
   well.
   -Pulled ET tube out 1.5 cm as 1.8 cm from carina on CXR
   -BP and HR trending up throughout day with SBP to 190-200 and HR
   130-140, sinus rhythm with frequent ectopic beats. Restarted on home
   lopressor and atenolol. Also started on nitro gtt. Lopressor increased
   to 50mg tid. ?cyclosporine toxicity as afebrile, sedated, and persisted
   despite switch from AC -> PS.
   Vanc trough is 23.8
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2165-3-18**] 12:30 PM
   Acyclovir - [**2165-3-18**] 01:56 PM
   Meropenem - [**2165-3-20**] 02:35 PM
   Micafungin - [**2165-3-20**] 03:56 PM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 75 mcg/hour
   Nitroglycerin - 2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-21**] 06:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.9
C (98.4
   HR: 113 (98 - 124) bpm
   BP: 112/64(78) {112/59(78) - 191/97(123)} mmHg
   RR: 13 (0 - 22) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  2,068 mL
                                                                    759 mL
   PO:
             TF:
                                                                     60 mL
                                                                    177 mL
   IVF:
                                                                  1,865 mL
                                                                    581 mL
   Blood products:
                                                                     54 mL
   Total out:
                                                                    269 mL
                                                                     48 mL
   Urine:
                                                                    269 mL
                                                                     48 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,799 mL
                                                                    711 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 730 (730 - 730) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 19
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 19 cmH2O
   Plateau: 12 cmH2O
   SpO2: 94%
   ABG: 7.40/34/96.[**Numeric Identifier 181**]/20/-2
   Ve: 13.6 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Gen: obese, intubated and sedated, not arouseable to voice
   NECK: Right-sided portacath. Left-sided tunneled catheter over
   erythematous patch ?old XRT site. Unable to assess JVD [**12-17**] obese
   habitus.
   CV: Tachycardic, sinus with frequent PACs. NL S1., S2. No murmurs, rubs
   or gallops
   LUNGS: Clear anteriorly
   ABD: obese, Soft, NT, ND. NL BS.  No HSM
   EXT: 1+ pitting edema on dorsum of feet; upper extremities bilaterally
   edematous but non-pitting. Right-sided A-line in place.
   Neugo: Pupils round reactive to light.
   Labs / Radiology
   68 K/uL
   7.5 g/dL
   172 mg/dL
   7.0 mg/dL
   20 mEq/L
   5.3 mEq/L
   71 mg/dL
   101 mEq/L
   130 mEq/L
   20.8 %
   6.8 K/uL
        [image002.jpg]
                             [**2165-3-18**]  09:23 PM
                             [**2165-3-19**]  03:40 AM
                             [**2165-3-19**]  03:50 PM
                             [**2165-3-20**]  04:11 AM
                             [**2165-3-20**]  05:14 AM
                             [**2165-3-20**]  12:38 PM
                             [**2165-3-21**]  12:32 AM
                             [**2165-3-21**]  04:29 AM
                             [**2165-3-21**]  04:47 AM
                             [**2165-3-21**]  05:50 AM
   WBC
   4.8
   5.2
   7.1
   6.8
   Hct
   21.1
   20.9
   25.0
   20.8
   Plt
   37
   39
   43
   68
   Cr
   3.1
   4.0
   4.7
   7.0
   TCO2
   26
   24
   24
   23
   22
   Glucose
   135
   108
   92
   170
   172
   Other labs: ALT / AST:15/61, Alk Phos / T Bili:67/0.5,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:2.0 %, Mono:6.0 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.9
   mg/dL
   Assessment and Plan
   61yo male now Day +13 of allogeneic SCT for multiple myeloma
   transferred to the [**Hospital Unit Name 1**] for evaluation of altered mental status,
   hypoxia, and meropenem desensitization for ESBL E. coli bacteremia.
   # Respiratory distress: Quickly evolving bilateral patchy infiltrates
   were highly suggestive of ARDS in setting of sepsis and known
   parainfluenza pneumonia given PaO2:FiO2 <200. Ddx also includes
   post-transplant reaction and engraftment syndrome as in correct time
   frame and given increased WBC per Heme-Onc.. BAL viral screen positive
   for parainfluenza type 3 viral antigen.
   -mechanical vent (goal Vt 4mg/kg IBW per ARDS protocol)
   -Continue to wean PEEP and try daily pressure support trials.
   -continue vanco and meropenem
   -continue micafungin
   -improvement in respiratory status will largely depend upon improving
   renal function, as well as tx of pneumonia as above
   # Altered Mental Status: Likely multifactorial related to infection and
   hypercarbia related to parainfluenza, further worsened by hyponatremia.
   Lumbar puncture was performed on [**2165-3-15**]; 1 WBC difficult to interpret
   in the setting of neutropenia but nl glucose and total protein
   reassuring. Additional infection is also possible, although cultures
   remain NGTD for additional infection. Hyponatremia has been relatively
   chronic during this admission and is likely not a large contributor to
   his altered mental status.
   -continue treatment for ESBL E. coli bacteremia with meropenem
   -CSF studies negative to date. Continue to follow up other Cx data.
   -appreciate psychiatry recs
   # E. coli Bacteremia and UTI: ESBL E. coli UTI on [**2165-2-26**] with
   subsequent clearance s/p aztreonam but [**3-15**] and [**3-16**] cx now with ESBL
   bacteremia. Had been on aztreonam and gentamicin, now switched to
   meropenem per ID recs s/p successful desensitization given h/o
   anaphylaxis on penicillins.
   -continue meropenem
   -will leave lines in for now, pending surveillance cultures
   -daily blood cultures
   -f/u allergy and ID recs
   # ARF: Oligric renal failure. Likely multifactorial given hypotension
   in setting of intubation w/ increased lactate, volume depletion
   (?insensible losses), supratherapeutic cyclosporin levels, gentamicin,
   recent contrast load, and acyclovir. Urine sediment [**3-18**] with numerous
   crystals, believe acyclovir- thus acyclovir-related ARF is at the top
   of the differential.
   -follow-up renal recs
   -dose all meds for GFR <10
   # Anemia: hematocrit 20 decreased from 25 on [**2165-3-20**].  Will give 1 Unit
   of PRBC.
   -guiaic all stools
   -transfuse for <21
   # Myeloma: Patient is now day +12 of SCT for multiple myeloma.
   -Dose cyclosporine per level; goal around 200.
   -f/u BMT recs
   -holding acyclovir d/t probable acyclovir-related acute renal failure
   -nystatin for thrush prophylaxis
   -continue ursodiol per BMT protocol
   -continue immunosuppression with mycophenolate mofetil;
   -avoiding steroids if possible d/t viral pneumonia
   # Hyponatremia: Most likely related to SIADH, secondary to pain and/or
   pneumonia. Currently stable.
   -continue to monitor daily sodium
   -continue free water restriction
   -f/u with renal re: correction of hyponatremia as patient is currently
   anuric
   # Type 2 Diabetes Mellitus: Difficult to control blood glucose in the
   setting of infection, underlying diabetes mellitus, and steroids.
   -appreciate [**Last Name (un) 303**] input
   -continue humalog sliding scale with Lantus,
 dose as patient is NPO
   # Hypertension: Patient has a history of hypertension in the past
   requiring metoprolol 50 [**Hospital1 **] and amlodipine 2.5 qday. Became
   hypertensive yesterday. [**Month (only) 51**] be related to decreasing sedation and
   agitation.  Unable to assess if patient in pain.
   -Started on lopressor and nitro gtt.  Will wean gtt as tolerated.
   # Depression: Patient has a history of major depression with
   significant medication requirements.
   -appreciate psychiatry input
   -hold duloxetine for now
   # Glaucoma
   -continue timolol eye drops
   # Hyperlipidemia
   -holding atorvastatin in acute setting
   # Peripheral Neuropathy and Pain
   -stopped neurontin per renal recs
   # GERD
   -continue lansoprazole
   ICU Care
   Nutrition: TF for now, if elevated residuals can start TPN.
   Glycemic Control:  insulin standing and sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2165-3-17**] 12:15 PM
   20 Gauge - [**2165-3-17**] 12:15 PM
   Arterial Line - [**2165-3-18**] 02:03 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: lansoprazole
   VAP:  Vent precautions (VAP bundle)
   Comments:
   Communication: Family meeting held
   Code status: FULL code
   Disposition: ICU

2165-03-21 09:18:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   Sepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   PEEP weaned without change in oxygenation and patient moved to PSV
   support at 10/8 this am
   TNG gtt needed for BP control
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2165-3-18**] 12:30 PM
   Acyclovir - [**2165-3-18**] 01:56 PM
   Meropenem - [**2165-3-20**] 02:35 PM
   Micafungin - [**2165-3-20**] 03:56 PM
   Infusions:
   Midazolam (Versed) - 5 mg/hour
   Fentanyl - 75 mcg/hour
   Nitroglycerin - 1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Tachypnea
   Genitourinary: Foley
   Flowsheet Data as of  [**2165-3-21**] 09:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.3
C (100.9
   Tcurrent: 37.8
C (100.1
   HR: 107 (98 - 124) bpm
   BP: 104/59(74) {104/59(74) - 191/97(123)} mmHg
   RR: 19 (0 - 22) insp/min
   SpO2: 93%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 72 Inch
             Total In:
                                                                  2,069 mL
                                                                    961 mL
   PO:
             TF:
                                                                     60 mL
                                                                    273 mL
   IVF:
                                                                  1,865 mL
                                                                    688 mL
   Blood products:
                                                                     54 mL
   Total out:
                                                                    269 mL
                                                                     48 mL
   Urine:
                                                                    269 mL
                                                                     48 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,800 mL
                                                                    913 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 430 (430 - 430) mL
   Vt (Spontaneous): 521 (521 - 730) mL
   PS : 10 cmH2O
   RR (Set): 22
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 91
   RSBI Deferred: Sao2 < 90%
   PIP: 20 cmH2O
   Plateau: 12 cmH2O
   SpO2: 93%
   ABG: 7.40/34/96.[**Numeric Identifier 181**]/20/-2
   Ve: 12.2 L/min
   PaO2 / FiO2: 242
   Physical Examination
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   68 K/uL
   194
   7.0 mg/dL
   20 mEq/L
   5.3 mEq/L
   71 mg/dL
   101 mEq/L
   130 mEq/L
   20.8 %
   6.8 K/uL
        [image002.jpg]
                             [**2165-3-19**]  03:40 AM
                             [**2165-3-19**]  03:50 PM
                             [**2165-3-20**]  04:11 AM
                             [**2165-3-20**]  05:14 AM
                             [**2165-3-20**]  12:38 PM
                             [**2165-3-21**]  12:32 AM
                             [**2165-3-21**]  04:29 AM
                             [**2165-3-21**]  04:47 AM
                             [**2165-3-21**]  05:50 AM
                             [**2165-3-21**]  08:00 AM
   WBC
   4.8
   5.2
   7.1
   6.8
   Hct
   21.1
   20.9
   25.0
   20.8
   Plt
   37
   39
   43
   68
   Cr
   3.1
   4.0
   4.7
   7.0
   TCO2
   24
   24
   23
   22
   Glucose
   135
   108
   92
   170
   172
   194
   Other labs: ALT / AST:15/61, Alk Phos / T Bili:67/0.5,
   Differential-Neuts:85.0 %, Band:1.0 %, Lymph:2.0 %, Mono:6.0 %, Eos:0.0
   %, Lactic Acid:0.9 mmol/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:4.9
   mg/dL
   Imaging: CXR-ETT and CVL's in good position--diffuse bilateral
   pulmonary infiltrates and effusions noted.
   Assessment and Plan
   61 yo male with admission with ARDS and now with significant
   improvememt in respiratory failure and able to tolerate wean of PEEP
   and move to PSV.  He retains severe oliguria and worsening renal
   failure.
   1)Respiratory Failure-he is now limited by signifiant volume overload
   despite what appears to be improvement in oxygenation as ARDS has
   likely improved
however, volume overload is now primary barrier to
   extubation.
   -Wean sedation
   -Continue with antibiotics
   -Will need to move to CVVH today given need for volume removal in
   absence of capacity to adequately diurese with Lasix
   -Continue PSV
   2)Pneumonia-
   -Meropenem to continue
   3)BMT--For Multiple Myeloma-
   4)Acute Renal Failure
Continued worsening of creatinine and near
   anuria.
   -Will move to catheter placement today if no brisk response seen for
   diuretics
   -Lytes/Acid-Base status appears reasonable.
   4)Hypertension-
   -Atenolol to continue
   -TNG weaned to off
 .H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 .H/O DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2165-3-21**] 05:46 AM 30 mL/hour
   Glycemic Control:
   Lines:
   Tunneled (Hickman) Line - [**2165-3-17**] 12:15 PM
   20 Gauge - [**2165-3-17**] 12:15 PM
   Arterial Line - [**2165-3-18**] 02:03 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45

2165-03-22 05:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: respiratory distress, meropenem desensitization
   24 Hour Events:
   -residuals high, TF held
   -hypertesnsive in am.  On Nitro gtt, recieved Hydral IV x 1.
   -started CVVH, BP dropped, stopped Nitro gtt. Went high about about
   midnight (170s/90s)
   -BMT recs: CSA 50IV or 75 PO it taking TF (not taking TF)
   -renal recs: 160 mg IV Lasix x1 dose, then start CVVH
   -cont meropenem, mica; vancomycin stopped
   -hct 20-->transfused 1U PRBCs
   -fever > 101. Blood Cx already sent from am. Urine Cx added on. Concern
   for line infection, sinus infection, DVT.
   -CXR:  no change from previous. Bilateral parenchymal opacity persists
   with diffuse and slight lower lobe predominance. Unchanged moderate
   signs of overhydration. No new opacities.
   -micro data:
    -bcx [**Date range (1) 7415**]: negative to date
    -ucx [**3-17**] + [**3-21**]: negative to date
    -BAL: negative
    -respiratory viral screen: positive for parainfluenza type 3
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2165-3-21**] 02:30 PM
   Micafungin - [**2165-3-21**] 04:15 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Nitroglycerin - 2 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-22**] 05:52 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.1
C (98.8
   HR: 114 (96 - 114) bpm
   BP: 156/70(94) {98/54(67) - 173/78(102)} mmHg
   RR: 17 (13 - 27) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 145 kg (admission): 132.3 kg
   Height: 72 Inch
             Total In:
                                                                  2,718 mL
                                                                    699 mL
   PO:
             TF:
                                                                    445 mL
   IVF:
                                                                  1,943 mL
                                                                    659 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  1,003 mL
                                                                  2,562 mL
   Urine:
                                                                    176 mL
                                                                    140 mL
   NG:
                                                                    780 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  1,715 mL
                                                                 -1,863 mL
   Respiratory support
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,081 (521 - 1,081) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 16
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI: 91
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   SpO2: 95%
   ABG: 7.37/34/99.[**Numeric Identifier 508**]/19/-4
   Ve: 17.1 L/min
   PaO2 / FiO2: 250
   Physical Examination
   Gen: obese, intubated and sedated, not arouseable to voice
   NECK: right-sided portacath. Left-sided tunneled catheter over
   erythematous patch ?old XRT site. Unable to assess JVD [**12-17**] obese
   habitus.
   CV: tachycardic. Normal S1/S2.
   LUNGS: coarse breath sounds with ?crackles on auscultation of sides
   (current vent settings PS [**6-24**], Tv mid 400s, frequency mid 20s)
   ABD: obese, Soft, NT, ND. NL BS.  No HSM
   EXT: 1+ pitting edema on dorsum of feet; upper extremities bilaterally
   edematous but non-pitting. Right-sided A-line in place.
   Neuro: pupils round reactive to light.
   Labs / Radiology
   68 K/uL
   7.5 g/dL
   120 mg/dL
   7.6 mg/dL
   19 mEq/L
   5.1 mEq/L
   81 mg/dL
   100 mEq/L
   131 mEq/L
   22.6 %
   6.8 K/uL
        [image002.jpg]
                             [**2165-3-21**]  04:29 AM
                             [**2165-3-21**]  04:47 AM
                             [**2165-3-21**]  05:50 AM
                             [**2165-3-21**]  03:28 PM
                             [**2165-3-21**]  03:30 PM
                             [**2165-3-21**]  03:54 PM
                             [**2165-3-21**]  09:06 PM
                             [**2165-3-21**]  09:21 PM
                             [**2165-3-22**]  03:52 AM
                             [**2165-3-22**]  04:18 AM
   WBC
   6.8
   Hct
   20.8
   22.6
   Plt
   68
   Cr
   7.0
   6.9
   7.9
   8.3
   7.6
   TCO2
   22
   20
   20
   20
   Glucose
   170
   172
   173
   116
   120
   Other labs: PT / PTT / INR:14.8/32.5/1.3, ALT / AST:15/42, Alk Phos / T
   Bili:67/0.5, Differential-Neuts:85.0 %, Band:1.0 %, Lymph:2.0 %,
   Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Ca++:8.0 mg/dL, Mg++:2.0
   mg/dL, PO4:6.4 mg/dL
   Assessment and Plan
   61 yo man now Day +14 of allogeneic SCT for multiple myeloma
   transferred to the [**Hospital Unit Name 1**] for evaluation of altered mental status,
   hypoxia, and meropenem desensitization for ESBL E. coli bacteremia.
   # Respiratory distress: Quickly evolving bilateral patchy infiltrates
   were highly suggestive of ARDS in setting of sepsis and known
   parainfluenza pneumonia given PaO2:FiO2 <200. Ddx also includes volume
   overload from renal failure, post-transplant reaction and engraftment
   syndrome as in correct time frame and given increased WBC per Heme-Onc.
   BAL viral screen positive for parainfluenza type 3 viral antigen,
   negative for PCP.
   [**Name10 (NameIs) 7416**] vent (goal Vt 4mg/kg IBW per ARDS protocol)
   -continue to wean PEEP and try daily pressure support trials;
   spontaneous breathing trial today
   -continue meropenem and vancomycin
   -continue micafungin
   -improvement in respiratory status will largely depend upon improving
   renal function, as well as tx of pneumonia as above
   # Fevers: blood clot versus drug-related versus line infection versus
   urinary tract infection versus sinusitis
   -LE dopplers to look for DVT
   -f/u infectious disease recs
   -CT sinuses
   -CMV vL
   -consider pulling lines
   # Altered Mental Status: Likely multifactorial related to infection and
   hypercarbia related to parainfluenza, further worsened by hyponatremia.
   Lumbar puncture was performed on [**2165-3-15**]; 1 WBC difficult to interpret
   in the setting of neutropenia but nl glucose and total protein
   reassuring. Additional infection is also possible, although cultures
   remain NGTD for additional infection. Hyponatremia has been relatively
   chronic during this admission and is likely not a large contributor to
   his altered mental status.
   -continue treatment for ESBL E. coli bacteremia with meropenem
   -CSF studies negative to date. Continue to follow up other culture
   data.
   -appreciate psychiatry recs
   # E. coli Bacteremia and UTI: ESBL E. coli UTI on [**2165-2-26**] with
   subsequent clearance s/p aztreonam but [**3-15**] and [**3-16**] cx now with ESBL
   bacteremia. Had been on aztreonam and gentamicin, now switched to
   meropenem per ID recs s/p successful desensitization given h/o
   anaphylaxis on penicillins.
   -continue meropenem
   -will leave lines in for now, pending surveillance cultures
   -daily blood cultures
   -f/u allergy and ID recs
   # ARF: Oliguric renal failure. Likely multifactorial given hypotension
   in setting of intubation w/ increased lactate, volume depletion
   (?insensible losses), supratherapeutic cyclosporin levels, gentamicin,
   recent contrast load, and acyclovir. Urine sediment [**3-18**] with numerous
   crystals, believe acyclovir- thus acyclovir-related ARF is at the top
   of the differential.
   -continue CVVH per renal team
   -dose all meds for GFR <10
   # Anemia: hematocrit 20 decreased from 25 on [**2165-3-20**].
   -guiaic all stools
   -transfuse for <21
   # Myeloma: Patient is now day +14 of SCT for multiple myeloma.
   -Dose cyclosporine per level; goal around 200.
   -f/u BMT recs
   -holding acyclovir d/t probable acyclovir-related acute renal failure
   -nystatin for thrush prophylaxis
   -continue ursodiol per BMT protocol
   -continue immunosuppression with mycophenolate mofetil;
   -avoiding steroids if possible d/t viral pneumonia
   # Hyponatremia: Most likely related to SIADH, secondary to pain and/or
   pneumonia. Currently stable.
   -continue to monitor daily sodium
   -continue free water restriction
   -CVVH as above
   # Type 2 Diabetes Mellitus: Difficult to control blood glucose in the
   setting of infection, underlying diabetes mellitus, and steroids.
   -appreciate [**Last Name (un) 303**] input
   -continue humalog sliding scale with Lantus,
 dose as patient is NPO
   # Hypertension: Patient has a history of hypertension in the past
   requiring metoprolol 50 [**Hospital1 **] and amlodipine 2.5 qday. [**Month (only) 51**] be related to
   decreasing sedation and agitation.  Unable to assess if patient in
   pain.
   -continue metoprolol and amlodipine
   -consider restarted nitro gtt if hypertensive
   # Depression: Patient has a history of major depression with
   significant medication requirements.
   -appreciate psychiatry input
   -hold duloxetine for now
   # Glaucoma
   -continue timolol eye drops
   # Hyperlipidemia
   -holding atorvastatin in acute setting
   # Peripheral Neuropathy and Pain
   -stopped neurontin per renal recs
   # GERD
   -continue lansoprazole
   ICU Care
   Nutrition: TF for now, if elevated residuals can re-start TPN, continue
   Reglan for gastric dysmotility
   Glycemic Control:  insulin standing and sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2165-3-17**] 12:15 PM
   20 Gauge - [**2165-3-17**] 12:15 PM
   Arterial Line - [**2165-3-18**] 02:03 AM
   Prophylaxis:
   DVT: pneumoboots
   Stress ulcer: lansoprazole
   VAP:  Vent precautions (VAP bundle)
   Comments:
   Communication: Family meeting held
   Code status: FULL code
   Disposition: ICU

2165-03-22 11:39:00 Physician Attending Progress Note
Chief Complaint: Respiratory Failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2165-3-21**] 04:38 PM
 FEVER - 101.8
F - [**2165-3-21**] 04:00 PM
   CVVH started--200cc negative per hour
   PSV support well tolerated
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Micafungin - [**2165-3-21**] 04:15 PM
   Meropenem - [**2165-3-22**] 08:20 AM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   Nitroglycerin - 1 mcg/Kg/min
   KCl (CRRT) - 1 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-22**] 11:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.8
C (101.8
   Tcurrent: 37.9
C (100.3
   HR: 107 (96 - 122) bpm
   BP: 144/66(86) {98/53(67) - 173/78(102)} mmHg
   RR: 14 (12 - 27) insp/min
   SpO2: 97%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 145 kg (admission): 132.3 kg
   Height: 72 Inch
             Total In:
                                                                  2,718 mL
                                                                  1,603 mL
   PO:
             TF:
                                                                    445 mL
   IVF:
                                                                  1,943 mL
                                                                  1,493 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  1,003 mL
                                                                  5,570 mL
   Urine:
                                                                    176 mL
                                                                    190 mL
   NG:
                                                                    780 mL
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                  1,715 mL
                                                                 -3,967 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 1,123 (540 - 1,123) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 12
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 19 cmH2O
   SpO2: 97%
   ABG: 7.39/35/121/20/-2
   Ve: 12.6 L/min
   PaO2 / FiO2: 303
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Tactile stimuli, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   7.5 g/dL
   68 K/uL
   121 mg/dL
   7.0 mg/dL
   20 mEq/L
   4.8 mEq/L
   76 mg/dL
   98 mEq/L
   131 mEq/L
   22.6 %
   6.8 K/uL
        [image002.jpg]
                             [**2165-3-21**]  05:50 AM
                             [**2165-3-21**]  03:28 PM
                             [**2165-3-21**]  03:30 PM
                             [**2165-3-21**]  03:54 PM
                             [**2165-3-21**]  09:06 PM
                             [**2165-3-21**]  09:21 PM
                             [**2165-3-22**]  03:52 AM
                             [**2165-3-22**]  04:18 AM
                             [**2165-3-22**]  08:45 AM
                             [**2165-3-22**]  09:06 AM
   Hct
   22.6
   Cr
   6.9
   7.9
   8.3
   7.6
   7.0
   TCO2
   20
   20
   20
   22
   Glucose
   172
   173
   116
   120
   121
   Other labs: PT / PTT / INR:14.8/32.5/1.3, ALT / AST:15/42, Alk Phos / T
   Bili:67/0.5, Differential-Neuts:85.0 %, Band:1.0 %, Lymph:2.0 %,
   Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Ca++:8.2 mg/dL, Mg++:2.0
   mg/dL, PO4:6.3 mg/dL
   CXR
Much improved aeration of the lower lung fields
   Assessment and Plan
   61 yo male s/p BMT for multiple myeloma now with progressive
   respiratory failure and renal failure now on CVVH for volume removal in
   the setting of persistent anuria.  He has had continued good tolerance
   of PSV wean and with improved blood pressure stability noted have had
   favorable RSBI this morning.  BP control has actually required IV
   medications for stbilization.  However, patient does have persistent
   fevers noted through to this morning with T=100.3.  We have been
   considering possible sources for the low grade fevers with typical ICU
   infections such as sinusitis being considered and with possible seeding
   of catheters being raised as possibliity with blood cultures negative.
   1)Respiratory Failure-
   -Versed/Fentanyl low dose
   -PSV well tolerated
will continue to support through continued volume
   removal
   -Trial decrease PEEP today
   -Wean PEEP to 8, if tolerated
will mvoe to SBT
   2)Acute Renal Failure-
   -Continue CVVH for volume removal
   -Will discuss with renal team move to intermittent HD going forward and
   setting up schedule with possible first dialysis today.
   3)Sepsis
patient with GNR bacteremia and started on Meropenem after
   desensitization with blood cultures free or organisms.  He, however,
   has had ongoing fevers without clear definition
   -Micafungin/Meropenem
   -Will need to re-image for Sinus infection with interruption in CVVH
   timing organized with Renal team
   -Line change to be discussed with ID but would favor pull of lines
   -Will check LENI for DVT
   -Will send all cultures
   4)Multiple Myeloma-
   -Continue per BMT support in post BMT Rx
   ICU Care
   Nutrition: TF
s to restart today in the setting of improved residuals
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Tunneled (Hickman) Line - [**2165-3-17**] 12:15 PM
   Arterial Line - [**2165-3-18**] 02:03 AM
   Dialysis Catheter - [**2165-3-21**] 04:38 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2165-03-23 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Pt underwent fever work-p with nonspecific changes on CT sinus
   (sinusitis v. intubation). Limited but negative LENIs. Negative
   cultures. Left Hickman removed and right midline placed by IR.
   - Pt acutely tachycardic and hypoxic after returning from IR, requiring
   increased to FiO2 to 100%. Also flipped into Afib. Started on heparin
   empirically for PE and given IV metoprolol.
   - Fever to 101. 5 this AM.
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2165-3-22**] 08:20 AM
   Micafungin - [**2165-3-22**] 03:06 PM
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 50 mcg/hour
   Heparin Sodium - 1,650 units/hour
   Other ICU medications:
   Metoprolol - [**2165-3-23**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-23**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.5
C (99.5
   HR: 136 (100 - 152) bpm
   BP: 125/52(72) {106/49(67) - 175/80(106)} mmHg
   RR: 12 (10 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 145 kg (admission): 132.3 kg
   Height: 72 Inch
             Total In:
                                                                  2,421 mL
                                                                    402 mL
   PO:
             TF:
                                                                     77 mL
   IVF:
                                                                  2,114 mL
                                                                    232 mL
   Blood products:
   Total out:
                                                                  6,327 mL
                                                                    100 mL
   Urine:
                                                                    240 mL
                                                                    100 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,906 mL
                                                                    302 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 995 (995 - 1,123) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 6
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 18 cmH2O
   SpO2: 96%
   ABG: 7.31/41/115/19/-5
   Ve: 9.9 L/min
   PaO2 / FiO2: 230
   Physical Examination
   Gen: obese, intubated and sedated, not arousable to voice
   NECK: Right-sided portacath. Left-sided tunneled catheter over
   erythematous patch ?old XRT site. Unable to assess JVD [**12-17**] obese
   habitus.
   CV: Tachycardic, irregular. Normal S1/S2.
   LUNGS: Mildly coarse breath sounds with rare crackles
   ABD: obese, Soft, NT, ND. NL BS.  No HSM
   EXT: 1+ pitting edema on dorsum of feet; upper extremities bilaterally
   edematous but non-pitting. Right-sided A-line in place.
   Labs / Radiology
   105 K/uL
   8.4 g/dL
   99 mg/dL
   8.8 mg/dL
   19 mEq/L
   5.4 mEq/L
   86 mg/dL
   98 mEq/L
   132 mEq/L
   24.4 %
   10.4 K/uL
        [image002.jpg]
                             [**2165-3-22**]  08:45 AM
                             [**2165-3-22**]  09:06 AM
                             [**2165-3-22**]  12:23 PM
                             [**2165-3-22**]  03:19 PM
                             [**2165-3-22**]  03:43 PM
                             [**2165-3-22**]  09:54 PM
                             [**2165-3-22**]  10:07 PM
                             [**2165-3-23**]  12:52 AM
                             [**2165-3-23**]  05:51 AM
                             [**2165-3-23**]  06:04 AM
   WBC
   11.2
   11.6
   10.4
   Hct
   22.4
   24.5
   24.4
   Plt
   86
   92
   105
   Cr
   7.0
   7.7
   8.8
   TCO2
   22
   22
   22
   21
   22
   Glucose
   121
   124
   101
   103
   99
   Other labs: PT / PTT / INR:14.5/36.9/1.3, ALT / AST:13/61, Alk Phos / T
   Bili:86/0.5, Differential-Neuts:85.0 %, Band:1.0 %, Lymph:2.0 %,
   Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, LDH:768 IU/L, Ca++:9.0
   mg/dL, Mg++:2.3 mg/dL, PO4:8.8 mg/dL
   Imaging:
   - Sinus CT
   1. Mucosal thickening and fluid level in the paranasal sinuses, with
   interval worsening compared to prior study, and could be due to
   sinusitis, or to intubation.
   2. Interval opacification in the air cells of the left mastoid, and
   left middle ear.
   3. Chronic changes in the right mastoid with opacification likely from
   remote surgical procedure. Please correlate clinically.
   - Lower extremity doppler: Limited examination due to body habitus, but
   no definite evidence of DVT of either lower extremity. Limited
   evaluation of the mid superficial femoral vein bilaterally.
   Assessment and Plan
   61 yo man s/p alogeneic SCT for multiple myeloma transferred to the
   [**Hospital Unit Name 1**] for evaluation of altered mental status, hypoxia, and meropenem
   desensitization for ESBL E. coli bacteremia.
   # Respiratory failure: Quickly evolving bilateral patchy infiltrates
   were highly suggestive of ARDS given P:F <200 in setting of sepsis and
   known parainfluenza type 3 pneumonia. Negative for PCP. [**Name10 (NameIs) 7453**] also
   includes volume overload from renal failure and now question of
   pulmonary embolism. Post-transplant reaction and engraftment syndrome
   less likely.
   -Cont to mechanically vent; unable to tolerate SBT today; retry
   tomorrow
   -Cntinue meropenem, vancomycin, and micafungin
   -Avoiding steroids given parainfluenza
   -Cont heparin gtt with goal PTT 60-80
   -Improvement in respiratory status will largely depend on improved
   renal function. HD deferred in favor of CVVH given lower running BP.
   Will ultrafiltrate as BP tolerates
   # Fevers: PE (negative LENIs) versus drug-related (?meropenem despite
   desensitization) versus line infection versus sinusitis versus
   abdominal abscess
   -Appreciate ID recs
   -Continue current abx
   -CT torso
   -Continue empiric heparin gtt. Unable to do CTA given ARF. V/Q scan may
   not be informative given underlying pulm dz. Will order TTE to evaluate
   for R heart strain. [**Month (only) 51**] also be able to see evidence of RV enlargement
   on CT chest w/o contrast.
   -Check diff for eos, urine eos to r/o drug fever
   -Await cx data from pulled line. Consider pulling portacath if
   continuing to spike.
   # E. coli Bacteremia and UTI: ESBL E. coli UTI on [**2165-2-26**] with
   subsequent clearance s/p aztreonam but [**3-15**] and [**3-16**] cx now with ESBL
   bacteremia. Had been on aztreonam and gentamicin, now switched to
   meropenem per ID recs s/p successful desensitization given h/o
   anaphylaxis on penicillins.
   -continue meropenem
   -will leave lines in for now, pending surveillance cultures
   -CIS, f/u blood cultures
   -f/u allergy and ID recs
   # Afib with RVR:
   [**Month/Day (2) 7453**]: Increased adrenergic surge [**12-17**] acute insult in setting of good
   substrate (known mild LA enlargement) v. PE
   -Low-running BP limits ability to use metoprolol or dilt boluses; will
   start on amiodarone gtt which may also help remain in sinus rhythm
   should cardioversion become necessary
   -PE workup as above
   -Decrease adrenergic stimuli w/ Tylenol prn for fever, cont treating
   infection, keep adequately sedated
   # ARF: Oliguric renal failure. Likely multifactorial given hypotension
   in setting of intubation w/ increased lactate, volume depletion
   (?insensible losses), supratherapeutic cyclosporin levels, gentamicin,
   recent contrast load, and acyclovir. Urine sediment [**3-18**] with numerous
   crystals, believe acyclovir- thus acyclovir-related ARF is at the top
   of the differential.
   -continue CVVH per renal team
   -dose all meds for GFR <10
   -continue to hold acyclovir
   # Altered Mental Status: Likely multifactorial related to infection and
   hypercarbia related to parainfluenza, further worsened by hyponatremia.
   Lumbar puncture was performed on [**2165-3-15**]; 1 WBC difficult to interpret
   in the setting of neutropenia but nl glucose and total protein
   reassuring. Additional infection is also possible, although cultures
   remain NGTD for additional infection. Hyponatremia has been relatively
   chronic during this admission and is likely not a large contributor to
   his altered mental status.
   -continue treatment for ESBL E. coli bacteremia with meropenem
   -CSF studies negative to date. Continue to follow up other culture
   data.
   -appreciate psychiatry recs
   # Anemia: Hematocrit stable
   -trend CBC
   -guiaic all stools
   -transfuse for <21
   # Myeloma: Patient is s/p of SCT for multiple myeloma.
   -Dose cyclosporine per level (50mg IV today, recheck CSA level tomorrow
   at 9pm); goal around 200.
   -f/u BMT recs
   -holding acyclovir d/t probable acyclovir-related acute renal failure
   -nystatin for thrush prophylaxis
   -continue ursodiol per BMT protocol
   -continue immunosuppression with mycophenolate mofetil;
   -avoiding steroids if possible d/t viral pneumonia
   # Hyponatremia: Most likely related to SIADH, secondary to pain and/or
   pneumonia. Currently stable.
   -continue to monitor daily sodium
   -continue free water restriction
   -CVVH as above
   # Type 2 Diabetes Mellitus: Difficult to control blood glucose in the
   setting of infection, underlying diabetes mellitus, and steroids.
   -appreciate [**Last Name (un) 303**] input
   -continue humalog sliding scale with Lantus, followed FSG and adjust
   per tube feed status
   # Hypertension: Patient has a history of hypertension in the past
   requiring metoprolol 50 [**Hospital1 **] and amlodipine 2.5 qday. Here had required
   addition of nitro gtt but currently more hypotensive.
   -Hold metoprolol and amlodipine
   -Amiodarone for afib
   -CVVH as above; will avoid large fluid shifts
   -[**Month (only) 51**] need to start pressors if unable to maintain MAP>65
   # Depression: Patient has a history of major depression with
   significant medication requirements.
   -appreciate psychiatry input
   -holding duloxetine for now
   # Glaucoma
   -continue timolol eye drops
   # Hyperlipidemia
   -holding atorvastatin in acute setting
   # Peripheral Neuropathy and Pain
   -stopped neurontin per renal recs
   # GERD
   -continue lansoprazole
   ICU Care
   Nutrition: TF if residuals controlled, continue Reglan for gastric
   dysmotility
   Glycemic Control:  insulin standing and sliding scale
   Lines:
   Arterial Line - [**2165-3-18**] 02:03 AM
   Dialysis Catheter - [**2165-3-21**] 04:38 PM
   Indwelling Port (PortaCath) - [**2165-3-22**] 05:25 PM
   Midline - [**2165-3-22**] 09:00 PM
   Prophylaxis:
   DVT: pneumoboots, heparin gtt
   Stress ulcer: lansoprazole
   VAP:  Vent precautions (VAP bundle)
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2165-03-23 09:46:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Reviewed
   24 Hour Events:
 ULTRASOUND - At [**2165-3-22**] 04:41 PM
   LENIS at bedside.
 INDWELLING PORT (PORTACATH) - START [**2165-3-22**] 05:25 PM
 TUNNELED (HICKMAN) LINE - STOP [**2165-3-22**] 08:00 PM
 FLUOROSCOPY - At [**2165-3-22**] 08:00 PM
   pt went to IR for a midline placement under fluoroscopy
 MIDLINE - START [**2165-3-22**] 09:00 PM
 EKG - At [**2165-3-22**] 09:30 PM
 FEVER - 101.5
F - [**2165-3-23**] 04:00 AM
   24 hr - CT sinuses, fever workup, LENIs limited but negative.
   Increasingly tachycardic and hypoxic, started on IV heparin. This AM, T
   101.5. Tachy treated with Metoprolol.
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Micafungin - [**2165-3-22**] 03:06 PM
   Meropenem - [**2165-3-23**] 08:06 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Heparin Sodium - 1,150 units/hour
   Midazolam (Versed) - 2 mg/hour
   Other ICU medications:
   Metoprolol - [**2165-3-23**] 08:52 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-23**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.6
C (101.5
   Tcurrent: 37.8
C (100
   HR: 142 (100 - 152) bpm
   BP: 108/48(68) {106/48(67) - 175/80(106)} mmHg
   RR: 13 (10 - 33) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 145 kg (admission): 132.3 kg
   Height: 72 Inch
             Total In:
                                                                  2,421 mL
                                                                    691 mL
   PO:
             TF:
                                                                     77 mL
   IVF:
                                                                  2,114 mL
                                                                    411 mL
   Blood products:
   Total out:
                                                                  6,327 mL
                                                                    100 mL
   Urine:
                                                                    240 mL
                                                                    100 mL
   NG:
                                                                     30 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,906 mL
                                                                    591 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 995 (995 - 1,044) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.31/41/115/19/-5
   Ve: 10 L/min
   PaO2 / FiO2: 230
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), Tachy
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : rare both bases, No(t)
   Wheezes : )
   Abdominal: Soft, Non-tender
   Extremities: Right: 1+, Left: 1+, LE>UE
   Skin:  Warm, No(t) Rash:
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   8.4 g/dL
   105 K/uL
   99 mg/dL
   8.8 mg/dL
   19 mEq/L
   5.4 mEq/L
   86 mg/dL
   98 mEq/L
   132 mEq/L
   24.4 %
   10.4 K/uL
        [image002.jpg]
                             [**2165-3-22**]  08:45 AM
                             [**2165-3-22**]  09:06 AM
                             [**2165-3-22**]  12:23 PM
                             [**2165-3-22**]  03:19 PM
                             [**2165-3-22**]  03:43 PM
                             [**2165-3-22**]  09:54 PM
                             [**2165-3-22**]  10:07 PM
                             [**2165-3-23**]  12:52 AM
                             [**2165-3-23**]  05:51 AM
                             [**2165-3-23**]  06:04 AM
   WBC
   11.2
   11.6
   10.4
   Hct
   22.4
   24.5
   24.4
   Plt
   86
   92
   105
   Cr
   7.0
   7.7
   8.8
   TCO2
   22
   22
   22
   21
   22
   Glucose
   121
   124
   101
   103
   99
   Other labs: PT / PTT / INR:15.4/138.0/1.4, ALT / AST:13/61, Alk Phos /
   T Bili:86/0.5, Differential-Neuts:85.0 %, Band:1.0 %, Lymph:2.0 %,
   Mono:6.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, LDH:768 IU/L, Ca++:9.0
   mg/dL, Mg++:2.3 mg/dL, PO4:8.8 mg/dL
   Microbiology: sputum - no new growth
   Catheter tip - pending
   C diff negative
   Blood cultures - surveillance cx negative since E coli grew
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 H/O DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   61 yo male s/p BMT for multiple myeloma now with progressive
   respiratory failure and renal failure now on CVVH for volume removal in
   the setting of persistent anuria.  He has had continued good tolerance
   of PSV wean and with improved blood pressure stability noted have had
   favorable RSBI this morning.  BP control has actually required IV
   medications for stbilization.  However, patient does have persistent
   fevers noted.  We have been considering possible sources for the low
   grade fevers with typical ICU infections such as sinusitis being
   considered and with possible seeding of catheters being raised as
   possibliity with surveillance blood cultures now negative.
   1) Acute Respiratory Failure-with acute hypoxia in the setting of afib
   with RVR last night
   -unclear etiology, at risk of PE, was febrile ?transient bacteremia
   post Hickman removal
   -Versed/Fentanyl low dose
   -PSV well tolerated
will continue to support through continued volume
   removal
   -Trial decrease PEEP again today, SBT but will not extubate given
   procedures and overnight events
   -on IV heparin empirically
   - check PE to r/a RV, signs of PE, etc.
   2)Acute Renal Failure-
   -Continue CVVH for volume removal today
   -renal team consider moving to intermittent HD going forward.
   3)Sepsis
patient with ESBL e coli bacteremia and started on Meropenem
   after desensitization with blood cultures free of organisms.  He,
   however, has had ongoing fevers without etiology identified
   -Micafungin/Meropenem
   -Will need to re-image for Sinus infection
   -Removing Port to be discussed with ID
   -Will f/u on all cultures, check diff for eos (?drug fever), CT
   chest/abd today
   4)Multiple Myeloma-
   -Continue per BMT support in post BMT Rx
   5) Afib - agree with amio IV load
   6) Access - double lumen midline + port (which may need to be removed)
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2165-3-18**] 02:03 AM
   Dialysis Catheter - [**2165-3-21**] 04:38 PM
   Indwelling Port (PortaCath) - [**2165-3-22**] 05:25 PM
   Midline - [**2165-3-22**] 09:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: ICU consent signed Comments:  wife [**Name (NI) 1118**] is updated
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2165-03-24 11:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 FEVER - 101.4
F - [**2165-3-23**] 07:00 AM
   Afib with RVR following CT
   On Amio drip
   On CVVH
   CT chest yesterday
   Tube feeds held for high residuals
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Micafungin - [**2165-3-22**] 03:06 PM
   Meropenem - [**2165-3-24**] 07:42 AM
   Vancomycin - [**2165-3-24**] 10:22 AM
   Infusions:
   Midazolam (Versed) - 1 mg/hour
   Heparin Sodium - 650 units/hour
   Amiodarone - 0.5 mg/min
   Fentanyl - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-24**] 11:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.3
   Tcurrent: 36
C (96.8
   HR: 115 (99 - 124) bpm
   BP: 87/51(63) {87/47(63) - 121/72(87)} mmHg
   RR: 12 (8 - 21) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 145 kg (admission): 132.3 kg
   Height: 72 Inch
             Total In:
                                                                  2,591 mL
                                                                  2,112 mL
   PO:
             TF:
                                                                     42 mL
   IVF:
                                                                  2,130 mL
                                                                  2,112 mL
   Blood products:
   Total out:
                                                                  2,066 mL
                                                                  1,813 mL
   Urine:
                                                                    140 mL
                                                                     61 mL
   NG:
                                                                    350 mL
                                                                  1,280 mL
   Stool:
   Drains:
   Balance:
                                                                    525 mL
                                                                    299 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/45/115/22/-1
   Ve: 9 L/min
   PaO2 / FiO2: 287
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal), Irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Crackles : , No(t) Wheezes :
   ), Coarse sounds bilat
   Abdominal: Soft, Non-tender, Hypoactive BS
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm, Right sided portacath
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   7.7 g/dL
   108 K/uL
   96 mg/dL
   6.3 mg/dL
   22 mEq/L
   4.6 mEq/L
   69 mg/dL
   100 mEq/L
   132 mEq/L
   22.5 %
   5.1 K/uL
        [image002.jpg]
                             [**2165-3-23**]  12:05 PM
                             [**2165-3-23**]  12:15 PM
                             [**2165-3-23**]  12:39 PM
                             [**2165-3-23**]  05:08 PM
                             [**2165-3-23**]  05:40 PM
                             [**2165-3-23**]  11:19 PM
                             [**2165-3-23**]  11:32 PM
                             [**2165-3-24**]  05:00 AM
                             [**2165-3-24**]  05:37 AM
                             [**2165-3-24**]  11:09 AM
   WBC
   5.1
   Hct
   22.5
   Plt
   108
   Cr
   8.2
   6.3
   TCO2
   24
   22
   21
   23
   25
   25
   Glucose
   116
   136
   122
   96
   Other labs: PT / PTT / INR:14.1/67.8/1.2, ALT / AST:11/35, Alk Phos / T
   Bili:76/0.5, Differential-Neuts:81.0 %, Band:6.0 %, Lymph:2.0 %,
   Mono:7.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL,
   LDH:551 IU/L, Ca++:8.3 mg/dL, Mg++:2.1 mg/dL, PO4:6.3 mg/dL
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 .H/O DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   61 yo male s/p BMT for multiple myeloma now with progressive
   respiratory failure and renal failure now on CVVH for volume removal in
   the setting of persistent anuria.  He has had continued good tolerance
   of PSV wean and with improved blood pressure stability. We have been
   considering possible sources for the low grade fevers with typical ICU
   infections such as sinusitis being considered and with possible seeding
   of catheters being raised as possibliity with surveillance blood
   cultures all negative.
   1) Acute Respiratory Failure-with acute hypoxia in the setting of afib
   with RVR
   -unclear etiology, at risk of PE, was febrile ?transient bacteremia
   post Hickman removal
   -Versed/Fentanyl low dose but would decrease sedation further
   -PSV well tolerated
will continue to support through continued volume
   removal and wean today with SBT.
   -Trial decrease PEEP again today to 5, SBT
   - on IV heparin empirically
   - check PE to r/a RV, signs of PE, etc.
   2)Acute Renal Failure-
   -Continue CVVH for volume removal today
   -renal team consider moving to intermittent HD going forward.
   3)Sepsis/hypotension
patient with ESBL e coli bacteremia and started on
   Meropenem after desensitization with blood cultures free of organisms.
   He, however, has had ongoing low grade fevers without etiology
   identified. ? drug fever vs occult infection ? sinusitis
   -Micafungin/Meropenem/Vanc
   -Removing Port to be discussed with ID
   -Will f/u on all cultures, check diff for eos (?drug fever), CT
   chest/abd today
   -cortisol on [**3-11**] was 0.4. Will repeat today and likely add stress dose
   steroids. Consider severe adrenal insufficiency
   4)Multiple Myeloma-
   -Continue per BMT support in post BMT Rx
   5) Afib - now on IV amio load
   6) Access - double lumen midline + port (which may need to be removed)
   ICU Care
   Nutrition: tube feeds (on hold)
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2165-3-18**] 02:03 AM
   Dialysis Catheter - [**2165-3-21**] 04:38 PM
   Indwelling Port (PortaCath) - [**2165-3-22**] 05:25 PM
   Midline - [**2165-3-22**] 09:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2165-03-25 11:51:00 Physician Attending Progress Note
Chief Complaint: resp failure, ards, ARF, afib with rvr
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: 61 yo M s/p BMT for multiple myeloma c/b esbl e coli bacteremia
   with progressive respiratory failure/ards in setting of parainfluenza
   (pna) and presumed pe and acute renal failure now on CVVH for volume
   removal
     Course now further complicated by persistent low grade fevers,
   development of afib with rvr on multiple agents for rate control
   24 Hour Events:
 ULTRASOUND - At [**2165-3-24**] 05:49 PM
   LENIs--neg for clot (limited study)
   dig started--for rate control, remains on amio and metoprolol
   remains on cvvh
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Micafungin - [**2165-3-22**] 03:06 PM
   Vancomycin - [**2165-3-24**] 10:22 AM
   Meropenem - [**2165-3-25**] 08:15 AM
   Infusions:
   Fentanyl - 100 mcg/hour
   Midazolam (Versed) - 2 mg/hour
   Amiodarone - 0.5 mg/min
   Heparin Sodium - 1,150 units/hour
   Other ICU medications:
   Metoprolol - [**2165-3-24**] 10:29 PM
   Other medications: per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-25**] 11:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 36.6
C (97.8
   HR: 125 (111 - 137) bpm
   BP: 139/67(86) {85/40(60) - 197/102(129)} mmHg
   RR: 11 (10 - 26) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 145 kg (admission): 132.3 kg
   Height: 72 Inch
             Total In:
                                                                  4,128 mL
                                                                  1,803 mL
   PO:
             TF:
   IVF:
                                                                  4,028 mL
                                                                  1,683 mL
   Blood products:
   Total out:
                                                                  5,113 mL
                                                                  2,505 mL
   Urine:
                                                                    159 mL
                                                                     55 mL
   NG:
                                                                  1,530 mL
                                                                     40 mL
   Stool:
   Drains:
   Balance:
                                                                   -985 mL
                                                                   -702 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 508 (480 - 508) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 11
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Hemodynamic Instability
   PIP: 11 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.41/38/110/22/0
   Ve: 11.1 L/min
   PaO2 / FiO2: 275
   Physical Examination
   General Appearance: Overweight / Obese
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube, thick neck
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic),
   irreg irreg
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   )
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present, diminished BS
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: No(t) Attentive, Follows simple commands, Responds to:
   Verbal stimuli, Movement: Not assessed, Sedated,
   Labs / Radiology
   8.6 g/dL
   166 K/uL
   99 mg/dL
   4.4 mg/dL
   22 mEq/L
   4.5 mEq/L
   46 mg/dL
   99 mEq/L
   134 mEq/L
   24.6 %
   8.7 K/uL
        [image002.jpg]
                             [**2165-3-24**]  05:00 AM
                             [**2165-3-24**]  05:37 AM
                             [**2165-3-24**]  10:38 AM
                             [**2165-3-24**]  11:09 AM
                             [**2165-3-24**]  04:28 PM
                             [**2165-3-24**]  05:05 PM
                             [**2165-3-25**]  12:44 AM
                             [**2165-3-25**]  01:04 AM
                             [**2165-3-25**]  06:00 AM
                             [**2165-3-25**]  06:17 AM
   WBC
   5.1
   8.7
   Hct
   22.5
   24.6
   Plt
   108
   166
   Cr
   6.3
   4.4
   TCO2
   25
   25
   25
   25
   25
   Glucose
   96
   111
   89
   104
   99
   Other labs: PT / PTT / INR:14.5/75.0/1.3, ALT / AST:11/35, Alk Phos / T
   Bili:76/0.5, Differential-Neuts:81.0 %, Band:6.0 %, Lymph:2.0 %,
   Mono:7.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL,
   LDH:551 IU/L, Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:4.1 mg/dL
   Imaging: b/l interstitial inf stable, port, et ok
   Microbiology: c diff--neg
   cmv pending
   parainfluenza
   esbl urine, bacteremia, neg blood cx survel
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 .H/O DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   61 yo M s/p BMT for multiple myeloma c/b esbl e coli bacteremia with
   progressive respiratory failure/ards in setting of parainfluenza (pna)
   and presumed pe, acute renal failure now on CVVH for volume removal.
   Course further complicated by persistent low grade fevers, development
   of afib with rvr .
    # Acute Respiratory Failure
    # ARDS
   #parainfluenza pna
   Resp status is further complicated by volume overload/anasarca
   With further worsening/acute hypoxia in the setting of afib with RVR
   ? PE remains on ddx though limited in ability to assess given renal
   failure
   --attempt fluid removal with cvvh as BP allows to better optimize for
   future wean
   --continue broad antibx and antifungal treatments
   --continue vent support
on ACV--would trial PS again once heart rate is
   under better control as stress from PSW seemed to worsen
   tachycardia/rvr
   --continue IV heparin empirically as unable to definitively r/o PE, pt
   with multiple rfs and relatively high clinical suspicion, f/u tte
   # ARF
   -Continue CVVH for volume removal today
   --Afib and rvr will limit transition to HD
   # Sepsis/hypotension
   Has had ESBL e coli bacteremia--on Meropenem after desensitization with
   blood cultures free of organisms.
   Continued low grade fevers without additional etiology identified
   despite broad coverage. Now with temps masked by cvvh.
       ? drug fever vs occult ICU infection such as sinusitis vs possible
   seeding of catheters
   --continue Micafungin/Meropenem/Vanc
   --would pursue removal of port (discuss with BMT and surgery)
   --f/u cultures, check diff for eos (?drug fever)
   --adrrenal insuff may be further contributing given very low random
   cortisol [**3-11**]
   # Afib - making slow progress with rate control
   on metoprolol 50 TID, amio, and dig
   ---poor gi absorption may be hindering effect of metoprolol PO
         change to IV QID metoprolol
         if no improvement would start  drip dilt or esmolol andconsider
   reload with amio
   --repeat TTE
   --follow dig level
   # Multiple Myeloma-
   -Continue per BMT support in post BMT Rx
   # Access
 would pursue removal of port (d/w surgery)
   will need additional picc or CVL for access/feeding as would also move
   forward with starting  tpn
   #ileus
   High residuals making tfs difficult, nutritional status very poor
   Will start TPN pending new line with dedicated port
   ICU Care
   Nutrition:
   Comments: high residuals remain a problem, consider TPN or PPN
   Glycemic Control:  Regular insulin sliding scale, Comments:
   lantus--will half dose and decrease ssi given hypoglycemia
   Lines:
   Arterial Line - [**2165-3-18**] 02:03 AM
   Dialysis Catheter - [**2165-3-21**] 04:38 PM
   Indwelling Port (PortaCath) - [**2165-3-22**] 05:25 PM
   Midline - [**2165-3-22**] 09:00 PM
   Prophylaxis:
   DVT: hep gtt
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU, critically ill
   Total time spent: 60

2165-03-26 07:21:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2165-3-25**] 02:30 PM
 INDWELLING PORT (PORTACATH) - STOP [**2165-3-25**] 08:00 PM
 MULTI LUMEN - START [**2165-3-25**] 08:00 PM
   -TTE showed RV dilated and hypokinetic, concerning for PE
   -went to OR for R port removal and placement of L subclavian
   -heparin gtt stopped for 6 hours pre- and post-procedure
   -changed to IV metoprolol and titrated up for RVR
   -discussed digoxin dosing with renal, now written as standing and will
   get level in AM
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2165-3-24**] 10:22 AM
   Micafungin - [**2165-3-25**] 04:14 PM
   Meropenem - [**2165-3-25**] 08:30 PM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Fentanyl - 125 mcg/hour
   Heparin Sodium - 2,000 units/hour
   Other ICU medications:
   Heparin Sodium - [**2165-3-26**] 02:00 AM
   Metoprolol - [**2165-3-26**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-26**] 07:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.7
C (96.2
   HR: 107 (103 - 125) bpm
   BP: 116/58(75) {103/47(65) - 197/102(129)} mmHg
   RR: 13 (9 - 21) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 133.1 kg (admission): 132.3 kg
   Height: 72 Inch
             Total In:
                                                                  3,346 mL
                                                                    556 mL
   PO:
             TF:
   IVF:
                                                                  3,066 mL
                                                                    556 mL
   Blood products:
   Total out:
                                                                  6,061 mL
                                                                  1,448 mL
   Urine:
                                                                    135 mL
                                                                     50 mL
   NG:
                                                                    890 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,715 mL
                                                                   -891 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 7
   PIP: 11 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.39/43/124/23/1
   Ve: 8 L/min
   PaO2 / FiO2: 310
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   191 K/uL
   9.5 g/dL
   100 mg/dL
   3.5 mg/dL
   23 mEq/L
   4.7 mEq/L
   41 mg/dL
   98 mEq/L
   132 mEq/L
   27.2 %
   9.0 K/uL
        [image002.jpg]
                             [**2165-3-24**]  04:28 PM
                             [**2165-3-24**]  05:05 PM
                             [**2165-3-25**]  12:44 AM
                             [**2165-3-25**]  01:04 AM
                             [**2165-3-25**]  06:00 AM
                             [**2165-3-25**]  06:17 AM
                             [**2165-3-25**]  12:30 PM
                             [**2165-3-25**]  12:55 PM
                             [**2165-3-26**]  02:07 AM
                             [**2165-3-26**]  02:12 AM
   WBC
   8.7
   9.0
   Hct
   24.6
   27.2
   Plt
   166
   191
   Cr
   4.4
   3.5
   TCO2
   25
   25
   25
   26
   27
   Glucose
   89
   104
   99
   128
   100
   Other labs: PT / PTT / INR:14.5/34.0/1.3, ALT / AST:10/38, Alk Phos / T
   Bili:86/0.6, Differential-Neuts:81.0 %, Band:6.0 %, Lymph:2.0 %,
   Mono:7.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL,
   LDH:528 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Imaging: [**3-25**] CXR: Right sided PICC line terminating in mid axilla.
   Left sided subclavian line with tip terminating in probable superior
   SVC. No change in multifocal airspace opacities.
   [**3-25**] TTE:
   The left atrium is normal in size. The left ventricle is not well seen.
   There is moderate symmetric left ventricular hypertrophy. LV systolic
   function appears depressed. The right ventricular cavity is dilated
   with depressed free wall contractility. The aortic root is moderately
   dilated at the sinus level. The number of aortic valve leaflets cannot
   be determined. There is no aortic valve stenosis. No aortic
   regurgitation is seen. The pulmonary artery systolic pressure could not
   be determined. There is an anterior space which most likely represents
   a fat pad.
   IMPRESSION: poor technical quality due to patient's body habitus. Left
   ventricular function is depressedl, focal wall motion cannot be fully
   assessed. The right ventricle is not well seen but is dilated and
   hypokinetic. The apical RV may have slightly better function. This
   finding could be consistent with a pulmonary embolus. No pathologic
   valvular abnormality seen. Pulmonary artery systolic pressure could not
   be determined.
   Compared with the prior study (images reviewed) of [**2165-2-7**], image
   quallity is substantially worse. The right and left ventricles appear
   dilated and hypokinetic on the current exam
   MICRO:
   Cmv viral load pending
   Hickman culture negative
   Port-a-cath culture pending
   [**3-19**] BCX negative, [**Date range (1) 7512**] pending
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 .H/O DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   61 yo man s/p alogeneic SCT for multiple myeloma transferred to the
   [**Hospital Unit Name 1**] for evaluation of altered mental status, hypoxia, and meropenem
   desensitization for ESBL E. coli bacteremia. Also with parainfuenza
   PNA; and new AFIB; concern for PE given new RV dilation
   # Respiratory failure: Quickly evolving bilateral patchy infiltrates
   consistent with ARDS given P:F <200 in setting of sepsis and known
   parainfluenza type 3 pneumonia. Negative for PCP. [**Name10 (NameIs) 7453**] also includes
   volume overload from renal failure and now question of pulmonary
   embolism. Post-transplant reaction and engraftment syndrome less
   likely.  Concern for PE with increased tachycardia, acute desaturation,
   and new RV dilation.
   -Cont to mechanically vent; will not wean as FIO2=40% and PEEP=5, still
   tachycardic
   -Continue meropenem, vancomycin, and micafungin
   -Avoiding steroids given parainfluenza
   -Cont heparin gtt with goal PTT 60-80 for empiric tx of PE
   -Improvement in respiratory status will largely depend on improved
   renal function. HD deferred in favor of CVVH given lower running BP.
   Will ultrafiltrate as BP tolerates
   -Continue empiric heparin gtt. Unable to do CTA given ARF. V/Q scan may
   not be informative given underlying pulm dz. TTE demonstrating R heart
   strain suggestive of PE. Consider lytics for acute decline
   .
   # Recurent Fevers: PE (negative LENIs) versus drug-related (?meropenem
   despite desensitization) versus line infection versus sinusitis versus
   abdominal abscess. No peripheral or urinary Eos. Sinusitis may be
   related to fever, but in current setting is less likely to be
   contributing as would expect so see some sinus thickening.
   -Fever curve less sensitive now on CVVH
   -Appreciate ID recs
   -Cx data negative to date.
   -Continue current abx
   -Await cx data from pulled line. *Pulling portacath and placing CVL in
   OR
   .
   # E. coli Bacteremia and UTI: ESBL E. coli UTI on [**2165-2-26**] with
   subsequent clearance s/p aztreonam but [**3-15**] and [**3-16**] cx with ESBL
   bacteremia. Had been on aztreonam and gentamicin, now switched to
   meropenem per ID recs s/p successful desensitization given h/o
   anaphylaxis on penicillins.
   -continue meropenem
   -pulling line as above
   -CIS, f/u blood cultures
 Cx negative since [**3-16**].
   -f/u  ID recs
   .
   # Afib with RVR:
   [**Month/Day (2) 7453**]: Increased adrenergic surge [**12-17**] acute insult in setting of good
   substrate (known mild LA enlargement) v. PE
   -Low-running BP limits ability to use of dilt; Started on Amiodarone
   gtt with mild improvement initially but still tachy into the 120-130s.
   Amio discontinued on [**3-25**] as had little effect and lopressor switched
   to IV over concerns for absorption
   -if no improvement would start  drip dilt or esmolol and consider
   reload with amio
   -Decrease adrenergic stimuli w/ Tylenol prn for fever, cont treating
   infection, keep adequately sedated (but not oversedated as BP running
   low).
   # ARF: Oliguric renal failure. Likely multifactorial given hypotension
   in setting of intubation w/ increased lactate, volume depletion
   (?insensible losses), supratherapeutic cyclosporin levels, gentamicin,
   recent contrast load, and acyclovir. Urine sediment [**3-18**] with numerous
   crystals, believe acyclovir- thus acyclovir-related ARF is at the top
   of the differential.
   -continue CVVH per renal team
   -dose all meds for GFR aprox 30 now that on CVVH.
   -continue to hold acyclovir
   # Altered Mental Status: Currently unable to assess [**12-17**] sedation.
   Likely [**12-17**] infection.
   -continue treatment for ESBL E. coli bacteremia with meropenem
   -CSF studies negative to date. Continue to follow up other culture
   data.
   -appreciate psychiatry recs
   # Anemia: Hematocrit stable. Hct improvement likely from CCH fluid
   shifts
   -trend CBC
   -guiaic all stools
   -transfuse for <21
   # Myeloma: Patient is s/p of SCT for multiple myeloma.
   -Dose cyclosporine per level; goal around 200.
   -f/u BMT recs
   -holding acyclovir d/t probable acyclovir-related acute renal failure
   -nystatin for thrush prophylaxis
   -continue ursodiol per BMT protocol
   -continue immunosuppression with mycophenolate mofetil;
   -avoiding steroids if possible d/t viral pneumonia
   # Hyponatremia: Most likely related to SIADH, secondary to pain and/or
   pneumonia. Currently improving.
   -continue to monitor daily sodium
   -continue free water restriction
   -CVVH as above
   # ileus: High residuals making tfs difficult, nutritional status very
   poor
   -Will start TPN pending new line with dedicated port
   # Type 2 Diabetes Mellitus: Difficult to control blood glucose in the
   setting of infection, underlying diabetes mellitus, and steroids.
   -appreciate [**Last Name (un) 303**] input
   -continue humalog sliding scale with Lantus, followed FSG and adjust
   per TPN status
   # Labile BP: Patient has a history of hypertension in the past
   requiring metoprolol 50 [**Hospital1 **] and amlodipine 2.5 qday. Here had required
   addition of nitro gtt transiently but currently normotensive
   -Hold amlodipine
   -CVVH as above; will avoid large fluid shifts
   # Depression: Patient has a history of major depression with
   significant medication requirements.
   -appreciate psychiatry input
   -holding duloxetine for now
   # Glaucoma
   -continue timolol eye drops
   # Hyperlipidemia
   -holding atorvastatin in acute setting
   # Peripheral Neuropathy and Pain
   -stopped neurontin per renal recs
   # GERD
   -continue lansoprazole
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-3-18**] 02:03 AM
   Dialysis Catheter - [**2165-3-21**] 04:38 PM
   Midline - [**2165-3-22**] 09:00 PM
   Multi Lumen - [**2165-3-25**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-03-26 13:03:00 Physician Attending Progress Note
Chief Complaint: resp failure, parainfluenza pna, presumed  pe, afib,
   arf
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   61 yo M s/p BMT for multiple myeloma c/b esbl e coli bacteremia with
   progressive respiratory failure/ards in setting of parainfluenza (pna)
   and presumed pe, acute renal failure now on CVVH for volume removal.
   Course further complicated by persistent low grade fevers, development
   of afib with rvr .
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2165-3-25**] 02:30 PM
 INDWELLING PORT (PORTACATH) - STOP [**2165-3-25**] 08:00 PM
 MULTI LUMEN - START [**2165-3-25**] 08:00 PM (placed in OR)
   TTE yesterday with RA dil, LV dil
   amio d/c'd yesterday
   metoprolol titrated
   History obtained from Medical records, ho
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Micafungin - [**2165-3-25**] 04:14 PM
   Meropenem - [**2165-3-26**] 07:30 AM
   Vancomycin - [**2165-3-26**] 10:00 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Heparin Sodium - 1,500 units/hour
   Fentanyl - 125 mcg/hour
   Other ICU medications:
   Heparin Sodium - [**2165-3-26**] 02:00 AM
   Metoprolol - [**2165-3-26**] 06:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-26**] 01:03 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36.1
C (96.9
   HR: 121 (101 - 121) bpm
   BP: 124/71(86) {103/47(65) - 172/96(119)} mmHg
   RR: 22 (9 - 23) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 133.1 kg (admission): 132.3 kg
   Height: 72 Inch
   CVP: 8 (7 - 10)mmHg
   Total In:
                                                                  3,346 mL
                                                                  1,827 mL
   PO:
   TF:
   IVF:
                                                                  3,066 mL
                                                                  1,787 mL
   Blood products:
   Total out:
                                                                  6,061 mL
                                                                  3,465 mL
   Urine:
                                                                    135 mL
                                                                     83 mL
   NG:
                                                                    890 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,715 mL
                                                                 -1,638 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 572 (572 - 1,330) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 7
   PIP: 17 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 100%
   ABG: 7.37/45/141/21/0
   Ve: 12 L/min
   PaO2 / FiO2: 353
   Physical Examination
   General Appearance: Overweight / Obese, anasarca
   Head, Ears, Nose, Throat: Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), irreg
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: bases)
   Extremities: Right: 1+, Left: 2+
   Skin:  Not assessed, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.5 g/dL
   191 K/uL
   62 mg/dL
   3.5 mg/dL
   21 mEq/L
   4.2 mEq/L
   41 mg/dL
   97 mEq/L
   132 mEq/L
   27.2 %
   9.0 K/uL
        [image002.jpg]
                             [**2165-3-25**]  12:44 AM
                             [**2165-3-25**]  01:04 AM
                             [**2165-3-25**]  06:00 AM
                             [**2165-3-25**]  06:17 AM
                             [**2165-3-25**]  12:30 PM
                             [**2165-3-25**]  12:55 PM
                             [**2165-3-26**]  02:07 AM
                             [**2165-3-26**]  02:12 AM
                             [**2165-3-26**]  07:55 AM
                             [**2165-3-26**]  08:16 AM
   WBC
   8.7
   9.0
   Hct
   24.6
   27.2
   Plt
   166
   191
   Cr
   4.4
   3.5
   TCO2
   25
   25
   26
   27
   27
   Glucose
   104
   99
   128
   100
   62
   Other labs: PT / PTT / INR:14.5/150.0/1.3, ALT / AST:10/38, Alk Phos /
   T Bili:86/0.6, Differential-Neuts:81.0 %, Band:6.0 %, Lymph:2.0 %,
   Mono:7.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL,
   LDH:528 IU/L, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Imaging: cxr l sc line and et ok, improved aeration b/l with edema/asd
   Microbiology: cmv load pending
   porta cath tip pending
   Assessment and Plan
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 .H/O DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   61 yo M s/p BMT for multiple myeloma c/b esbl e coli bacteremia with
   progressive respiratory failure/ards in setting of parainfluenza (pna)
   and presumed pe, acute renal failure on CVVH for volume removal. Course
   further complicated by persistent low grade fevers, development of afib
   with rvr.
   # Acute Respiratory Failure
   # ARDS
   # parainfluenza pna
   #presumed PE
   Resp status is slowly improving.
   --continue broad antibx and antifungal treatments
   --move toward PS weans
   --Ability to extubate is further complicated by volume
   overload/anasarca----attempt fluid removal with cvvh as BP allows to
   better optimize for future wean
   --continue IV heparin empirically as unable to definitively r/o PE, pt
   with multiple rfs and relatively high clinical suspicion, and tte
   highly suggestive
   # ARF
   -Continue CVVH for volume removal
   --will likely transition to HD in near future and liekly will require
   dialysis for some time--will pursure tunnel line
   # Sepsis--now improved off pressors
   Has had ESBL e coli bacteremia--on Meropenem after desensitization with
   blood cultures free of organisms.
   Continued low grade fevers without additional etiology identified
   despite broad coverage. Now with temps masked by cvvh.
       ? drug fever vs occult ICU infection such as sinusitis vs possible
   seeding of catheters
   --continue Micafungin/Meropenem/Vanc
   --f/u cultures
   # Afib - making slow progress with rate control
   --on metoprolol IV and dig,
   ---poor gi absorption may be hindering effect of metoprolol PO
         change to IV QID metoprolol
         if worsenign RVR in setting of wean  will start drip dilt or
   esmolol andconsider  reload with amio
   --follow dig level
   # Multiple Myeloma-
   -Continue per BMT support in post BMT Rx, monitoring of cyclo levels
   daily
   #ileus
   High residuals making tfs difficult, nutritional status very poor
   Start TPN pending new line with dedicated port
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2165-3-18**] 02:03 AM
   Dialysis Catheter - [**2165-3-21**] 04:38 PM
   Midline - [**2165-3-22**] 09:00 PM
   Multi Lumen - [**2165-3-25**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2165-03-27 12:40:00 Physician Attending Progress Note
Chief Complaint: resp failure, arf, parainf, pe
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   titrating lopressor with minimal rate improvement
   failure ps trial this am
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2165-3-26**] 10:00 AM
   Micafungin - [**2165-3-26**] 04:07 PM
   Meropenem - [**2165-3-27**] 07:55 AM
   Infusions:
   Midazolam (Versed) - 3 mg/hour
   Heparin Sodium - 1,250 units/hour
   Fentanyl - 150 mcg/hour
   Other ICU medications:
   Midazolam (Versed) - [**2165-3-26**] 03:00 PM
   Metoprolol - [**2165-3-27**] 03:34 AM
   Fentanyl - [**2165-3-27**] 06:00 AM
   Other medications:
   per [**Month (only) **] (reviewed)
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-27**] 12:40 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.3
C (97.3
   HR: 120 (108 - 131) bpm
   BP: 108/61(74) {93/49(61) - 155/88(108)} mmHg
   RR: 15 (12 - 27) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 132.7 kg (admission): 132.3 kg
   Height: 72 Inch
   CVP: 330 (7 - 330)mmHg
   Total In:
                                                                  3,573 mL
                                                                  1,728 mL
   PO:
   TF:
   IVF:
                                                                  3,453 mL
                                                                  1,638 mL
   Blood products:
   Total out:
                                                                  6,092 mL
                                                                  3,911 mL
   Urine:
                                                                    124 mL
                                                                     14 mL
   NG:
                                                                    200 mL
                                                                  1,040 mL
   Stool:
   Drains:
   Balance:
                                                                 -2,519 mL
                                                                 -2,183 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 343 (343 - 343) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 8
   PIP: 21 cmH2O
   Plateau: 14 cmH2O
   SpO2: 100%
   ABG: 7.38/43/165/23/1
   Ve: 9.7 L/min
   PaO2 / FiO2: 412
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Diminished: b/l
   bases)
   Abdominal: Soft, No(t) Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.0 g/dL
   217 K/uL
   120 mg/dL
   2.3 mg/dL
   23 mEq/L
   4.2 mEq/L
   28 mg/dL
   96 mEq/L
   130 mEq/L
   29.2 %
   11.0 K/uL
        [image002.jpg]
                             [**2165-3-25**]  12:55 PM
                             [**2165-3-26**]  02:07 AM
                             [**2165-3-26**]  02:12 AM
                             [**2165-3-26**]  07:55 AM
                             [**2165-3-26**]  08:16 AM
                             [**2165-3-26**]  01:53 PM
                             [**2165-3-26**]  02:16 PM
                             [**2165-3-26**]  04:32 PM
                             [**2165-3-27**]  01:35 AM
                             [**2165-3-27**]  01:43 AM
   WBC
   9.0
   11.0
   Hct
   27.2
   29.2
   Plt
   191
   217
   Cr
   3.5
   2.8
   2.3
   TCO2
   26
   27
   27
   27
   27
   27
   Glucose
   100
   62
   95
   120
   Other labs: PT / PTT / INR:14.5/98.4/1.3, ALT / AST:10/38, Alk Phos / T
   Bili:86/0.6, Differential-Neuts:81.0 %, Band:6.0 %, Lymph:2.0 %,
   Mono:7.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL,
   LDH:528 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Imaging: cxr--unchanged b/l asd, need to confirm sc line position
   Microbiology: porta cath--cns
   bl all ngtd
   cmv viral laod pending
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 .H/O DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   61 yo M s/p BMT for multiple myeloma c/b esbl e coli bacteremia with
   progressive respiratory failure/ards in setting of parainfluenza (pna)
   and presumed pe, acute renal failure on CVVH for volume removal. Course
   further complicated by persistent low grade fevers, development of afib
   with rvr.  continue attempts at weaning
   # Acute Respiratory Failure
   # ARDS
   # parainfluenza pna
   # presumed PE
   --will continue broad antibx for now--at least to 14 days (currently
   day 10)
   --continue empiric and antifungal treatment
   --ability to extubate initially complicated by volume overload----but
   now with sig vol offf with cvvh. Has failed ps trial--likely related to
   oversedation given apnea.  Will reattempt psw wean with lightening
   sedation. Consider checking nifs if muscle weakness is of concern
   (?crit care myopathy), consider shorter acting sedation such as
   propofol to better assess ability to lighten sedation and wean.
   --continue IV heparin for presumed PE, pt with multiple rfs and
   relatively high clinical suspicion and tte highly suggestive
   # ARF
   -Continue CVVH as per renal.
   --renal will likely transition to HD in near future
   --anticipate prolonged need for dialysis--will pursue tunnel line
   placement
   # Sepsis--now improved hemodynamics remains off pressors
   now with porta cath tip + for CNS-
   treat X 1 additonal week with iv vanco following levels
   --continue Micafungin/Meropenem
   --f/u additional cultures data and repeat in setting of spike.
   # Afib - making little progress with rate control
   --on metoprolol IV and dig--limited in ability to give po meds given
   ileus and poor gi absoprtion--will increase dosing
   -- as making little progress will reload with amio
   --follow dig level
   # Multiple Myeloma-
   -Continue per BMT support in post BMT Rx, monitoring of cyclo levels
   daily
   #ileus
   High residuals making tfs difficult, nutritional status very poor
   Start TPN
   check KUB
    Remainder per housestaff PN
   ICU Care
   Nutrition:
   Comments: tpn
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2165-3-18**] 02:03 AM
   Dialysis Catheter - [**2165-3-21**] 04:38 PM
   Midline - [**2165-3-22**] 09:00 PM
   Multi Lumen - [**2165-3-25**] 08:00 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2165-03-30 07:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2165-3-29**] 02:10 PM
 DIALYSIS CATHETER - STOP [**2165-3-29**] 06:35 PM
   [**3-29**]
   - Tunnelled L IJ HD line placed, oozing from site requiring pressure
   - Placed back on AC with increase propofol as patient was coughing &
   occluding HD line.  Hep gtt stopped ~ 10pm due to oozing. Restart in AM
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2165-3-28**] 11:25 AM
   Micafungin - [**2165-3-29**] 04:00 PM
   Meropenem - [**2165-3-29**] 08:00 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2165-3-30**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-30**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.3
C (97.4
   HR: 88 (79 - 99) bpm
   BP: 127/57(74) {105/45(63) - 194/80(108)} mmHg
   RR: 21 (17 - 31) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 129.8 kg (admission): 132.3 kg
   Height: 72 Inch
    CVP: 5 (2 - 7)mmHg
   Total In:
                                                                  3,387 mL
                                                                  1,582 mL
   PO:
   TF:
   IVF:
                                                                  1,295 mL
                                                                    792 mL
   Blood products:
                                                                    350 mL
                                                                    280 mL
   Total out:
                                                                    378 mL
                                                                  1,609 mL
   Urine:
                                                                    378 mL
                                                                    134 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,009 mL
                                                                    -24 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (0 - 500) mL
   Vt (Spontaneous): 677 (482 - 677) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.43/33/111/21/0
   Ve: 17.3 L/min
   PaO2 / FiO2: 277
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   146 K/uL
   9.1 g/dL
   137 mg/dL
   3.3 mg/dL
   21 mEq/L
   3.4 mEq/L
   40 mg/dL
   102 mEq/L
   134 mEq/L
   26.1 %
   12.2 K/uL
        [image002.jpg]
                             [**2165-3-28**]  02:12 AM
                             [**2165-3-28**]  05:16 AM
                             [**2165-3-28**]  10:30 PM
                             [**2165-3-29**]  03:15 AM
                             [**2165-3-29**]  03:20 AM
                             [**2165-3-29**]  04:22 PM
                             [**2165-3-29**]  04:31 PM
                             [**2165-3-29**]  10:31 PM
                             [**2165-3-30**]  04:59 AM
                             [**2165-3-30**]  05:29 AM
   WBC
   10.9
   11.1
   12.2
   Hct
   26.7
   20.7
   22.0
   23.2
   26.1
   Plt
   258
   207
   146
   Cr
   1.8
   3.0
   4.2
   3.3
   TCO2
   27
   26
   23
   23
   Glucose
   123
   176
   171
   137
   Other labs: PT / PTT / INR:12.5/30.4/1.1, ALT / AST:[**8-3**], Alk Phos / T
   Bili:81/0.5, Differential-Neuts:81.0 %, Band:6.0 %, Lymph:2.0 %,
   Mono:7.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.4 g/dL,
   LDH:341 IU/L, Ca++:7.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Imaging: CXR:
   Microbiology: CMV viral load negative
   BCX: [**3-23**] NEGATIVE
   port-a-cath: coag negative staph
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 .H/O DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   61 yo man s/p alogeneic SCT (day 0= [**2165-3-8**]) for multiple myeloma with
   multifactorial respiratory failure, E. coli bacteremia and mental
   status changes.
   # Respiratory failure: Complex etiology including ARDS , parainfluenza
   type 3 pneumonia, possible altered mental status, possible PE.  Volume
   status no longer a factor.
   - Continue Hep Gtt as we cannot evaluate further for PE- hold for
   Femoral line removal, HD line placement
   - Continue Propofol sedation.
   # Sepsis/ E. coli Bacteremia and UTI: Currently on meropenem after
   densenitization.  The patient
s hemodynamics vary wildly as
   excacerbated by agitation, atrial fibrillation and underlying
   infection.  Cannot rely on his fever curve, but his WBC is stable.
   -Continue meropenem, vancomycin, and micafungin (d1= [**3-18**]) for at least
   2 week course to [**4-1**]
   -CIS, f/u blood / line cultures
 PORT Cx with gram + coag negatives,
   will continue vanco for 7 days post port removal (until [**4-2**])
   -f/u  ID recs
   # Afib with RVR: The patient is currently requiring Metoprolol 5mg IV
   q4 to control his heart rate.  Amiodarone can be used if he is unable
   to tolerate Metoprolol.
   # ARF: Oliguric renal failure. Multifactorial with Sepsis/hypotension
   and Acyclovir related.  Holding CVVH today pending renal recs.
   -continue to hold acyclovir
   - Switch to valgancyclovir per ID
   # Anemia: Hematocrit drop overnight possibly from fluid collection.  No
   evidence of bleed but low threshold for scan given his heparin gtt.
   -trend CBC
   -guiaic all stools
   -transfuse for <25
   - With Hct drop, CT scan for RP bleed or thigh hematoma
   # Myeloma: Patient is s/p of SCT for multiple myeloma.
   -Dose cyclosporine 25mg IV BID
   -f/u BMT recs
   -holding acyclovir d/t probable acyclovir-related acute renal failure
   -nystatin for thrush prophylaxis
   -continue ursodiol per BMT protocol
   -continue immunosuppression with mycophenolate mofetil
   -avoiding steroids if possible d/t viral pneumonia
   # ileus: Return of bowel sounds today, no stooling yet.
   -On TPN
   # Type 2 Diabetes Mellitus: Difficult to control blood glucose in the
   setting of infection, underlying diabetes mellitus, and steroids.
   -continue humalog sliding scale with Lantus, followed FSG and adjust
   per TPN status
   Improving overall with decreased FIO2 requirements and resolution of
   sepsis/stable hemodynamics off pressors.  Oxygenation has improved with
   volume removal. Primary barrier to extubation now is MS which is likely
   related to sedation.  No acute cns process on head CT. Is overbreathing
   vent while on ACV but has poorly tolerated PSW.  Continue to reattempt
   weans with lightening sedation. Will c/s pysch per BMT to inquire about
   discontinuation of prior PO psych meds contributing.  If little
   progress over next several days, would consider possibility of trach
   placement .  Remains on IV heparin for presumed PE.
   Suspect that decrease in hct may be related to volume shifts as trended
   down since CVVH on hold. Hct had bumped approp after transfusion on
   [**3-27**]. No evidence of active bleed but given heparin gtt RP bleed on
   ddx.   Follow serial h/h--if cont drop would check CT abd to r/o rp
   bleed and hold heparin.  Restart CVVH as per renal. To get tunnel line
   placement today.
   Continue Micafungin/Meropenem.  Vanco for CNS line infection. Now AF.
   Improved rate control on metoprolol IV and dig with improvement in
   labile BP. BMT recs in post BMT Rx, monitoring of cyclo levels daily
   and checking daily lfts.  Ileus
slowly improving since d/c narcotics as
   now with + BS and flatus.  Remains NPO on TPN--abd softer and now with
   BS.
   ICU Care
   Nutrition:
   TPN without Lipids - [**2165-3-29**] 07:21 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-3-18**] 02:03 AM
   Midline - [**2165-3-22**] 09:00 PM
   Multi Lumen - [**2165-3-25**] 08:00 PM
   Dialysis Catheter - [**2165-3-29**] 02:10 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-03-31 07:59:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2165-3-30**] 10:30 PM
   - not extubated because trying to remove volume first via CVVH
   - heparin still off because of oozing (to restart tomorrow)
   - LENI negative for DVT
   - considering echo to see if finding c/w PE are still present
   - BMT attending would like to see him extubated
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2165-3-30**] 09:34 AM
   Micafungin - [**2165-3-30**] 04:12 PM
   Meropenem - [**2165-3-30**] 09:00 PM
   Infusions:
   Cyclosporine
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2165-3-31**] 05:09 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-3-31**] 07:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.7
   Tcurrent: 37.3
C (99.2
   HR: 101 (77 - 116) bpm
   BP: 108/61(75) {90/51(63) - 355/350(351)} mmHg
   RR: 11 (0 - 29) insp/min
   SpO2: 1005%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 129.8 kg (admission): 132.3 kg
   Height: 72 Inch
    CVP: 6 (1 - 305)mmHg
   Total In:
                                                                  7,622 mL
                                                                  3,600 mL
   PO:
   TF:
   IVF:
                                                                  5,582 mL
                                                                  2,836 mL
   Blood products:
                                                                    280 mL
   Total out:
                                                                  7,704 mL
                                                                  4,692 mL
   Urine:
                                                                    373 mL
                                                                     89 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                    -82 mL
                                                                 -1,092 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 975 (559 - 1,118) mL
   PS : 15 cmH2O
   RR (Set): 14
   RR (Spontaneous): 18
   PEEP: 10 cmH2O
   FiO2: 40%
   PIP: 26 cmH2O
   SpO2: 1005%
   ABG: 7.45/36/163/23/2 at 0600
   Ve: 19.8 L/min
   PaO2 / FiO2: 408
   Physical Examination
   Gen: obese, intubated and sedated, not arousable to voice, grimacing to
   pain.
   NECK: Right sided wound from port cath removal. Unable to assess JVD
   [**12-17**] obese habitus.
   CV: Tachycardic, irregular. Normal S1/S2.
   LUNGS: Mildly coarse breath sounds
   ABD: obese, Soft, NT, ND.  No HSM. BS present and active
   EXT: 1+ pitting edema on dorsum of feet; upper extremities bilaterally
   edematous but non-pitting. Right-sided A-line in place
   Labs / Radiology
   106 K/uL
   9.0 g/dL
   146 mg/dL
   2.2 mg/dL
   23 mEq/L
   3.7 mEq/L
   26 mg/dL
   99 mEq/L
   133 mEq/L
   25.9 %
   10.0 K/uL
        [image002.jpg]
                             [**2165-3-29**]  10:31 PM
                             [**2165-3-30**]  04:59 AM
                             [**2165-3-30**]  05:29 AM
                             [**2165-3-30**]  11:28 AM
                             [**2165-3-30**]  11:50 AM
                             [**2165-3-30**]  04:48 PM
                             [**2165-3-31**]  12:07 AM
                             [**2165-3-31**]  12:20 AM
                             [**2165-3-31**]  05:54 AM
                             [**2165-3-31**]  06:20 AM
   WBC
   12.2
   10.0
   Hct
   26.1
   25.9
   Plt
   146
   106
   Cr
   4.2
   3.3
   2.4
   2.2
   TCO2
   23
   22
   23
   23
   26
   Glucose
   171
   137
   160
   192
   146
   Other labs: PT / PTT / INR:13.1/34.6/1.1, ALT / AST:[**7-3**], Alk Phos / T
   Bili:95/0.5, Differential-Neuts:81.0 %, Band:6.0 %, Lymph:2.0 %,
   Mono:7.0 %, Eos:0.0 %, Lactic Acid:0.9 mmol/L, Albumin:2.3 g/dL,
   LDH:347 IU/L, Ca++:7.4 mg/dL, Mg++:1.5 mg/dL, PO4:3.4 mg/dL
   [**3-30**]:  blood, urine, sputum cx NGTD
   LENI:  No DVT
   CXR [**3-30**]:
   Endotracheal tube is in standard position. Cardiac silhouette
   remains enlarged, and there is persistent vascular engorgement and
   perihilar
   haziness. Asymmetrical patchy opacities in the upper lungs are
   unchanged on
   the right but slightly worse on the left, could reflect asymmetrical
   pulmonary
   edema and/or infection.
   Assessment and Plan
 TACHYCARDIA, OTHER
 ATRIAL FIBRILLATION (AFIB)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 .H/O DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   61 yo man s/p alogeneic SCT (day 0= [**2165-3-8**]) for multiple myeloma with
   respiratory failure (ARDS, Paraflu, possible PE), E. coli bacteremia
   and mental status changes.
   # Respiratory failure: Complex etiology including ARDS , parainfluenza
   type 3 pneumonia, possible altered mental status, possible PE.  Volume
   overload is likely the biggest impediments to extubation currently.  He
   has been on empiric treatment for PE,  but heparin gtt has been off
   because of oozing from recent tunnelled catheter.  LENIs did not show
   DVT.
   - TTE tomorrow  to re-evaluate for RV strain to determine if long-term
   anticoagulation is necessary
   - restart heparin gtt at previous rate, no bolus
   - continue pressure support ventilation for now and wean as tolerated
   - continue to remove volume as tolerated (would like to remove 4-5L
   today)
   - attempt to extubate in the upcoming 1-2 days
   # Sepsis/ E. coli Bacteremia and UTI: Currently on meropenem after
   densenitization.  WBC count stable.  Can not trust absence of fevers
   given CVVH.  Port removed [**3-25**] growing coagulase negative staph.
   - Continue meropenem, vancomycin, and micafungin (d1= [**3-18**]) for at least
   2 week course to [**4-1**]
   - CIS
   - f/u blood / line cultures
   - continue vanco for 7 days post port removal (until [**4-2**])
   - f/u  ID recs
   - follow lactate
   # Afib with RVR:  On metoprolol and digoxin, with persistently elevated
   HR.  Possible contributions from ? intravascular volume depletion as
   well as pain/anxiety.
   - continue metoprolol at  current dose
   - increase digoxin to .125 mg/day (discussed with renal)
   - follow HR
   - treat pain
   # ARF: Urine output improving.  Cause is multifactorial with
   Sepsis/hypotension and Acyclovir related.
   - Continue CVVH
   - continue to hold acyclovir
   - Switched to valgancyclovir per ID
   # Anemia: Hematocrit dropped [**3-29**], received 2 units pRBC, has been
   stable 25-26 since then.  Likely [**12-17**] fluid shifts.  No evidence of
   bleed but low threshold for scan.
   - [**Hospital1 7**] Hct
   - guiaic all stools
   - transfuse for <25
   - If has another Hct drop, would consider CT scan for RP bleed or thigh
   hematoma
   # Myeloma: Patient is s/p  SCT for multiple myeloma.
   - Dose cyclosporine 25mg IV BID; clarify with BMT how often levels
   should be checked
   - f/u BMT recs
   - holding acyclovir d/t probable acyclovir-related acute renal failure
   - nystatin for thrush prophylaxis
   - continue ursodiol per BMT protocol
   - continue immunosuppression with mycophenolate mofetil
   - avoiding steroids if possible d/t viral pneumonia
   # ileus: Return of bowel sounds, with some stooling; perhaps improved
   b/c  fentanyl drip weaned
   -On TPN
   # Type 2 Diabetes Mellitus: Difficult to control blood glucose in the
   setting of infection
   -continue humalog sliding scale with Lantus, followed FSG and adjust
   per TPN status
   ICU Care
   Nutrition: TPN
   TPN without Lipids - [**2165-3-30**] 06:52 PM 62.5 mL/hour
   Glycemic Control:  Lantus and SS insulin
   Lines:
   Arterial Line - [**2165-3-18**] 02:03 AM
   Midline - [**2165-3-22**] 09:00 PM
   Multi Lumen - [**2165-3-25**] 08:00 PM
   Dialysis Catheter - [**2165-3-29**] 02:10 PM
   Prophylaxis:
   DVT: restart heparin gtt today
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2165-04-01 07:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - not extubated, still trying to take off fluid (-5.9 L today)
   - Increased propofol for sedation (needed more)
   - Should stop vancomycin tomorrow
   - Restarted heparin gtt
   - Increased digoxin (per renal)--RVR improved with increased dose of
   digoxin
   - Echo today for ?PE
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2165-3-31**] 07:53 AM
   Micafungin - [**2165-3-31**] 05:19 PM
   Meropenem - [**2165-3-31**] 08:18 PM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2165-4-1**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-1**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.6
C (97.8
   HR: 89 (89 - 118) bpm
   BP: 90/56(66) {90/56(66) - 155/85(106)} mmHg
   RR: 19 (12 - 21) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 129.8 kg (admission): 132.3 kg
   Height: 72 Inch
    CVP: 4 (2 - 262)mmHg
   Total In:
                                                                 10,678 mL
                                                                  1,873 mL
   PO:
   TF:
   IVF:
                                                                  8,568 mL
                                                                  1,299 mL
   Blood products:
   Total out:
                                                                 18,588 mL
                                                                  4,124 mL
   Urine:
                                                                    237 mL
                                                                     35 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -7,910 mL
                                                                 -2,251 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 650 (650 - 1,188) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 10 cmH2O
   FiO2: 30%
   PIP: 21 cmH2O
   SpO2: 99%
   ABG: 7.43/35/123/20/0
   Ve: 11.6 L/min
   PaO2 / FiO2: 410
   Physical Examination
   Gen: obese, intubated and sedated, not arousable to voice, grimacing to
   pain.
   NECK: Right sided wound from port cath removal. Unable to assess JVD
   [**12-17**] obese habitus.
   CV: Tachycardic, irregular. Normal S1/S2.
   LUNGS: Mildly coarse breath sounds
   ABD: obese, Soft, NT, ND.  No HSM. BS present and active
   EXT: 1+ pitting edema on dorsum of feet; upper extremities bilaterally
   edematous but non-pitting
   Labs / Radiology
   119 K/uL
   10.8 g/dL
   148 mg/dL
   1.5 mg/dL
   20 mEq/L
   4.1 mEq/L
   20 mg/dL
   99 mEq/L
   134 mEq/L
   31.6 %
   13.8 K/uL
        [image002.jpg]
                             [**2165-3-31**]  12:33 PM
                             [**2165-3-31**]  12:52 PM
                             [**2165-3-31**]  05:54 PM
                             [**2165-3-31**]  06:01 PM
                             [**2165-3-31**]  06:25 PM
                             [**2165-3-31**]  10:45 PM
                             [**2165-3-31**]  11:07 PM
                             [**2165-4-1**]  01:40 AM
                             [**2165-4-1**]  05:11 AM
                             [**2165-4-1**]  05:48 AM
   WBC
   13.8
   Hct
   30.2
   31.6
   Plt
   119
   Cr
   1.9
   1.5
   TCO2
   28
   29
   26
   27
   24
   Glucose
   157
   136
   165
   148
   Other labs: PT / PTT / INR:13.1/92.4/1.1, ALT / AST:9/33, Alk Phos / T
   Bili:128/0.5, Differential-Neuts:73.0 %, Band:7.0 %, Lymph:1.0 %,
   Mono:12.0 %, Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.3 g/dL,
   LDH:458 IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:4.4 mg/dL
   Imaging: CXR: L tunnelled HD/IJ in place. RL base cut off, but
   otherwise film improved.
   Microbiology: None
   Assessment and Plan
   61 yo man s/p alogeneic SCT (day 0= [**2165-3-8**]) for multiple myeloma with
   respiratory failure (ARDS, Paraflu, possible PE), treated E. coli
   bacteremia and mental status changes.
   # Respiratory failure:  The patient continues to have mixed etiology
   respiratory failure including ARDS, Paraflu 3 PNA, ? PE, Volume
   Overload (despite CVVH removal of ~10L).  Tracheostomy as a means of
   bridging extubation will be discussed today with his oncology team and
   family.
   - Continue CVVH, paitent to run even
   - Spontaneous breathing trial today: extubate if possible
   - Continue heparin gtt
   # Sepsis/ E. coli Bacteremia and UTI: Completed course of meropenem and
   vancomycin.  Continue Micafungin until Bglucan returns negative.
   # Afib with RVR:  Improved control with Metoprolol & Digoxin
   # ARF: Urine output flat.  Large volume removal yesterday.  Goal even
   today, adding fluid back as needed.
   - Continue CVVH
   - Switched to valgancyclovir per ID
   # Anemia: Hct Holding after [**3-30**] transfusion
   # Myeloma: Patient is s/p  SCT for multiple myeloma.
   BMT Recs: Cyclosporine, MMF
   # Diarrhea:  formerly Ileus, now stooling, on TPN.  Will send C. diff
   and add Flagyl ifpatient becomes unstable.
   # Type 2 Diabetes Mellitus: Difficult to control blood glucose in the
   setting of infection
   -continue humalog sliding scale with Lantus, followed FSG and adjust
   per TPN status
   ICU Care
   Nutrition:
   TPN without Lipids - [**2165-3-31**] 06:52 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-3-18**] 02:03 AM
   Midline - [**2165-3-22**] 09:00 PM
   Multi Lumen - [**2165-3-25**] 08:00 PM
   Dialysis Catheter - [**2165-3-29**] 02:10 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2165-04-02 06:47:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2165-4-1**] 10:10 AM
 SPUTUM CULTURE - At [**2165-4-1**] 01:00 PM
 BLOOD CULTURED - At [**2165-4-1**] 01:07 PM
   - Family Meeting held
   - Spont Breathing trial o/n: fatigue, high rates, IP consulted for
   trach but will need to have CT surgery perform trach as patient has
   abnormal anatomy
   This morning spiked fever to 100.6, blood and urine cultures sent. CXR
   without significant change.
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Micafungin - [**2165-3-31**] 05:19 PM
   Meropenem - [**2165-4-1**] 07:32 AM
   Vancomycin - [**2165-4-1**] 10:38 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2165-4-2**] 03:51 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-2**] 06:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 110 (87 - 124) bpm
   BP: 145/76(98) {89/53(64) - 145/87(109)} mmHg
   RR: 28 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 129.8 kg (admission): 132.3 kg
   Height: 72 Inch
    CVP: 3 (0 - 7)mmHg
   Total In:
                                                                  6,136 mL
                                                                  1,127 mL
   PO:
   TF:
   IVF:
                                                                  4,293 mL
                                                                    644 mL
   Blood products:
   Total out:
                                                                  8,227 mL
                                                                  1,069 mL
   Urine:
                                                                     63 mL
                                                                     11 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,091 mL
                                                                     58 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 851 (444 - 924) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 27
   PIP: 18 cmH2O
   SpO2: 100%
   ABG: 7.48/37/123/24/4
   Ve: 18.9 L/min
   PaO2 / FiO2: 410
   Physical Examination
   Gen: obese, intubated and sedated, not arousable to voice, grimacing to
   pain.
   NECK: Right sided wound from port cath removal. Unable to assess JVD
   [**12-17**] obese habitus.
   L sided subclavian site with some superficial erythema. HD line site
   nearby but appears ok. A line site with erythema at site of skin
   insertion. R arm picc line site appears ok.
   CV: Tachycardic, irregular with occasional premature beats. Normal
   S1/S2. No murmurs appreciated.
   LUNGS: Mildly coarse breath sounds bilaterally without wheezing
   ABD: obese, Soft, NT, ND.  No HSM. BS present and active
   EXT: 1+ pitting edema on dorsum of feet; upper extremities bilaterally
   edematous but non-pitting
   Labs / Radiology
   126 K/uL
   9.8 g/dL
   120 mg/dL
   1.4 mg/dL
   24 mEq/L
   4.5 mEq/L
   17 mg/dL
   100 mEq/L
   136 mEq/L
   29.1 %
   13.4 K/uL
        [image002.jpg]
                             [**2165-4-1**]  05:48 AM
                             [**2165-4-1**]  10:32 AM
                             [**2165-4-1**]  11:25 AM
                             [**2165-4-1**]  01:42 PM
                             [**2165-4-1**]  04:44 PM
                             [**2165-4-1**]  05:03 PM
                             [**2165-4-1**]  11:00 PM
                             [**2165-4-1**]  11:05 PM
                             [**2165-4-2**]  04:18 AM
                             [**2165-4-2**]  04:43 AM
   WBC
   13.4
   Hct
   29.1
   Plt
   126
   Cr
   1.4
   1.4
   1.4
   TCO2
   24
   25
   25
   27
   29
   28
   Glucose
   135
   165
   167
   120
   Other labs: PT / PTT / INR:13.3/69.9/1.1, ALT / AST:[**10-9**], Alk Phos / T
   Bili:116/0.4, Differential-Neuts:89.0 %, Band:0.0 %, Lymph:5.0 %,
   Mono:2.0 %, Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.3 g/dL,
   LDH:369 IU/L, Ca++:8.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.6 mg/dL
   Imaging: CXR:
   Echo:
   Due to suboptimal technical quality, a focal wall motion abnormality
   cannot be fully excluded. Overall left ventricular systolic function is
   probably normal (LVEF>55%). RV size is difficult to assess. The RV has
   borderline/mild global free wall hypokinesis. There is no aortic valve
   stenosis. No aortic regurgitation is seen. The mitral valve appears
   structurally normal with trivial mitral regurgitation. There is mild
   pulmonary artery systolic hypertension. There is a trivial/physiologic
   pericardial effusion.
   Compared with the prior study (images reviewed) of [**2165-3-25**], no
   definite change.
   Microbiology:    CLOSTRIDIUM DIFFICILE TOXIN A & B TEST (Final
   [**2165-4-2**]):
         Feces negative for C.difficile toxin A & B by EIA.
              (Reference Range-Negative).
   BCx UCx pending
   Assessment and Plan
 TACHYCARDIA, OTHER
 ATRIAL FIBRILLATION (AFIB)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 .H/O DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   61 yo man s/p alogeneic SCT (day 0= [**2165-3-8**]) for multiple myeloma with
   respiratory failure (ARDS, Paraflu, possible PE), treated E. coli
   bacteremia and mental status changes.
   # Respiratory failure:  The patient continues to have mixed etiology
   respiratory failure including ARDS, Paraflu 3 PNA, ? PE, Volume
   Overload (despite CVVH removal of ~10L).  Tracheostomy as a means of
   bridging extubation will be discussed today with his oncology team and
   family.
   - Continue CVVH, paitent to run slightly negative today given
   stabilization of blood pressures
   - Failed spontaneous breathing trial today: off all sedation patient
   became hypertensive to 190/110
s, more tachypneic and tachycardic.
   Plan to place tracheostomy, wife on board with plan.  IP evaluated
   patient
 unable to do because of patient
s anatomy and h/o prior
   trach; CT surgery to see patient in the AM for OR placement of trach
   - Continue heparin gtt for now, turn off prior to trach
   # Sepsis/ E. coli Bacteremia and UTI: Completed course of meropenem and
   vancomycin.  Continue Micafungin until Bglucan returns negative.   Pt
   spiking low grade fevers today, no antibiotics restarted.
   - Plan to remove right wrist A line.  L sided A line attempted today
   without success.  Re-attempt new Aline placement in the AM.
   - Consider removing L subclavian given erythema around insertion site.
   However, will need to establish central access prior to this (likely
   with additional PICC placement given that patient requires multiple
   ports for meds, TPN, etc.)
   - Re-checking CMV VL per ID (as patient was off Valgancyclovir and on
   Acyclovir for awhile)
   # Afib with RVR:  Improved control with Metoprolol & Digoxin
   # Psych: Psych not recommending starting anti-depressant urgently given
   patient
s critical status.
   - Low dose Zyprexa 2.5mg Q4 prn ok for agitation, but if higher doses
   needed, consider Haldol 2.5mg PO/IV up to 20mg/day as needed for
   agitation.
   # ARF: Urine output flat.  Large volume removal yesterday.  Goal even
   today, adding fluid back as needed.
   - Continue CVVH
   - Switched to valgancyclovir per ID
   # Anemia: Hct Holding after [**3-30**] transfusion
   # Myeloma: Patient is s/p  SCT for multiple myeloma.
   BMT Recs: Cyclosporine, MMF
   # Diarrhea:  formerly Ileus, now stooling, on TPN.  C. diff negative
   times two, third pending.  Consider addition of Flagyl if diarrhea
   worsens and patient  becomes unstable.
   # Type 2 Diabetes Mellitus: Difficult to control blood glucose in the
   setting of infection
   -continue humalog sliding scale with Lantus, followed FSG and adjust
   per TPN status
   ICU Care
   Nutrition:
   TPN without Lipids - [**2165-4-1**] 06:12 PM 62.5 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-3-18**] 02:03 AM
   Midline - [**2165-3-22**] 09:00 PM
   Multi Lumen - [**2165-3-25**] 08:00 PM
   Dialysis Catheter - [**2165-3-29**] 02:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-04-03 06:24:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 URINE CULTURE - At [**2165-4-2**] 09:20 AM
 BLOOD CULTURED - At [**2165-4-2**] 09:35 AM
   from aline
 SPUTUM CULTURE - At [**2165-4-2**] 09:38 AM
 BLOOD CULTURED - At [**2165-4-2**] 09:44 AM
   from left ij tlcl
 ARTERIAL LINE - STOP [**2165-4-3**] 01:00 AM
   -Right wrist A line removed
   -L wrist A line attempted unsuccessfully
   -Low grade temps in the AM, none overnight, cultures pending.
   -Failed SBT in the AM; IP consulted but will be unable to do bedside
   trach; pt will likely need OR trach by Dr. [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) **] unable to provide history: Sedated
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Micafungin - [**2165-3-31**] 05:19 PM
   Meropenem - [**2165-4-1**] 07:32 AM
   Vancomycin - [**2165-4-1**] 10:38 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Haloperidol (Haldol) - [**2165-4-2**] 12:30 PM
   Metoprolol - [**2165-4-3**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-3**] 06:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 36.6
C (97.9
   HR: 96 (95 - 130) bpm
   BP: 98/73(78) {98/56(69) - 123/73(78)} mmHg
   RR: 17 (14 - 36) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 122.4 kg (admission): 132.3 kg
   Height: 72 Inch
    CVP: 4 (2 - 6)mmHg
   Total In:
                                                                  5,016 mL
                                                                  1,730 mL
   PO:
   TF:
   IVF:
                                                                  3,173 mL
                                                                  1,087 mL
   Blood products:
   Total out:
                                                                  5,948 mL
                                                                  1,596 mL
   Urine:
                                                                     61 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -932 mL
                                                                    134 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 577 (577 - 857) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 32
   PIP: 16 cmH2O
   SpO2: 100%
   ABG: 7.40/41/102/24/0
   Ve: 17.9 L/min
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Tone: Not assessed
   Labs / Radiology
   123 K/uL
   9.2 g/dL
   121 mg/dL
   1.6 mg/dL
   24 mEq/L
   3.8 mEq/L
   18 mg/dL
   100 mEq/L
   138 mEq/L
   27.2 %
   12.4 K/uL
        [image002.jpg]
                             [**2165-4-2**]  04:18 AM
                             [**2165-4-2**]  04:43 AM
                             [**2165-4-2**]  09:40 AM
                             [**2165-4-2**]  10:01 AM
                             [**2165-4-2**]  02:54 PM
                             [**2165-4-2**]  03:58 PM
                             [**2165-4-2**]  06:18 PM
                             [**2165-4-2**]  06:33 PM
                             [**2165-4-3**]  12:49 AM
                             [**2165-4-3**]  01:13 AM
   WBC
   13.4
   12.4
   Hct
   29.1
   27.2
   Plt
   126
   123
   Cr
   1.4
   1.5
   1.6
   TCO2
   28
   28
   28
   26
   26
   Glucose
   120
   148
   141
   426
   121
   Other labs: PT / PTT / INR:13.7/65.5/1.2, ALT / AST:14/29, Alk Phos / T
   Bili:121/0.5, Differential-Neuts:74.0 %, Band:1.0 %, Lymph:6.0 %,
   Mono:10.0 %, Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.3 g/dL,
   LDH:369 IU/L, Ca++:8.4 mg/dL, Mg++:1.8 mg/dL, PO4:3.5 mg/dL
   Assessment and Plan
 TACHYCARDIA, OTHER
 ATRIAL FIBRILLATION (AFIB)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 .H/O DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   61 yo man s/p alogeneic SCT (day 0= [**2165-3-8**]) for multiple myeloma with
   respiratory failure (ARDS, Paraflu, possible PE), treated E. coli
   bacteremia and mental status changes.
   # Respiratory failure:  The patient continues to have mixed etiology
   respiratory failure including ARDS, Paraflu 3 PNA, ? PE, Volume
   Overload (despite CVVH removal of ~10L).  Tracheostomy as a means of
   bridging extubation is planned as the patient failed SBT yesterday and
   has been intubated for a prolonged period of time.
   - Continue CVVH, paitent to run slightly negative given stabilization
   of blood pressures
   - Failed spontaneous breathing trial yesterday: off all sedation
   patient became hypertensive to 190/110
s, more tachypneic and
   tachycardic.  Plan to place tracheostomy, wife on board with plan.  IP
   evaluated patient
 unable to do because of patient
s difficult anatomy
   and h/o prior trach; Csurg to see patient for placement of trach
   - Continue heparin gtt for now
   # Sepsis/ E. coli Bacteremia and UTI: Completed course of meropenem and
   vancomycin.  Off all antibiotics except Micafungin, which is to be
   continued until Bglucan returns negative.   Pt spiking low grade fevers
   yesterday, none overnight.  No broad antibiotics restarted. Suspect low
   grade fevers related to multiple lines, including A line that appeared
   erythematous on the right.
   - A line removed overnight.  Follow up tip culture.
   - Multiple attempts to replace L sided A line without success.
   Re-attempt new Aline placement in the AM.
   - Consider removing L subclavian given erythema around insertion site.
   However, will need to establish central access prior to this (PICC
   nurse has seen and evaulated patient, and currently another PICC would
   not be a viable option for this patient given history of multiple
   ports, tunneled caths, and number of lines in place currently) .
   Patient requires multiple ports for meds, TPN, etc.
   - f/u CMV VL per ID (as patient was off Valgancyclovir and on Acyclovir
   for awhile)
   # Afib with RVR:  Improved control with Metoprolol & Digoxin
   # Psych: Psych not recommending starting anti-depressant urgently given
   patient
s critical status.
   - Low dose Zyprexa 2.5mg Q4 prn ok for agitation, but if higher doses
   needed, Haldol 2.5mg PO/IV up to 20mg/day as needed for agitation.
   # ARF: Urine output flat.  Large volume removal yesterday.  Goal
   slightly negative today.
   - Continue CVVH
   - Switched to valgancyclovir per ID
   # Anemia: Hct Holding after [**3-30**] transfusion
   # Myeloma: Patient is s/p  SCT for multiple myeloma.
   BMT Recs: Cyclosporine, MMF
   # Diarrhea:  formerly Ileus, now stooling, on TPN.  C. diff negative
   times two, third pending.  Consider addition of Flagyl if diarrhea
   worsens and patient  becomes unstable.
   # Type 2 Diabetes Mellitus: Difficult to control blood glucose in the
   setting of infection
   -continue humalog sliding scale with Lantus, followed FSG and adjust
   per TPN status
   ICU Care
   Nutrition:
   TPN without Lipids - [**2165-4-2**] 06:00 PM 76 mL/hour
   Glycemic Control:
   Lines:
   Midline - [**2165-3-22**] 09:00 PM
   Multi Lumen - [**2165-3-25**] 08:00 PM
   Dialysis Catheter - [**2165-3-29**] 02:10 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-04-04 07:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2165-4-3**] 04:27 PM
 MULTI LUMEN - START [**2165-4-4**] 01:30 AM
 MULTI LUMEN - STOP [**2165-4-4**] 03:00 AM
   [**4-3**]
   - Thoracics wants to take him West for trach; No PEG. Unclear when he
   will go (thoracic resident thinks it will be more likely Friday than
   Thursday).
   - A-line placed
   - RIJ replaced and left subclavian to be removed; heparin restarted
   - Residuals better, ordered tube feeds (but didn't get restarted)
   - Renal to consider changing to HD (instead of CVVH)
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Meropenem - [**2165-4-1**] 07:32 AM
   Vancomycin - [**2165-4-1**] 10:38 AM
   Micafungin - [**2165-4-3**] 04:00 PM
   Infusions:
   Heparin Sodium - 1,500 units/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2165-4-3**] 08:00 AM
   Metoprolol - [**2165-4-4**] 05:00 AM
   Heparin Sodium - [**2165-4-4**] 06:55 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-4**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 35.7
C (96.3
   HR: 83 (83 - 110) bpm
   BP: 92/47(60) {78/47(60) - 140/75(327)} mmHg
   RR: 14 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 118.9 kg (admission): 132.3 kg
   Height: 72 Inch
    CVP: 9 (4 - 9)mmHg
   Total In:
                                                                  6,731 mL
                                                                  1,067 mL
   PO:
   TF:
   IVF:
                                                                  4,973 mL
                                                                    672 mL
   Blood products:
   Total out:
                                                                  9,281 mL
                                                                  1,287 mL
   Urine:
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,550 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 1,023 (731 - 1,023) mL
   PS : 10 cmH2O
   RR (Spontaneous): 17
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 39
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.47/34/107/23/1
   Ve: 10.6 L/min
   PaO2 / FiO2: 357
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   114 K/uL
   8.7 g/dL
   174 mg/dL
   1.6 mg/dL
   23 mEq/L
   3.9 mEq/L
   21 mg/dL
   100 mEq/L
   136 mEq/L
   25.5 %
   10.3 K/uL
        [image002.jpg]
                             [**2165-4-2**]  06:33 PM
                             [**2165-4-3**]  12:49 AM
                             [**2165-4-3**]  01:13 AM
                             [**2165-4-3**]  11:56 AM
                             [**2165-4-3**]  01:35 PM
                             [**2165-4-3**]  05:23 PM
                             [**2165-4-3**]  06:12 PM
                             [**2165-4-3**]  06:26 PM
                             [**2165-4-4**]  04:15 AM
                             [**2165-4-4**]  05:13 AM
   WBC
   12.4
   9.8
   12.8
   10.3
   Hct
   27.2
   26.1
   27.9
   25.5
   Plt
   123
   113
   137
   114
   Cr
   1.6
   1.4
   1.4
   1.6
   TCO2
   26
   26
   31
   25
   Glucose
   121
   206
   127
   174
   Other labs: PT / PTT / INR:13.6/38.6/1.2, ALT / AST:14/29, Alk Phos / T
   Bili:121/0.5, Differential-Neuts:74.0 %, Band:1.0 %, Lymph:6.0 %,
   Mono:10.0 %, Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:2.3 g/dL,
   LDH:369 IU/L, Ca++:8.6 mg/dL, Mg++:1.8 mg/dL, PO4:4.3 mg/dL
   Imaging: CXR: Ett 5 cm above carina, double lumen to lower SVC,
   subclavian (out), midline
   Microbiology: [**2165-4-3**]  CATHETER TIP-IV WOUND CULTURE-PENDING
   [**2165-4-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2165-4-2**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   [**2165-4-2**]  Immunology (CMV) CMV Viral Load-PENDING
   [**2165-4-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2165-4-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2165-4-2**]  URINE URINE CULTURE-FINAL INPATIENT
   [**2165-4-2**]  SPUTUM GRAM STAIN-FINAL; DISCARDED
   [**2165-4-1**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-NEGATIVE
   [**2165-4-1**]  URINE URINE CULTURE-FINAL NEGATIIVE
   [**2165-4-1**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2165-4-1**]  SPUTUM GRAM STAIN-FINAL; 1+ GRAM + COCCI IN PAIRS
   [**2165-4-1**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2165-3-31**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST- NEGATIVE
   [**2165-3-30**]  URINE URINE CULTURE-FINAL NEGATIVE
   [**2165-3-30**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2165-3-30**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   Assessment and Plan
 TACHYCARDIA, OTHER
 ATRIAL FIBRILLATION (AFIB)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 .H/O DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   61 yo man s/p alogeneic SCT (day 0= [**2165-3-8**]) for multiple myeloma with
   respiratory failure (ARDS, Paraflu, possible PE), s/p completed course
   for E. coli bacteremia and staph epi line infxn; mental status changes
   precluding weaning of mechanical ventilation, now pursuing
   tracheostomy.
   # Respiratory failure:  The patient continues to have mixed etiology
   respiratory failure including ARDS, Paraflu 3 PNA, ? PE, but
   oxygenation is much improved.  Failed spontaneous breathing trial : off
   all sedation patient became hypertensive to 190/110
s, more tachypneic
   and tachycardic. Also displaying paradoxical breathing movts suggestive
   of diaphragmatic weakness.  Plan to place tracheostomy, wife on board
   with plan.  Tracheostomy as a means of bridging extubation is planned
   as the patient failed SBT and has been intubated for a prolonged period
   of time.
   - As per Dr. [**First Name (STitle) **],  tracheostomy tomorrow at bedside with assistance
   from anesthesia
   - Continue heparin gtt for now for empiric Tx of PE as repeat echo
   confirmed RV strain.
   - Check NIF, continue MDIs
   - check benzo level to assess if still in system
   - decrease PSV to 8 from 10, keep peep at 8, currently over-ventilating
   # Sepsis/ E. coli Bacteremia and UTI: Completed course of meropenem and
   vancomycin.  Off all antibiotics except Micafungin, which is to be
   continued until Bglucan returns negative.   Pt spiking low grade fevers
   48 hours ago, none overnight.  No broad antibiotics restarted. Suspect
   low grade fevers related to multiple lines, including A line that
   appeared erythematous on the right.
   - A line removed and replaced.  Follow up tip culture.
   - Replaced left subclavian (not sent for Cx) with right IJ.  Patient
   requires multiple ports for meds, TPN, etc.
   - f/u CMV VL per ID (as patient was off Valgancyclovir and on Acyclovir
   for awhile)
   - follow pending blood and urine Cx
s; all currently NGTD
   - Monitor site of previous subclavian given surrounding blanching
   erythema
if [**Last Name (LF) 7672**], [**First Name3 (LF) **] tx with vanco.
   # Afib with RVR:  Improved control with Metoprolol & Digoxin
   - check dig level
   # Psych: Psych not recommending starting anti-depressant urgently given
   patient
s critical status.
   - Low dose Zyprexa 2.5mg Q4 prn ok for agitation, but if higher doses
   needed, Haldol 2.5mg PO/IV up to 20mg/day as needed for agitation.
   # ARF: Urine output flat.  Large volume removal yesterday.  Goal
   negative 1-2 L today.
   - Continue CVVH; D/W reanl re switch to HD
   # Anemia: Hct Holding after [**3-30**] transfusion
   - monitor [**Hospital1 7**]
   # Myeloma: Patient is s/p  SCT for multiple myeloma.
   - daily LFTs and bili
   - BMT Recs: Cyclosporine, MMF
   # Diarrhea:  formerly Ileus, now stooling, on TPN.  C. diff negative
   times three pending.  Consider addition of Flagyl if diarrhea worsens
   and patient  becomes unstable.
   # Type 2 Diabetes Mellitus: Difficult to control blood glucose in the
   setting of infection
   -continue humalog sliding scale with Lantus, followed FSG and adjust
   per TPN status
   ICU Care
   Nutrition:
   TPN without Lipids - [**2165-4-3**] 01:38 PM 100 mL/hour-
 switch to tube
   feeds
   Glycemic Control:
   Lines:
   Midline - [**2165-3-22**] 09:00 PM
   Dialysis Catheter - [**2165-3-29**] 02:10 PM
   Arterial Line - [**2165-4-3**] 04:27 PM
   Multi Lumen - [**2165-4-4**] 01:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2165-04-05 06:55:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**4-4**]
   - As per BMT cyclosporin increased to 75mg [**Hospital1 7**]
   - Heparin stopped at Mn for bedside trach placement this AM
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Micafungin - [**2165-4-4**] 07:21 PM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium - [**2165-4-4**] 06:55 AM
   Metoprolol - [**2165-4-5**] 04:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-5**] 06:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.4
C (97.6
   HR: 108 (93 - 117) bpm
   BP: 126/73(88) {98/52(65) - 130/73(88)} mmHg
   RR: 17 (16 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 118.9 kg (admission): 132.3 kg
   Height: 72 Inch
             Total In:
                                                                  4,336 mL
                                                                    512 mL
   PO:
             TF:
                                                                     76 mL
                                                                      0 mL
   IVF:
                                                                  3,031 mL
                                                                    512 mL
   Blood products:
   Total out:
                                                                  7,397 mL
                                                                  1,219 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -3,061 mL
                                                                   -707 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 776 (640 - 796) mL
   PS : 10 cmH2O
   RR (Spontaneous): 22
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 36
   PIP: 20 cmH2O
   SpO2: 100%
   ABG: 7.51/32/113/23/3
   NIF: -26 cmH2O
   Ve: 14.7 L/min
   PaO2 / FiO2: 377
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  erythema around tunnel line unchanged
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Tone: Not assessed
   Labs / Radiology
   148 K/uL
   9.9 g/dL
   135 mg/dL
   1.4 mg/dL
   23 mEq/L
   4.6 mEq/L
   20 mg/dL
   95 mEq/L
   133 mEq/L
   28.8 %
   12.5 K/uL
        [image002.jpg]
                             [**2165-4-3**]  06:12 PM
                             [**2165-4-3**]  06:26 PM
                             [**2165-4-4**]  04:15 AM
                             [**2165-4-4**]  05:13 AM
                             [**2165-4-4**]  11:52 AM
                             [**2165-4-4**]  12:10 PM
                             [**2165-4-4**]  11:14 PM
                             [**2165-4-4**]  11:37 PM
                             [**2165-4-5**]  04:47 AM
                             [**2165-4-5**]  05:06 AM
   WBC
   12.8
   10.3
   12.5
   Hct
   27.9
   25.5
   28.8
   Plt
   137
   114
   148
   Cr
   1.6
   1.4
   TCO2
   31
   25
   25
   26
   26
   Glucose
   174
   185
   177
   135
   Other labs: PT / PTT / INR:13.7/30.7/1.2, ALT / AST:19/53, Alk Phos / T
   Bili:185/0.6, Differential-Neuts:74.0 %, Band:1.0 %, Lymph:6.0 %,
   Mono:10.0 %, Eos:1.0 %, Lactic Acid:1.1 mmol/L, Albumin:3.2 g/dL,
   LDH:587 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:3.8 mg/dL
   Imaging: CXR: Right IJ catheter tip is in the proximal SVC. ET tube is
   seen in standard
   position. NG tube tip out of view, below the diaphragm. The central
   left
   catheter remains in place. Right PICC tip appears to be in the axillary
   vein.
   There is mild cardiomegaly unchanged from prior. The lungs are grossly
   clear.
   Apical thickening is unchanged.
   CXR: ET in place, lung fields unchanged
   Microbiology: [**2165-4-3**]  CATHETER TIP-IV WOUND CULTURE-PRELIMINARY
   NGTD
   [**2165-4-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2165-4-2**]  STOOL CLOSTRIDIUM DIFFICILE TOXIN A & B TEST-FINAL
   [**2165-4-2**]  Immunology (CMV) CMV Viral Load-PENDING
   [**2165-4-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2165-4-2**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   [**2165-4-2**]  URINE URINE CULTURE-FINAL
   [**2165-4-2**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-FINAL
   INPATIENT
   bcx [**2074-3-29**] ngtd pending
   beta-glucan positive: 127, galactomannam pending
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TACHYCARDIA, OTHER
 ATRIAL FIBRILLATION (AFIB)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 .H/O DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   61 yo man s/p alogeneic SCT (day 0= [**2165-3-8**]) for multiple myeloma with
   respiratory failure (ARDS, Paraflu, possible PE), s/p completed course
   for E. coli bacteremia and staph epi line infxn; mental status changes
   precluding weaning of mechanical ventilation, now s/p tracheostomy.
   Febrile this AM post procedure and with positve beta-glucan.
   # Respiratory failure:  Secondary to ARDS (from ESBL bacterimia),
   Paraflu 3 PNA,  PE, currently  much improved.  Failed spontaneous
   breathing trial: initially b/c apneic and then b/c patient became
   hypertensive to 190/110
s, more tachypneic and tachycardic off
   sedation. Displayed paradoxical breathing movts suggestive of
   diaphragmatic weakness.  S/p tracheostomy on [**4-5**].
   - Continue heparin gtt for now for empiric Tx of PE as repeat echo
   confirmed RV strain.
   - continue MDIs
   - goal is PSV=5/PEEP=0 in the afternoon
   # Fevers; previous Sepsis/ E. coli Bacteremia: Completed course of
   meropenem and vancomycin.  Off all antibiotics except Micafungin, which
   is to be continued given positibe beta-glucan.   Pt spiked again this
   am and was re-cultured.  No broad antibiotics restarted.  This was soon
   after trach. Beta glucan now positive and of unclear significance
   ID any candididal mucosal infxn could cause this. Galactomannam
   pending.
   -  f/u line and pending Bcx
   -  f/u CMV VL per ID (as patient was off Valgancyclovir and on
   Acyclovir for awhile)
   - follow pending blood and urine Cx
s; all currently NGTD
   - Monitor site of previous subclavian given surrounding blanching
   erythema
if [**Last Name (LF) 7672**], [**First Name3 (LF) **] tx with vanco.
   - d/w ENT re: value of dedicated sinus CT vs drirect visualization of
   sinuses given recent head CT showing some maxially sinus wall
   thickening and opacification of sphenoid.
   - continue micafungin; f/u galactomannam
   # Afib with RVR:  Improved control with Metoprolol & Digoxin
   - f/u dig level
   # Psych: Psych not recommending starting anti-depressant urgently given
   patient
s critical status.
   - Low dose Zyprexa 2.5mg Q4 prn ok for agitation, but if higher doses
   needed, Haldol 2.5mg PO/IV up to 20mg/day as needed for agitation.
   # ARF: Urine output  effectively zero.  Large volume removal yesterday
   by CVVH which is now off.
   - start HD tomorrow, dose meds accordingly, as per renal no dose
   adjustments currently necessary
   # Anemia: Hct Holding after [**3-30**] transfusion
   - monitor [**Hospital1 7**]
   # Myeloma: Patient is s/p  SCT for multiple myeloma.
   - daily LFTs and bili
   - BMT Recs: Cyclosporine dose increase to 100mg [**Hospital1 **], MMF
   # Diarrhea:  formerly Ileus, now stooling, on TPN.  C. diff negative
   times three pending.  Consider addition of Flagyl if diarrhea worsens
   and patient  becomes unstable.
   # Type 2 Diabetes Mellitus: Difficult to control blood glucose in the
   setting of infection
   -continue humalog sliding scale with Lantus, followed FSG and adjust
   per TPN status
   ICU Care
   Nutrition: TUBE FEEDS YESTERDAY AFTERNOON, TPN STOPPED
   Glycemic Control:
   Lines:
   Midline - [**2165-3-22**] 09:00 PM
   Dialysis Catheter - [**2165-3-29**] 02:10 PM
   Arterial Line - [**2165-4-3**] 04:27 PM
   Multi Lumen - [**2165-4-4**] 01:30 AM
   Prophylaxis:
   DVT: HEPARIN GTT (HOLDING)
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2165-04-06 08:17:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 PERCUTANEOUS TRACHEOSTOMY - At [**2165-4-5**] 08:15 AM
   trach placement at bedside. propofol was increased up to as high as
   80mcg/kg/min for adequate sedation during procedure. decreased to
   30mcg/kg/min post procedure.
 BLOOD CULTURED - At [**2165-4-5**] 10:50 AM
   aline
 BLOOD CULTURED - At [**2165-4-5**] 11:00 AM
   right sc tlcl
 SPUTUM CULTURE - At [**2165-4-5**] 01:00 PM
 FEVER - 101.1
F - [**2165-4-5**] 10:00 AM
   - Did excellently on SBT in AM post trach and was extubated. Spent most
   of day on trach mask and was transitioned back to PSV overnight to
   allow rest
   - Beta-glucan positive, evaluated by ENT: sinuses look clean to them,
   still needs to be staffed with ENT attg.
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Micafungin - [**2165-4-5**] 04:00 PM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Heparin Sodium - [**2165-4-6**] 02:00 AM
   Metoprolol - [**2165-4-6**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-6**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.3
   HR: 90 (87 - 106) bpm
   BP: 120/66(81) {118/66(81) - 151/90(107)} mmHg
   RR: 13 (12 - 30) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110 kg (admission): 132.3 kg
   Height: 72 Inch
             Total In:
                                                                  1,628 mL
                                                                     96 mL
   PO:
             TF:
                                                                     74 mL
   IVF:
                                                                  1,435 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                  2,072 mL
                                                                      0 mL
   Urine:
                                                                      5 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -444 mL
                                                                     96 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 611 (389 - 639) mL
   PS : 8 cmH2O
   RR (Set): 14
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 37
   PIP: 13 cmH2O
   Plateau: 14 cmH2O
   SpO2: 99%
   ABG: 7.40/36/151/19/-1 on 50% FiO2
   Ve: 9.5 L/min
   PaO2 / FiO2: 503
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  erythema around tunnel line unchanged
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Tone: Not assessed
   Labs / Radiology
   161 K/uL
   9.3 g/dL
   145 mg/dL
   3.7 mg/dL
   19 mEq/L
   3.9 mEq/L
   47 mg/dL
   95 mEq/L
   131 mEq/L
   26.4 %
   12.5 K/uL
        [image002.jpg]
                             [**2165-4-4**]  11:52 AM
                             [**2165-4-4**]  12:10 PM
                             [**2165-4-4**]  11:14 PM
                             [**2165-4-4**]  11:37 PM
                             [**2165-4-5**]  04:47 AM
                             [**2165-4-5**]  05:06 AM
                             [**2165-4-5**]  11:16 AM
                             [**2165-4-5**]  12:35 PM
                             [**2165-4-5**]  06:42 PM
                             [**2165-4-6**]  04:55 AM
   WBC
   12.5
   Hct
   28.8
   26.4
   Plt
   148
   161
   Cr
   1.4
   3.7
   TCO2
   25
   26
   26
   25
   25
   23
   Glucose
   185
   177
   135
   145
   Other labs: PT / PTT / INR:14.1/80.2/1.2, ALT / AST:15/24, Alk Phos / T
   Bili:155/0.5, Amylase / Lipase:71/52, Differential-Neuts:69.0 %,
   Band:1.0 %, Lymph:11.0 %, Mono:13.0 %, Eos:3.0 %, Lactic Acid:1.1
   mmol/L, Albumin:3.2 g/dL, LDH:346 IU/L, Ca++:9.6 mg/dL, Mg++:2.1 mg/dL,
   PO4:6.8 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TACHYCARDIA, OTHER
 ATRIAL FIBRILLATION (AFIB)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 .H/O DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   61 yo man s/p alogeneic SCT (day 0= [**2165-3-8**]) for multiple myeloma with
   respiratory failure (ARDS, Paraflu, possible PE), s/p completed course
   for E. coli bacteremia and staph epi line infxn; mental status changes
   precluding weaning of mechanical ventilation, now s/p tracheostomy.
   Febrile this AM post procedure and with positve beta-glucan.
   # Respiratory failure:  Now with tracheostomy after failing multiple
   SBTs [**12-17**] hypertension, tachypneia, tachycardia.  Initial respiratory
   failure was secondary to ARDS (from ESBL bacterimia), Paraflu 3 PNA,
   possible PE. Currently  much improved.    He tolerated trach collar
   yesterday and was back on PSV overnight for rest.
   - Continue heparin gtt although repeat echo was without impressive
   evidence of strain
   - Consider risk/benefits of CTA repeat to evaluate for PE; will discuss
   with renal
   - CT lungs (with or without contrast) to assess parenchyma
   - continue MDIs
   - back on trach collar as tolerated today
   # Fevers; previous Sepsis/ E. coli Bacteremia: Completed course of
   meropenem and vancomycin.  Off all antibiotics except Micafungin, which
   is to be continued given positibe beta-glucan.   Pt spiked again this
   am and was re-cultured.  No broad antibiotics restarted.  This was soon
   after trach. Beta glucan now positive and of unclear significance
   ID any candididal mucosal infxn could cause this. Galactomannam
   pending.
   -  f/u line and pending Bcx
   -  f/u CMV VL per ID (as patient was off Valgancyclovir and on
   Acyclovir for awhile)
   - follow pending blood and urine Cx
s; all currently NGTD
   - Monitor site of previous subclavian given surrounding blanching
   erythema
if [**Last Name (LF) 7672**], [**First Name3 (LF) **] tx with vanco.
   - d/w ENT re: value of dedicated sinus CT vs drirect visualization of
   sinuses given recent head CT showing some maxially sinus wall
   thickening and opacification of sphenoid.
   - continue micafungin; f/u galactomannam
   # Afib with RVR:  Improved control with Metoprolol & Digoxin
   - f/u dig level
   # Psych: Psych not recommending starting anti-depressant urgently given
   patient
s critical status.
   - Low dose Zyprexa 2.5mg Q4 prn ok for agitation, but if higher doses
   needed, Haldol 2.5mg PO/IV up to 20mg/day as needed for agitation.
   # ARF: Urine output  effectively zero.  Large volume removal yesterday
   by CVVH which is now off.
   - start HD tomorrow, dose meds accordingly, as per renal no dose
   adjustments currently necessary
   # Anemia: Hct Holding after [**3-30**] transfusion
   - monitor [**Hospital1 7**]
   # Myeloma: Patient is s/p  SCT for multiple myeloma.
   - daily LFTs and bili
   - BMT Recs: Cyclosporine dose increase to 100mg [**Hospital1 **], MMF
   # Diarrhea:  formerly Ileus, now stooling, on TPN.  C. diff negative
   times three pending.  Consider addition of Flagyl if diarrhea worsens
   and patient  becomes unstable.
   # Type 2 Diabetes Mellitus: Difficult to control blood glucose in the
   setting of infection
   -continue humalog sliding scale with Lantus, followed FSG and adjust
   per TPN status
   ICU Care
   Nutrition:  tube feeds
   Glycemic Control:
   Lines:
   Midline - [**2165-3-22**] 09:00 PM
   Dialysis Catheter - [**2165-3-29**] 02:10 PM
   Arterial Line - [**2165-4-3**] 04:27 PM
   Multi Lumen - [**2165-4-4**] 01:30 AM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2165-04-07 08:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Febrile after stopping CVVH
   - Tunnelled line pulled, currently on line holiday
   - having fevers
   - CT with L pelvic ileopsoas vs hematoma
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Micafungin - [**2165-4-5**] 04:00 PM
   Infusions:
   Heparin Sodium - 1,250 units/hour
   Other ICU medications:
   Hydralazine - [**2165-4-7**] 01:00 AM
   Metoprolol - [**2165-4-7**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-7**] 08:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.1
C (98.8
   HR: 90 (87 - 117) bpm
   BP: 126/65(82) {123/59(81) - 181/95(120)} mmHg
   RR: 24 (8 - 29) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110 kg (admission): 132.3 kg
   Height: 72 Inch
             Total In:
                                                                    710 mL
                                                                    128 mL
   PO:
             TF:
   IVF:
                                                                    710 mL
                                                                    128 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    710 mL
                                                                    128 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Trach mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 546 (530 - 601) mL
   PS : 8 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 14 cmH2O
   SpO2: 96%
   ABG: ///15/
   Ve: 13.6 L/min
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: lungs clear anteriorly
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  erythema around tunnel line unchanged on L chest
   Neurologic: eyes open and tracking but not following commands
   Labs / Radiology
   179 K/uL
   7.7 g/dL
   190 mg/dL
   5.3 mg/dL
   15 mEq/L
   4.0 mEq/L
   66 mg/dL
   92 mEq/L
   128 mEq/L
   23.2 %
   15.8 K/uL
        [image002.jpg]
                             [**2165-4-4**]  12:10 PM
                             [**2165-4-4**]  11:14 PM
                             [**2165-4-4**]  11:37 PM
                             [**2165-4-5**]  04:47 AM
                             [**2165-4-5**]  05:06 AM
                             [**2165-4-5**]  11:16 AM
                             [**2165-4-5**]  12:35 PM
                             [**2165-4-5**]  06:42 PM
                             [**2165-4-6**]  04:55 AM
                             [**2165-4-7**]  05:13 AM
   WBC
   12.5
   14.9
   15.8
   Hct
   28.8
   26.4
   23.2
   Plt
   148
   161
   179
   Cr
   1.4
   3.7
   5.3
   TCO2
   25
   26
   26
   25
   25
   23
   Glucose
   177
   135
   145
   190
   Other labs: Differential-Neuts:71.0 %, Band:1.0 %, Lymph:7.0 %,
   Mono:13.0 %, Eos:6.0 %, Ca++:8.9 mg/dL, Mg++:2.0 mg/dL, PO4:7.9 mg/dL
   Fluid analysis / Other labs: PT: 14.7  PTT: 85.2  INR: 1.3
   ALT: 10 AP: 128 Tbili: 0.5 Alb: 2.6
   AST: 29 LDH: 385
   Cyclspr: Pnd
   Imaging: CT Head: Read pending
   CT Torso: Wet Read Ileopsoas Abscess vs. Hematoma
   Microbiology: Cath tip Cx [**4-6**], [**4-7**] Pending
   Blood Cx [**4-6**] Pending
   Assessment and Plan
   61 yo man s/p alogeneic SCT (day 0= [**2165-3-8**]) for multiple myeloma with
   respiratory failure (ARDS, Paraflu, possible PE), s/p completed course
   for E. coli bacteremia and staph epi line infxn; mental status changes
   precluding weaning of mechanical ventilation, now s/p tracheostomy.
   Now with fevers and positve beta-glucan.
   # Fevers & Leukocytosis:   Previously he had  sepsis secondary to ESBL
   for which he completed course of meropenem and vancomycin.  Low grade
   fevers overnight. Off all antibiotics except Micafungin, which is being
   continued given positive beta-glucan. Beta glucan now positive and of
   unclear significance
per ID any candididal mucosal infxn could cause
   this. Galactomannam pending. Currently on a line holiday.
   - consider vancomycin for possible line infection
   - F/U CT Torso final read
   -  f/u pending culture data and galactomannan
   - continue micafungin
   # Respiratory failure:  Now with tracheostomy after failing multiple
   SBTs [**12-17**] hypertension, tachypneia, tachycardia.  Initial respiratory
   failure was secondary to ARDS (from ESBL bacterimia), Paraflu 3 PNA,
   possible PE. Currently  much improved.    He tolerated trach collar
   yesterday and was back on PSV overnight for rest.
   - Continue heparin gtt although repeat echo was without impressive
   evidence of strain
   - F/U CT lungs to assess parenchyma
   - continue MDIs
   - back on trach collar as tolerated today
   # Afib with RVR:  good rate control with Metoprolol & Digoxin
   - f/u dig level
   - anticoagulated with heparin gtt
   # Altered mental status: Not really waking up despite being off all
   sedation.  He was seen by psych not recommending starting
   anti-depressant urgently given patient
s current status.
   - Head CT
   - Per psych, in case he becomes agitated:  low dose Zyprexa 2.5mg Q4
   prn ok for agitation, but if higher doses needed, Haldol 2.5mg PO/IV up
   to 20mg/day as needed for agitation.
   # ARF: Possibly [**12-17**] contrast initially.  Urine output  effectively
   zero.  Currently on line holiday but will continue with HD.
   - avoid IV contrast
   - Restart HD/insert line per renal recs
   # Myeloma: Patient is s/p  SCT for multiple myeloma.
   - daily LFTs and bili
   - f/u BMT recs
   - daily cyclosporin levels.
   # Type 2 Diabetes Mellitus: Difficult to control blood glucose in the
   setting of infection
   -continue humalog sliding scale with Lantus, followed FSG and adjust
   per TPN status
   ICU Care
   Nutrition: TF Held for high residuals
   Glycemic Control:
   Lines:
   Midline - [**2165-3-22**] 09:00 PM
   Dialysis Catheter - [**2165-3-29**] 02:10 PM
   Arterial Line - [**2165-4-3**] 04:27 PM
   Multi Lumen - [**2165-4-4**] 01:30 AM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP: HOB elevation, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2165-04-08 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - STOP [**2165-4-7**] 08:03 AM with intention of not
   placing new HD line x 48hrs from pull.
   -- Heparin drip turned off given enlarging thigh hematoma, Hct had
   dropped to 20 but responded approprirately to 2U Prbc
   -- Empiric Vanco/Levo strarted for gradually climbing leukocytosis and
   fevers.
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Micafungin - [**2165-4-5**] 04:00 PM
   Levofloxacin - [**2165-4-7**] 07:45 PM
   Infusions:
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2165-4-7**] 08:00 AM
   Hydralazine - [**2165-4-7**] 06:30 PM
   Metoprolol - [**2165-4-8**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-8**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 92 (85 - 102) bpm
   BP: 133/77(91) {103/53(66) - 185/97(122)} mmHg
   RR: 22 (19 - 30) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110 kg (admission): 132.3 kg
   Height: 72 Inch
             Total In:
                                                                  1,489 mL
                                                                     39 mL
   PO:
             TF:
                                                                    108 mL
   IVF:
                                                                    765 mL
                                                                     39 mL
   Blood products:
                                                                    556 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,489 mL
                                                                     39 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 679 (524 - 679) mL
   PS : 8 cmH2O
   RR (Set): 0
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 14 cmH2O
   SpO2: 96%
   ABG: ///15/
   Ve: 13.2 L/min
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   153 K/uL
   9.5 g/dL
   138 mg/dL
   6.6 mg/dL
   15 mEq/L
   5.2 mEq/L
   81 mg/dL
   88 mEq/L
   126 mEq/L
   26.6 %
   16.4 K/uL
        [image002.jpg]
                             [**2165-4-5**]  04:47 AM
                             [**2165-4-5**]  05:06 AM
                             [**2165-4-5**]  11:16 AM
                             [**2165-4-5**]  12:35 PM
                             [**2165-4-5**]  06:42 PM
                             [**2165-4-6**]  04:55 AM
                             [**2165-4-7**]  05:13 AM
                             [**2165-4-7**]  02:13 PM
                             [**2165-4-7**]  10:20 PM
                             [**2165-4-8**]  04:40 AM
   WBC
   12.5
   14.9
   15.8
   16.5
   16.4
   Hct
   28.8
   26.4
   23.2
   20.1
   25.3
   26.6
   Plt
   148
   161
   179
   175
   153
   Cr
   1.4
   3.7
   5.3
   5.6
   6.4
   6.6
   TCO2
   26
   25
   25
   23
   Glucose
   135
   145
   190
   128
   208
   138
   Other labs: PT / PTT / INR:13.1/27.9/1.1, ALT / AST:19/56, Alk Phos / T
   Bili:122/0.5, Amylase / Lipase:71/52, Differential-Neuts:89.0 %,
   Band:3.0 %, Lymph:3.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.6 g/dL, LDH:499 IU/L, Ca++:9.8 mg/dL, Mg++:2.1 mg/dL,
   PO4:10.6 mg/dL
   Imaging: cxr [**4-8**]: new blurring of left heart border
   CT torso/LE [**4-6**]:
   1. New hypodense lesion within the left iliacus muscle which extends
   into the
   insertion of the muscle at the lesser trochanter. The differential
   possibilities includes hematoma and abscess. Since no IV contrast has
   been
   administered, further evaluation is not possible.
   2. Interval partial improvement in diffuse bilateral ground-glass
   opacities
   and nodules of both lungs. Differential diagnoses include infectious
   and
   inflammatory conditions.
   3. Interval resolution of small bilateral pleural effusion.
   NON-CONTRAST HEAD CT: No edema, masses, mass effect, hemorrhage, or
   infarction is noted. Prominent CSF space in the left side of the
   posterior
   fossa iws most likely enlarged cisterna magna and less likely an
   arachnoid
   cyst. The ventricles and sulci are mildly prominent consistent with
   involutional changes. Small periventricular white matter hypodensities
   are
   compatible with chronic microvascular infarction. The patient is status
   post
   right mastoidectomy. Moderate mucosal thickening and/or inspissated
   secretions within the sphenoid, ethmoid, bilateral maxillary and
   frontal
   sinuses are unchanged.
   IMPRESSION: No interval change since [**2165-3-28**], with no acute
   intracranial
   process.
   Microbiology: CMV virall load negative
   BCX [**4-2**], [**4-5**], [**4-6**] NGTD
   TUNNEL CATH SWAB PRELIM NEGATIVE
   --TIP: NGTD
   A-LINE FINAL NEGATIVE
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TACHYCARDIA, OTHER
 ATRIAL FIBRILLATION (AFIB)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 .H/O DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
   61 yo man s/p alogeneic SCT (day 0= [**2165-3-8**]) for multiple myeloma with
   respiratory failure (ARDS, Paraflu PNA, possible PE), s/p completed
   course for E. coli bacteremia and staph epi line infxn; currently on
   trach mask without sedation having persistent altered mental status.
   He has had recent low-grade temperatures gradually rising leukocytosis
   concerning for infxn; has new thigh hematoma vs abcess.
   # Ileopsoas Hematoma/Abscess:  The patient has a L sided collection in
   his ileopsoas muscle that is either hematoma or abscess.  Given that
   his Hct has dropped, he is on Heparin gtt for PE, his WBC is decreasing
   but still has low grade temperatures, he clinically appears to have
   hematoma rather than abscess.  Moreover, IR states that the progression
   is so suggestive of hematoma that it would be contraindicated to
   attempt to drain as this would cause further bleeding and possible
   seeding.  However, he has other possible causes for leukocytosis.
   -  follow Hct, hold heparin
   - re-address drainage issue if continued concern for abcess formation,
   but no role at this time
   # Low grade fevers/ Leukocytosis: On 48 hour line holiday per BMT until
   tommorrow morning. [**Last Name (un) **] and swab of site have pending cultures. CT
   torso thigh and head have suggested no other source. Pt continues to be
   on micafungin given + glucan (non-specific) and pending galactomannam.
   - continue VANCO/LEVO (started on [**4-7**] empirically).
   -  f/u pending culture data and galactomannan
   - continue micafungin
   # Respiratory failure:  Now with tracheostomy and trach mask with
   occasional periods of pressure support
vent rest.
 Original etiology
   =  ARDS (from ESBL sepsis), Paraflu PNA, and ? PE.
   - Hold heparin gtt given above
   - continue MDIs
   - Continue trach mask
   - Consider Head MRI or LP to assess cause of Mental status change
   # Afib with RVR:  good rate control with Metoprolol & Digoxin
   - f/u dig level: HOLDING AS SUPRATHERAPEUTIC: 2.5, will monitor HR off
   digoxin and restart as needed
   - No systemic anticoagulation
   # Altered mental status: Not really waking up despite being off all
   sedation.  He was seen by psych not recommending starting
   anti-depressant urgently given patient
s current status.
   - F/U Head CT, consider MRI  if no improvement
 will d/w BMT
   - Per psych, in case he becomes agitated:  low dose Zyprexa 2.5mg Q4
   prn ok for agitation, but if higher doses needed, Haldol 2.5mg PO/IV up
   to 20mg/day as needed for agitation.
   # ARF: Possibly [**12-17**] contrast initially.  Urine output neglibile.
   Currently on line holiday but will continue with HD.  Off HD, phos has
   risen and pt with progressive hyponatremia. Sevelamer increased.
   - avoid IV contrast
   - Restart HD/insert line per renal recs in 48 hours
   - Will d/w nutrition re: concentration of TF
s to limit free water.
   # Myeloma: Patient is s/p  SCT for multiple myeloma.
   - daily LFTs and bili
   - f/u BMT recs: CELLCEPT dosing?
   - daily cyclosporin levels.
   # Type 2 Diabetes Mellitus: Difficult to control blood glucose in the
   setting of infection
   -continue humalog sliding scale with Lantus, followed FSG and adjust
   per TPN status
   ICU Care
   Nutrition: TF
s concentrated per nutrition
   Glycemic Control:
   Lines:
   Midline - [**2165-3-22**] 09:00 PM
   Arterial Line - [**2165-4-3**] 04:27 PM
   Multi Lumen - [**2165-4-4**] 01:30 AM
   Prophylaxis:
   DVT: SQH
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: icu

2165-04-09 07:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MIDLINE - STOP [**2165-4-8**] 02:00 PM
 SPUTUM CULTURE - At [**2165-4-9**] 04:33 AM
   2 Unit pRBC per BMT for Hct <25
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2165-4-7**] 07:45 PM
   Vancomycin - [**2165-4-8**] 10:46 PM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2165-4-8**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-9**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 89 (82 - 105) bpm
   BP: 159/70(92) {122/57(76) - 165/76(100)} mmHg
   RR: 14 (14 - 26) insp/min
   SpO2: 97%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110 kg (admission): 132.3 kg
   Height: 72 Inch
           Total In:
                                                                  1,373 mL
                                                                    656 mL
   PO:
                                                                     50 mL
                                                                    130 mL
   TF:
   IVF:
                                                                    815 mL
                                                                     40 mL
   Blood products:
                                                                    158 mL
                                                                    397 mL
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,373 mL
                                                                    656 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Aerosol-cool, Trach mask
   SpO2: 97%
   ABG: 7.45/25/132/15/-4
   PaO2 / FiO2: 440
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: lungs clear anteriorly
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  erythema around tunnel line unchanged on L chest
   Neurologic: eyes open and tracking but not following commands
   Labs / Radiology
   157 K/uL
   8.7 g/dL
   119 mg/dL
   7.6 mg/dL
   15 mEq/L
   4.6 mEq/L
   95 mg/dL
   91 mEq/L
   123 mEq/L
   25.1 %
   16.3 K/uL
        [image002.jpg]
                             [**2165-4-7**]  05:13 AM
                             [**2165-4-7**]  02:13 PM
                             [**2165-4-7**]  10:20 PM
                             [**2165-4-8**]  04:40 AM
                             [**2165-4-8**]  09:48 AM
                             [**2165-4-8**]  02:36 PM
                             [**2165-4-8**]  06:39 PM
                             [**2165-4-8**]  09:27 PM
                             [**2165-4-9**]  01:45 AM
                             [**2165-4-9**]  05:15 AM
   WBC
   15.8
   16.5
   16.4
   17.1
   16.3
   Hct
   23.2
   20.1
   25.3
   26.6
   23.6
   22.9
   24.9
   25.1
   Plt
   179
   175
   153
   151
   157
   Cr
   5.3
   5.6
   6.4
   6.6
   7.0
   7.3
   7.6
   TCO2
   17
   18
   Glucose
   190
   128
   208
   138
   135
   123
   119
   Other labs: Differential-Neuts:93.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L, Ca++:8.9 mg/dL, Mg++:2.1
   mg/dL, PO4:10.2 mg/dL
   Fluid analysis / Other labs: ALT: 19 AP: 110 Tbili: 0.5
   AST: 32 LDH: 266
   PT: 13.6  PTT: 28.3  INR: 1.2
   Microbiology: [**Date range (1) 7766**]: BCx NGTD
   [**4-8**] Cath tip Cx: NGTD
   Assessment and Plan
 .H/O RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 TACHYCARDIA, OTHER
 ATRIAL FIBRILLATION (AFIB)
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O HYPERTENSION, BENIGN
 ALTERATION IN NUTRITION
 .H/O DIABETES MELLITUS (DM), TYPE II
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
   61 yo man s/p alogeneic SCT (day 0= [**2165-3-8**]) for multiple myeloma with
   respiratory failure (ARDS, Paraflu PNA, possible PE), s/p completed
   course for E. coli bacteremia and staph epi line infxn; currently on
   trach mask without sedation having persistent altered mental status and
   developing L psoas hematoma.
   # Altered mental status: Patient
s mental status improving marginally
   now several days off sedation (but also off HD).  He is now opening his
   eyes to voice, but does not yet follow commands.  Given his
   immunosuppression, he is more susceptible to CNS infections, however
   his slow improvement is staying our hand at further intervention at
   this time.  Largest concerns would be CNS infection or status
   epilepticus (non-convulsive). He was seen by psych not recommending
   starting anti-depressant urgently given patient
s current status.
   - Consider MRI  if no improvement
 will d/w BMT
   - Per psych, in case he becomes agitated:  low dose Zyprexa 2.5mg Q4
   prn ok for agitation, but if higher doses needed, Haldol 2.5mg PO/IV up
   to 20mg/day as needed for agitation.
   # Ileopsoas Hematoma:  The patient has a L sided collection in his
   ileopsoas muscle that is either hematoma or abscess.  Given that his
   Hct has dropped, he was on Heparin gtt for PE, his WBC is decreasing
   but still has low grade temperatures, he clinically appears to have
   hematoma rather than abscess.  Moreover, IR states that the progression
   is so suggestive of hematoma that it would be contraindicated to
   attempt to drain as this would cause further bleeding and possible
   seeding.
   -  follow Hct, hold heparin
   - re-address drainage issue if continued concern for abcess formation,
   but no role at this time
   - Restarted Vanc/Levo for leukocytosis (7 day course), continuing
   Micafungin
   # ARF: Possibly [**12-17**] contrast initially.  Urine output neglibile.
   Electrolyte derangements increasing.  Patient due for HD line today.
   Off HD, phos has risen and pt with progressive hyponatremia. Sevelamer
   increased.
   - avoid IV contrast
   - Restart HD/insert line per renal recs in 48 hours
   - Will d/w nutrition re: concentration of TF
s to limit free water.
   # Respiratory failure:  Now with tracheostomy and trach mask with
   occasional periods of pressure support
vent rest.
 Original etiology
   =  ARDS (from ESBL sepsis), Paraflu PNA, and ? PE.
   - Hold heparin gtt given above
   - continue MDIs
   - Continue trach mask
   - Consider Head MRI or LP to assess cause of Mental status change
   # Afib with RVR:  good rate control with Metoprolol & Digoxin
   - f/u dig level: HOLDING AS SUPRATHERAPEUTIC: 2.5, will monitor HR off
   digoxin and restart as needed
   - No systemic anticoagulation
   # Myeloma: Patient is s/p  SCT for multiple myeloma.
   - daily LFTs and bili
   - f/u BMT recs: CELLCEPT dosing?
   - daily cyclosporin levels.
   # Type 2 Diabetes Mellitus: Difficult to control blood glucose in the
   setting of infection
   -continue humalog sliding scale with Lantus, followed FSG and adjust
   per TPN status
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2165-4-3**] 04:27 PM
   Multi Lumen - [**2165-4-4**] 01:30 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2165-04-10 07:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2165-4-9**] 02:00 PM
 ARTERIAL LINE - STOP [**2165-4-10**] 05:00 AM
   Agitated early this AM
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Levofloxacin - [**2165-4-7**] 07:45 PM
   Vancomycin - [**2165-4-8**] 10:46 PM
   Micafungin - [**2165-4-9**] 05:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-10**] 07:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.8
C (98.3
   HR: 109 (86 - 115) bpm
   BP: 142/78(96) {142/78(96) - 142/105(114)} mmHg
   RR: 23 (17 - 33) insp/min
   SpO2: 96%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 110 kg (admission): 132.3 kg
   Height: 72 Inch
             Total In:
                                                                  1,661 mL
                                                                    301 mL
   PO:
                                                                    400 mL
             TF:
                                                                    150 mL
                                                                    262 mL
   IVF:
                                                                    475 mL
                                                                     39 mL
   Blood products:
                                                                    397 mL
   Total out:
                                                                  4,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,339 mL
                                                                    301 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Aerosol-cool, Trach mask
   SpO2: 96%
   ABG: ///23/
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach in place
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: lungs clear anteriorly
   Abdominal: Soft, Bowel sounds present, Obese
   Extremities: Right: 1+, Left: 1+
   Skin:  erythema around tunnel line unchanged on L chest
   Neurologic: eyes open and tracking but not following commands
   Labs / Radiology
   157 K/uL
   9.7 g/dL
   147 mg/dL
   5.8 mg/dL
   23 mEq/L
   4.0 mEq/L
   57 mg/dL
   93 mEq/L
   133 mEq/L
   27.0 %
   14.8 K/uL
        [image002.jpg]
                             [**2165-4-8**]  04:40 AM
                             [**2165-4-8**]  09:48 AM
                             [**2165-4-8**]  02:36 PM
                             [**2165-4-8**]  06:39 PM
                             [**2165-4-8**]  09:27 PM
                             [**2165-4-9**]  01:45 AM
                             [**2165-4-9**]  05:15 AM
                             [**2165-4-9**]  02:49 PM
                             [**2165-4-9**]  10:29 PM
                             [**2165-4-10**]  04:37 AM
   WBC
   16.4
   17.1
   16.3
   14.8
   Hct
   26.6
   23.6
   22.9
   24.9
   25.1
   26.0
   26.7
   27.0
   Plt
   153
   151
   157
   157
   Cr
   6.6
   7.0
   7.3
   7.6
   5.8
   TCO2
   17
   18
   Glucose
   138
   135
   123
   119
   147
   Other labs: Differential-Neuts:93.0 %, Band:0.0 %, Lymph:3.0 %,
   Mono:4.0 %, Eos:0.0 %, Ca++:8.8 mg/dL, Mg++:2.1 mg/dL, PO4:5.7 mg/dL
   Fluid analysis / Other labs: PT: 13.3  PTT: 25.5  INR: 1.1
   Dig: 1.3
   ALT: 16 AP: 114 Tbili: 0.6 AST: 28 LDH: 298
   Imaging: None
   Microbiology: Blood Cx Pending
   Sputum Cx still GPCs, GPRs 1+
   Assessment and Plan
   61 yo man s/p alogeneic SCT (day 0= [**2165-3-8**]) for multiple myeloma with
   prolonged ICU course for respiratory failure, bacteremia and acute
   renal failure with respiratory failure (ARDS, Paraflu PNA, possible
   PE), s/p completed course for E. coli bacteremia and staph epi line
   infxn; currently on trach mask without sedation having persistent
   altered mental status and developing L psoas hematoma.
   # Altered mental status: Improving, now agitated
    Patient
s mental status improving marginally now several days off
   sedation (but also off HD).  He is now opening his eyes to voice, but
   does not yet follow commands.  Given his immunosuppression, he is more
   susceptible to CNS infections, however his slow improvement is staying
   our hand at further intervention at this time.  Largest concerns would
   be CNS infection or status epilepticus (non-convulsive). He was seen by
   psych not recommending starting anti-depressant urgently given
   patient
s current status.
   - Consider MRI  if no improvement
 will d/w BMT
   - Per psych, in case he becomes agitated:  low dose Zyprexa 2.5mg Q4
   prn ok for agitation, but if higher doses needed, Haldol 2.5mg PO/IV up
   to 20mg/day as needed for agitation.
   # Ileopsoas Hematoma:  Hct stable
   The patient has a L sided collection in his ileopsoas muscle that is
   either hematoma or abscess.  Given that his Hct has dropped, he was on
   Heparin gtt for PE, his WBC is decreasing but still has low grade
   temperatures, he clinically appears to have hematoma rather than
   abscess.  Moreover, IR states that the progression is so suggestive of
   hematoma that it would be contraindicated to attempt to drain as this
   would cause further bleeding and possible seeding.
   -  follow Hct, hold heparin
   - re-address drainage issue if continued concern for abcess formation,
   but no role at this time
   - Restarted Vanc/Levo for leukocytosis (7 day course), continuing
   Micafungin
   # ARF: On HD
   Possibly [**12-17**] contrast initially.  Urine output neglibile.  Electrolyte
   derangements increasing.  Patient due for HD line today.  Off HD, phos
   has risen and pt with progressive hyponatremia. Sevelamer increased.
   # Respiratory failure:  Now with tracheostomy and trach mask with
   occasional periods of pressure support
vent rest.
  Doing quite well
   overnight. Barrier to trach removal is primarily mental status as
   above.
   - continue MDIs
   - Continue trach mask
   - Consider Head MRI or LP to assess cause of Mental status change
   # Afib with RVR:  good rate control with Metoprolol & Digoxin
   - f/u dig level: HOLDING AS SUPRATHERAPEUTIC: 2.5, will monitor HR off
   digoxin and restart as needed
   - No systemic anticoagulation
   # Myeloma: Patient is s/p  SCT for multiple myeloma.
   - daily LFTs and bili
   - f/u BMT recs: CELLCEPT dosing
   - daily cyclosporin levels and dosing guidance
   # Type 2 Diabetes Mellitus: Difficult to control blood glucose in the
   setting of infection
   -continue humalog sliding scale with Lantus, followed FSG and adjust
   per TPN status
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2165-4-9**] 07:00 PM 40 mL/hour
   Glycemic Control:  HISS
   Lines:
   Multi Lumen - [**2165-4-4**] 01:30 AM
   Dialysis Catheter - [**2165-4-9**] 02:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2165-04-11 07:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No acute events or changes in mgt overnight
   No heparin or CTA per BMT
   Allergies:
   Penicillins
   Rash; Anaphylax
   Morphine
   Nausea/Vomiting
   Dilaudid-Hp (Injection) (Hydromorphone Hcl/Pf)
   Nausea/Vomiting
   Last dose of Antibiotics:
   Vancomycin - [**2165-4-8**] 10:46 PM
   Micafungin - [**2165-4-9**] 05:00 PM
   Infusions:
   Other ICU medications:
   Lorazepam (Ativan) - [**2165-4-11**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2165-4-11**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.2
C (98.9
   HR: 84 (83 - 110) bpm
   BP: 115/55(68) {102/47(61) - 173/100(116)} mmHg
   RR: 22 (13 - 25) insp/min
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 113.1 kg (admission): 132.3 kg
   Height: 72 Inch
             Total In:
                                                                  1,820 mL
                                                                    326 mL
   PO:
             TF:
                                                                    910 mL
                                                                    290 mL
   IVF:
                                                                    660 mL
                                                                     36 mL
   Blood products:
   Total out:
                                                                  4,000 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -2,180 mL
                                                                    326 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: ///19/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   145 K/uL
   9.3 g/dL
   138 mg/dL
   6.9 mg/dL
   19 mEq/L
   4.0 mEq/L
   73 mg/dL
   90 mEq/L
   130 mEq/L
   26.6 %
   10.2 K/uL
         [image002.jpg]
                             [**2165-4-8**]  09:48 AM
                             [**2165-4-8**]  02:36 PM
                             [**2165-4-8**]  06:39 PM
                             [**2165-4-8**]  09:27 PM
                             [**2165-4-9**]  01:45 AM
                             [**2165-4-9**]  05:15 AM
                             [**2165-4-9**]  02:49 PM
                             [**2165-4-9**]  10:29 PM
                             [**2165-4-10**]  04:37 AM
                             [**2165-4-11**]  04:09 AM
   WBC
   17.1
   16.3
   14.8
   10.2
   Hct
   23.6
   22.9
   24.9
   25.1
   26.0
   26.7
   27.0
   26.6
   Plt
   151
   157
   157
   145
   Cr
   7.0
   7.3
   7.6
   5.8
   6.9
   TCO2
   17
   18
   Glucose
   135
   123
   119
   147
   138
   Other labs: PT / PTT / INR:12.9/27.2/1.1, ALT / AST:16/28, Alk Phos / T
   Bili:114/0.6, Amylase / Lipase:71/52, Differential-Neuts:93.0 %,
   Band:0.0 %, Lymph:3.0 %, Mono:4.0 %, Eos:0.0 %, Lactic Acid:1.1 mmol/L,
   Albumin:2.6 g/dL, LDH:298 IU/L, Ca++:8.8 mg/dL, Mg++:2.2 mg/dL, PO4:6.7
   mg/dL
   Imaging: none
   Microbiology: BCx [**4-5**], [**4-6**], [**4-8**] NGTD
   [**4-7**] HD cath and swab NGTD
   [**4-8**] Midline Tip Coag negative Staph
   [**4-9**] SPUTUM  Expectorated.
      GRAM STAIN (Final [**2165-4-9**]):
         >25 PMNs and <10 epithelial cells/100X field.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CHAINS.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
      RESPIRATORY CULTURE (Preliminary):
         MODERATE GROWTH OROPHARYNGEAL FLORA.
      FUNGAL CULTURE (Preliminary):
   Assessment and Plan
 ATRIAL FIBRILLATION (AFIB)
 ALTERATION IN NUTRITION
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 MULTIPLE MYELOMA  (CANCER, MALIGNANT NEOPLASM)
 IMPAIRED SKIN INTEGRITY
 .H/O HYPERTENSION, [**Country 7812**]
 [**Last Name 12**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
 .H/O DIABETES MELLITUS (DM), TYPE II
   61 yo man s/p alogeneic SCT (day 0= [**2165-3-8**]) for multiple myeloma with
   prolonged ICU course for respiratory failure, bacteremia and acute
   renal failure.  He is current extubated to trach, doing well and his
   mental status continues to improve.
   # Altered mental status: The patient
s mental status is improving
   slowly, but etiology of AMS remains unclear.  [**Name2 (NI) **] will now follow
   commands and track. Working theories of his alteration include uremia,
   sepsis, sedative medications, delirium of the critically ill.
   - Continue to monitor his mental status, with signs of worsening,
   consider MRI/LP.
   - Per psych, in case he becomes agitated:  low dose Zyprexa 2.5mg Q4
   prn ok for agitation, but if higher doses needed, Haldol 2.5mg PO/IV up
   to 20mg/day as needed for agitation.
   - no indication for home psych meds at this time per psych, but they
   will re-eval him as mental stus improves
   # Ileopsoas Hematoma:  While on heparin for a possible PE, the patient
   developed a L-sided spontaneous ileopsoas hematoma.  His hematocrit has
   been stable for two days.  He has no fever or leukocytosis to suggest
   an abscess or infected hematoma.  There was a question of aspirating
   hematoma to ensure that it was not infected, but we believe that this
   is contra-indicated currently; if he develops increasing signs of
   infection or recurrent bacterimia, would re-address this as a source.
   - [**Hospital1 7**] Hct, hold heparin, hold SQH per BMT
   - re-address drainage issue if continued concern for abcess formation,
   but no role at this time
   # Coag (-) Staph wound culture:  Patient
s midline tip culture positive
   for Coag (-) staph.  Started on Vanc/Levo ON [**4-7**] for leukocytosis
   (which is resolving). Now off levo. Midline removed on [**4-8**].  Of note,
   pt had coag negative staff growing from port-a-cath which was removed 2
   weeks ago
he has not grown this on blood culture in the interim.
   - Vancomycin HD protocol for 7 days total course strting on date of
   line removal: 7 days from [**4-8**]
   # ARF: On HD
   Possibly [**12-17**] contrast, acyclovir, initially; may have started with some
   damage from myeloma.  Urine output neglibile.
   - HD line in place, patient with every other day HD.  Getting UF
   between HD sessions.
   # Respiratory failure:  Now with tracheostomy and trach mask; not
   requiring pressure support
vent rest
 for several days.  Improving
   steadily. Barrier to trach removal is primarily mental status as above.
   - continue MDIs
   - Continue trach mask with 35% FIO2
   - despite prior concern for PE, no plan for heparin or CTA per BMT
   # Afib with RVR:  good rate control with Metoprolol & Digoxin (level
   1.3
 1.8)
   - Restarted Dig 0.125mg every other day on [**4-10**]
   - No systemic anticoagulation
   # Myeloma: Patient is s/p  SCT for multiple myeloma.
   - daily LFTs and bili
   - f/u BMT recs: CELLCEPT dosing
   - daily cyclosporin levels and dosing guidance; current trough levels
   high
   - valganciclovir for CMV ppx
   # Type 2 Diabetes Mellitus: Difficult to control blood glucose in the
   setting of infection
   -continue humalog sliding scale with Lantus, followed FSG and adjust
   per TPN status
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2165-4-10**] 08:41 PM 40 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2165-4-4**] 01:30 AM
   Dialysis Catheter - [**2165-4-9**] 02:00 PM
   Prophylaxis:
   DVT: boots
   Stress ulcer: ppi
   VAP:
   Comments:
   Communication:  Comments: wife [**Name (NI) 7821**] today and aware of tx to floor
   Code status: Full code
   Disposition: tx to BMT service